2155-04-11 06:54:00 Physician Resident Progress Note
Chief Complaint:
   Fulminant Hepatic Failure
   24 Hour Events:
   Respiratory Status:
   -Code status discussed with patient
s wife and onc attending
 Full
   Code
   -Pt unable to tolerate BiPAP or shovel mask. +Blood in oropharynx [**3-4**]
   mucosal bleeding. Repeat ABG on shovel mask:  pH 7.36 pCO2 38 pO2 100
   HCO3 22 BaseXS -3.
   -Given concern for respiratory fatigue, pt was intubated.
   -A-line placed; repeat ABC s/p intubation: pH 7.40 pCO2 28  pO2 125
   HCO3 18  BaseXS -5.
   -CXR demonstrated appropriate ET tube placement, with diminished lung
   volumes bilaterally.
   Hepatic VOD:
   -11pm labs demonstrated Plt 19, Hct 28.8, INR 1.6
   -Pt received 4 units FFP, 2 units plts, 2 units PRBC to meet
   Defibrotide protocol targets
 Defibrotide administered @ 1am.
   Ascites:
   -Increasingly firm, distended belly in early AM. +Pt vomiting s/p ET
   placement.
   -Foley placed to monitor UOP and bladder pressure
   -OGT placed for gastric decompression, PO med delivery
   -Bladder pressure = 20 this AM
   Allergies:
   Penicillins
 Hives
   Last dose of Antibiotics:
   Vancomycin - [**2155-4-10**] 08:52 PM
   Gancyclovir - [**2155-4-10**] 09:07 PM
   Micafungin - [**2155-4-10**] 10:16 PM
   Cefipime - [**2155-4-11**] 05:50 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Morphine Sulfate - [**2155-4-11**] 12:45 AM
   Meperidine (Demerol) - [**2155-4-11**] 12:48 AM
   Midazolam (Versed) - [**2155-4-11**] 05:00 AM
   Fentanyl - [**2155-4-11**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-4-11**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.9
C (98.4
   HR: 127 (109 - 137) bpm
   BP: 174/100(127) {85/54(64) - 174/100(127)} mmHg
   RR: 26 (22 - 42) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                  1,172 mL
                                                                  1,829 mL
   PO:
           TF:
   IVF:
                                                                    433 mL
                                                                    345 mL
   Blood products:
                                                                    723 mL
                                                                  1,485 mL
   Total out:
                                                                    400 mL
                                                                    280 mL
   Urine:
                                                                    400 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    772 mL
                                                                  1,549 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 1,177 (1,177 - 1,177) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 24 cmH2O
   SpO2: 94%
   ABG: 7.40/28/125/18/-5
   Ve: 14 L/min
   PaO2 / FiO2: 208
   Physical Examination
   General: Intubated, sedated, appearing jaundiced, with grossly
   distended abdomen
   HEENT: Sclerae mildly icteric; +mucosal hemorrhages in oral cavity;
   +OGT
   Neck: Tunneled CVL on R; no thyromegaly or LAD
   Lungs: +Ronchi and occasional end inspiratory wheezes anteriorly
   CV: Tachycardic, nl S1, S2, no murmurs
   Abdomen: Grossly distended, tense (> than admission, < than early this
   AM), dull to percussion, decreased BS
   GU: Foley
   Ext: Warm, well-perfused; DPs 2+ bilaterally; +pedal edema
   Labs / Radiology
   26 K/uL
   9.6 g/dL
   108 mg/dL
   1.6 mg/dL
   18 mEq/L
   4.3 mEq/L
   45 mg/dL
   111 mEq/L
   141 mEq/L
   27.6 %
   0.3 K/uL
        [image002.jpg]
                             [**2155-4-10**]  10:45 PM
                             [**2155-4-10**]  11:00 PM
                             [**2155-4-11**]  01:59 AM
                             [**2155-4-11**]  03:58 AM
                             [**2155-4-11**]  04:07 AM
   WBC
   0.6
   0.3
   Hct
   28.8
   27.6
   Plt
   19
   26
   Cr
   1.6
   TCO2
   20
   22
   18
   Glucose
   108
   Other labs:
   PT / PTT / INR:17.4/41.7/1.6
   ALT / AST:712/869, Alk Phos / T Bili:124/5.2  LDH:685 IU/L /
   Albumin:3.8 g/dL
   Differential-Neuts:24.0 %, Band:0.0 %, Lymph:48.0 %, Mono:4.0 %,
   Eos:0.0 %,
   Fibrinogen:623 mg/dL, Lactic Acid:1.8 mmol/L
   Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   CXR [**2155-4-11**]: ET tube 3.5cm above carina. Increased interstitial
   markings.
   Assessment and Plan
   56yM with refractory follicular lymphoma, day 9 s/p BEAM Auto [**Hospital 11923**]
   transferred from BMT floor with clinical, laboratory, and radiographic
   findings consistent with fulminant hepatic failure [**3-4**] [**Last Name (un) 3140**]-occlusive
   disease.
   1) Hypoxic Respiratory Failure: Pt now s/p successful intubation after
   presenting w/ rapid shallow breathing, increased O2 requirements, low
   lung volumes on CXR [**3-4**] ascites, and serial ABGs demonstrating
   respiratory fatigue. Etiology of hypoxia is most likely severe
   atelectasis [**3-4**] ascites, leading to shunt physiology. Possible
   component of pulmonary edema [**3-4**] volume overload, though pt has no
   evidence of LV dysfunction on Echo. No evidence for PNA on CXR. PE also
   a remote possibility, given tachycardia, tachypnea, and hypoxia in
   setting of malignancy and coagulopathy, though pt has some "natural"
   anticoagulation on board from his disease process, as well as the
   defibrotide, and regardless, there are no therapeutic options for PE in
   this patient at this time.
   -Up-titrate PEEP to [**11-14**] to expand lung volumes and decrease FiO2
   requirement
   -Re-check ABG on 500/14/10/60
   2) Fulminant Hepatic Failure: Pt presenting w/ encephalopathy,
   coagulopathy, and massive ascites. Most likely explanation is severe
   VOD [**3-4**] auto BMT (specifically: cytotoxic chemotherapy-induced
   endothelial damage to the hepatic sinusoids and venules, which explains
   the reversal of flow in the portal vein but not the hepatic veins).
   Given hx of EtOH intake, pt may have underlying cirrhosis, not apparent
   on pre-SCT labs, which predisposed him to VOD. Less likely etiology for
   the liver failure is acute viral hepatitis; pt at risk [**3-4**]
   immunosuppression. Clinically, pt is worse this AM with an increased
   TBili to 5.2. The blood products required for correction of the
   coagulopathy present a significant volume challenge. Cardiac function
   is normal by ECHO, but even a normal heart is unlikely to be able to
   compensate for the combination of portal hypertension, third
   spacing/interstitial edema, and diminished renal function. Prognosis is
   extremely poor. GI following.
   (a.) Hepatic Failure
   -Defibrotide (560 mg IV Q6H) per protocol for VOD
        -Plt>30
        -Hct>30
        -INR<1.5
        -Fibrinogen>150
   -Q6H plts
   -[**Hospital1 **] labs
   -Consider d/c Albumin 75mg IV daily to reduce fluid intake
 discuss w/
   GI
   -Continue Ganciclovir 230 mg IV Q12H (Day 1 = [**2155-4-10**]) for possible HSV
   or CMV hepatitis
   -F/u viral hepatitis studies
   -Q2H FS to monitor for derangements in glucose metabolism
   -f/u GI recs
   -Monitor Is/Os
   (b.) Encephalopathy: Compounded by morphine on initial presentation. Pt
   now sedated on vent.
   -Lactulose 30mL PO QID per OGT
   (c.) Coagulopathy: [**3-4**] liver failure + cytotoxic chemotherapy +
   debifrotide side effects.
   -Continue to correct derangements with blood products (FFP, Plts, PRBC)
   per Defibrotide protocol
   -Continue Filgrastim 480 mcg SC Q24H Start: Day +4 until ANC>1000
   (d.) Ascites: Tense, massive ascites that has worsened progressively
   over course of ICU stay with infusions of meds and blood products. Pt
   likely has several liters of fluid in his belly. Concern is for
   abdominal compartment syndrome and hepatorenal syndrome.
   -Hold paracentesis for infection risk, bleeding risk, concern for fluid
   shifts (per BMT and Dr. [**Last Name (STitle) 356**]
   -Follow bladder pressure
   3.) Febrile Neutropenia: Pt persistently febrile and tachycardic with
   ANC of 0 on vancomycin, cefepime, micofungin. No identifiable
   infectious source. Concern for SBP, per GI. Concern for bacterial
   translocation [**3-4**] mucositis. Urine cx negative. C diff negative. Blood
   cx NGTD. ID following.
   -Continue broad spectrum antimicrobials
   -Hold tylenol, for liver failure
   -Avoid all non-essential non-sterile procedures
   -f/u ID recs
   4) [**Last Name (un) **]: Cr 1.6, up from baseline of 0.8. Stable this AM. UOP 100cc/hr
   last night, down to approx 50cc/hr this AM. Etiology is ATN vs
   Hepatorenal syndrome. Per renal, granular casts in urine sediment
   suggest ATN, likely [**3-4**] infection/hypotension. Hepatorenal may also be
   a contributing factor. Acid/Base disturbance appears to be a metabolic
   acidosis w/ respiratory compensation, likely [**3-4**] chemotherapy-induced
   distal RTA vs impaired ammonia generation in early renal failure.
   Dialysis not currently indicated but need may arise over the weekend if
   uremia develops or pt becomes oliguric. Renal is following and aware.
   -Trend BUN/Cr
   -Repeat urine lytes and urine [**Last Name (LF) 11924**], [**First Name3 (LF) 77**] renal recs
   -Renal US to r/o obstruction, per renal recs
   -Renally dose meds
   5) Follicular Lymphoma: Pt is s/p BEAM Auto SCT. Engraftment slower
   than expected.
   -Continue Filgrastim, as above
   -Consider steroids, per pt
s oncologist (Dr. [**First Name (STitle) 2355**]
   6) Mucositis: [**3-4**] chemotherapeutic regimen.
   -Continue caphasol, nystatin, gelclair
   7) Electrolyes:
   -Potassium Phosphate Replacement (Oncology)  IV Sliding Scale
   ICU Care
   Nutrition: TPN, currently held for volume overload
   Glycemic Control:  FS Q2H
   Lines:
   Tunneled (Hickman) Line - [**2155-4-10**] 08:00 PM
   Arterial Line - [**2155-4-11**] 03:53 AM
   Prophylaxis:
   DVT: Pneumoboots, hold SQH for coagulopathy
   Stress ulcer: PPI
   Communication: Wife [**Name (NI) 1542**], cell [**0-0-**], home [**Telephone/Fax (1) 11911**]
   Code status: FULL
 Pt has living will that specifies DNR/DNI, but per
   discussion b/n pt
s wife and onc attending Dr. [**Name (NI) 3784**], pt is now full
   code (living will allows patient
s HCP to over-ride a decision) ; per
   discussion b/n Dr. [**First Name (STitle) **] and pt
s oncologist  Dr. [**First Name (STitle) 2355**], it is
   understood that SCT pts are full code
   Disposition: No current dispo plans at present
   ------ Protected Section ------
   Agree with excellent MSIV note.  In  summary, Mr. [**Known lastname 11910**] is a middle
   aged male with NHL s/p auto transplant now day 9.  His course has been
   complicated by culture negative febrile neutropenia, VOD with hepatic
   failure, massive ascites, and respiratory failure requiring mechanical
   intubation.  Regarding respiratory failure, will increase peep to
   improve oxygenation and suspect this is secondary to low lung volumes
   and resp comp for metabolic acidosis.  Hepatic failure from VOD is
   being treated with experiemental drug requiring frequent labs to
   monitor for coagulopathy & thrombocytonia, fibrinogen and hct.  Also,
   mental status likely worsened secondary to HE and morphine.  Will
   minimize sedating meds.  Renal failure is stable.  Will discuss with
   hepatology re: stopping albumin given aggressive fluid challenges that
   he is getting from blood products.  Culture data remains negative on
   broad spectrum coverage and ID following.
   ------ Protected Section Addendum Entered By:[**Name (NI) 842**] [**Last Name (NamePattern1) 492**], MD
   on:[**2155-4-11**] 11:55 ------

2155-04-12 06:53:00 Physician Resident Progress Note
Chief Complaint: Altered mental status
   24 Hour Events:
   - Patient intubated for rising CO2 and worsening mental status/
   difficulty tolerating the shovel mask and BIPAP trials.
   - arterial line placed.
   - Vomiting o/n on [**4-10**] ?aspiration.
   -Pt started on levophed to raise MAP>80 and improve cerebral perfusion
   (prophylaactically to prevent cerebral complications). Mannitol also
   ordered for prn use if needed to have at bedside.
   -Switch versed to propafol
   -Given solumedrol 60 mg IV x 1 per BMT recs for antiinflammatory effect
   now that pt is engrafting.  Will further re-dose tomorrow based on BMT
   recs.
   -Gancyclovir discontinued given worsening renal function per BMT recs.
   -Worsening renal function: Cr 1.3 -> 1.6 -> 2.1 ->2.4-> 2.7 ?cvvh.
   -Lactate: 1.8--> 3.6-->5.6
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Gancyclovir - [**2155-4-11**] 10:40 AM
   Vancomycin - [**2155-4-11**] 09:00 PM
   Micafungin - [**2155-4-11**] 11:00 PM
   Cefipime - [**2155-4-12**] 06:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.2 mcg/Kg/min
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2155-4-11**] 06:44 AM
   Fentanyl - [**2155-4-11**] 06:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-4-12**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.7
C (98.1
   HR: 84 (83 - 126) bpm
   BP: 125/66(85) {85/57(66) - 153/77(100)} mmHg
   RR: 16 (16 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
    Bladder pressure: 10 (10 - 20) mmHg
   Total In:
                                                                  4,583 mL
                                                                    682 mL
   PO:
   TF:
   IVF:
                                                                  2,016 mL
                                                                    682 mL
   Blood products:
                                                                  2,567 mL
   Total out:
                                                                    925 mL
                                                                    280 mL
   Urine:
                                                                    575 mL
                                                                     80 mL
   NG:
                                                                    350 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  3,658 mL
                                                                    402 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   SpO2: 95%
   ABG: 7.33/29/86/15/-9
   Ve: 11.4 L/min
   PaO2 / FiO2: 172
   Physical Examination
   General: Intubated, sedated, appearing jaundiced, with grossly
   distended abdomen
   HEENT: Sclerae mildly icteric; +mucosal hemorrhages in oral cavity;
   +OGT
   Neck: Tunneled CVL on R; no thyromegaly or LAD
   Lungs: +Ronchi and occasional end inspiratory wheezes anteriorly
   CV: Tachycardic, nl S1, S2, no murmurs
   Abdomen: Grossly distended, tense (> than admission), dull to
   percussion, BS absent
   GU: Foley
   Ext: Warm, well-perfused; DPs 2+ bilaterally; +2 pitting bil pedal
   edema
   Labs / Radiology
   56 K/uL
   12.8 g/dL
   135 mg/dL
   2.7 mg/dL
   15 mEq/L
   4.7 mEq/L
   60 mg/dL
   107 mEq/L
   142 mEq/L
   37.2 %
   7.9 K/uL
        [image002.jpg]
                             [**2155-4-11**]  11:30 AM
                             [**2155-4-11**]  03:46 PM
                             [**2155-4-11**]  05:18 PM
                             [**2155-4-11**]  05:44 PM
                             [**2155-4-11**]  09:52 PM
                             [**2155-4-11**]  10:07 PM
                             [**2155-4-11**]  11:57 PM
                             [**2155-4-12**]  01:10 AM
                             [**2155-4-12**]  03:03 AM
                             [**2155-4-12**]  03:35 AM
   WBC
   1.0
   7.9
   Hct
   30.9
   31.1
   37.2
   Plt
   26
   42
   37
   58
   56
   Cr
   2.1
   2.4
   2.7
   TCO2
   19
   19
   18
   16
   16
   Glucose
   86
   123
   135
   Other labs: PT / PTT / INR:19.4/39.0/1.8, ALT / AST:1044/1461, Alk Phos
   / T Bili:170/10.0, Differential-Neuts:56.0 %, Band:2.0 %, Lymph:6.0 %,
   Mono:24.0 %, Eos:0.0 %, Fibrinogen:647 mg/dL, Lactic Acid:5.6 mmol/L,
   Albumin:3.6 g/dL, LDH:1466 IU/L, Ca++:9.0 mg/dL, Mg++:2.2 mg/dL,
   PO4:4.5 mg/dL
   Imaging: Renal U/S: No evidence of hydronephrosis.Moderate ascites.
   CXR: persistent low lung volumes. Persistent LLL retrocardiac could be
   atelectasis, but cannot exclude pneumonia. Small right pleural
   effusion.
   CT head: No acute intracranial
   hemorrhage or mass effect.
   Microbiology: Cdiff negative x 3
   Uculture NG
   CMV antibody negative
   Blood cultures pending
   Viral serologies pending
   Assessment and Plan
   56yM with refractory follicular lymphoma, day 10 s/p BEAM Auto [**Hospital 11923**]
   transferred from BMT floor with clinical, laboratory, and radiographic
   findings consistent with fulminant hepatic failure [**3-4**] [**Last Name (un) 3140**]-occlusive
   disease.
   1) Hypoxic Respiratory Failure: Pt intubated on [**4-10**] for increased O2
   requirements, low lung volumes on CXR [**3-4**] ascites, and serial ABGs
   demonstrating respiratory fatigue. Etiology of hypoxia is most likely
   severe atelectasis [**3-4**] ascites, leading to shunt physiology. Possible
   component of pulmonary edema [**3-4**] volume overload, though pt has no
   evidence of LV dysfunction on Echo. ?PNA on CXR. PE also a remote
   possibility, given tachycardia, tachypnea, and hypoxia in setting of
   malignancy and coagulopathy, though pt has some "natural"
   anticoagulation on board from his disease process, as well as the
   defibrotide, and regardless, there are no therapeutic options for PE in
   this patient at this time. Overnight, uptitrated PEEP from 10 to 15
   and FiO2 from 40 to 50 for PaO2 of 75-83, now improved at 86.
   -Re-check ABG later today.
   2) Fulminant Hepatic Failure: Pt presenting w/ encephalopathy,
   coagulopathy, and massive ascites. Most likely explanation is severe
   VOD [**3-4**] auto-SCT. Given hx of EtOH intake, pt may have underlying
   cirrhosis, not apparent on pre-SCT labs, which predisposed him to VOD.
   Less likely etiology for the liver failure is acute viral hepatitis; pt
   at risk [**3-4**] immunosuppression. Clinically, pt is worse this AM with an
   increased TBili from 5.2
 10. The blood products required for
   correction of the coagulopathy present a significant volume challenge.
   Cardiac function is normal by ECHO, but even a normal heart is unlikely
   to be able to compensate for the combination of portal hypertension,
   third spacing/interstitial edema, and diminished renal function.
   Prognosis is extremely poor. Hepatology, renal, and ID following.
   (a.) Hepatic Failure
   -Defibrotide (560 mg IV Q6H) per protocol for VOD
        -Plt>30
        -Hct>30
        -INR<1.5
        -Fibrinogen>150
   -Q6H plts
   -[**Hospital1 **] labs
   -d/cd albumin 75mg IV daily to reduce fluid intake
   -Given worsening renal function, d/cd gancyclovir
   -F/u viral hepatitis studies
   -Q2H FS to monitor for derangements in glucose metabolism
   -f/u GI recs
   -Monitor Is/Os
   (b.) Encephalopathy: Compounded by morphine on initial presentation. Pt
   now sedated on vent.
   -Lactulose 30mL PO QID per OGT , although ammonia normal
   -Head CT negative
   (c.) Coagulopathy: [**3-4**] liver failure + cytotoxic chemotherapy +
   debifrotide side effects.
   -Continue to correct derangements with blood products (FFP, Plts, PRBC)
   per Defibrotide protocol
   -Can likely d/c Filgrastim today as ANC 4790.
   (d.) Ascites: Tense, massive ascites that has worsened progressively
   over course of ICU stay with infusions of meds and blood products. Pt
   likely has several liters of fluid in his belly. Concern is for
   abdominal compartment syndrome and hepatorenal syndrome.
   -Continue to monitor UOP (btwn 10-20 cc/hr)  and bladder pressure (~20)
   -Have been holding paracentesis for infection risk, bleeding risk,
   concern for fluid shifts (per BMT and Dr. [**Last Name (STitle) 356**], however now with pt
   no longer being neutropenic, may consider tap especially if bladder
   pressures increase and UOP continues to fall.
   3.) Febrile Neutropenia: Pt persistently febrile and tachycardic
   intially with ANC of 0 on vancomycin, cefepime, micofungin. No
   identifiable infectious source. Concern for SBP, per GI. Concern for
   bacterial translocation [**3-4**] mucositis. Urine cx negative. C diff
   negative. Blood cx NGTD. ID following.
   -Continue broad spectrum antimicrobials
   -Hold tylenol, for liver failure
   -Avoid all non-essential non-sterile procedures
   -f/u ID recs
   4) [**Last Name (un) **]: Cr 2.7, up from baseline of 0.8. Stable this AM. UOP 10-20cc/hr
   last night, down from approx 100cc/hr on admission. Etiology is ATN vs
   Hepatorenal syndrome. Per renal, granular casts in urine sediment
   suggest ATN, likely [**3-4**] infection/hypotension. Hepatorenal may also be
   a contributing factor. Acid/Base disturbance appears to be a metabolic
   acidosis w/ respiratory compensation, likely [**3-4**] chemotherapy-induced
   distal RTA vs impaired ammonia generation in early renal failure.
   Dialysis not currently indicated but need may arise over the weekend if
   uremia develops or pt becomes oliguric. Renal is following and aware.
   -Trend BUN/Cr
   -Renal US to r/o obstruction negative.
   -Renally dose meds
   -Patient will likely need CVVH.
   5) Follicular Lymphoma: Pt is s/p BEAM Auto SCT, day 10. Engraftment
   slower than expected but pt is engrafting per BMT.
   -now with ANC > 1000, can d/c filgrastim.
   -Given solumedrol 60 mg IV x 1 per BMT recs for antiinflammatory effect
   now that pt is engrafting.  Will further re-dose today based on BMT
   recs.
   6) Mucositis: [**3-4**] chemotherapeutic regimen.
   -Continue caphasol, nystatin, gelclair
   7) Electrolyes:
   -Potassium Phosphate Replacement (Oncology)  IV Sliding Scale
   ICU Care
   Nutrition: TPN, currently held for volume overload
   Glycemic Control:  FS Q2H
   Lines:
   Tunneled (Hickman) Line - [**2155-4-10**] 08:00 PM
   Arterial Line - [**2155-4-11**] 03:53 AM
   Prophylaxis:
   DVT: Pneumoboots, hold SQH for coagulopathy
   Stress ulcer: PPI
   Communication: Wife [**Name (NI) 1542**], cell [**0-0-**], home [**Telephone/Fax (1) 11911**]
   Code status: FULL
 Pt has living will that specifies DNR/DNI, but per
   discussion b/n pt
s wife and onc attending Dr. [**Name (NI) 3784**], pt is now full
   code (living will allows patient
s HCP to over-ride a decision) ; per
   discussion b/n Dr. [**First Name (STitle) **] and pt
s oncologist  Dr. [**First Name (STitle) 2355**], it is
   understood that SCT pts are full code
   Disposition: No current dispo plans at present

2155-04-12 09:43:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Hepatic Failure
   BMT--c/b VOD
   Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -_Patient with levophed started in the setting of modest hypotension
   -GCV discontinued
   -Worsening renal failure seen across past 24 hours
   -Worsening lactic acidosis seen
   -Dialysis catheter placed this morning
   History obtained from Patient
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Gancyclovir - [**2155-4-11**] 10:40 AM
   Micafungin - [**2155-4-11**] 11:00 PM
   Cefipime - [**2155-4-12**] 06:00 AM
   Vancomycin - [**2155-4-12**] 07:35 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Propofol - 20 mcg/Kg/min
   Norepinephrine - 0.18 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever, 99.6
   Nutritional Support: NPO
   Flowsheet Data as of  [**2155-4-12**] 09:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36
C (96.8
   HR: 78 (78 - 126) bpm
   BP: 131/69(88) {85/57(66) - 153/77(100)} mmHg
   RR: 15 (15 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Bladder pressure: 20 (10 - 20) mmHg
   Total In:
                                                                  4,583 mL
                                                                  1,000 mL
   PO:
   TF:
   IVF:
                                                                  2,016 mL
                                                                  1,000 mL
   Blood products:
                                                                  2,567 mL
   Total out:
                                                                    925 mL
                                                                    295 mL
   Urine:
                                                                    575 mL
                                                                     95 mL
   NG:
                                                                    350 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  3,658 mL
                                                                    705 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   Plateau: 17 cmH2O
   SpO2: 95%
   ABG: 7.33/29/86/15/-9
   Ve: 10.8 L/min
   PaO2 / FiO2: 172
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: mucosal hemorrhages
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.8 g/dL
   56 K/uL
   135 mg/dL
   2.7 mg/dL
   15 mEq/L
   4.7 mEq/L
   60 mg/dL
   107 mEq/L
   142 mEq/L
   37.2 %
   7.9 K/uL
        [image002.jpg]
                             [**2155-4-11**]  11:30 AM
                             [**2155-4-11**]  03:46 PM
                             [**2155-4-11**]  05:18 PM
                             [**2155-4-11**]  05:44 PM
                             [**2155-4-11**]  09:52 PM
                             [**2155-4-11**]  10:07 PM
                             [**2155-4-11**]  11:57 PM
                             [**2155-4-12**]  01:10 AM
                             [**2155-4-12**]  03:03 AM
                             [**2155-4-12**]  03:35 AM
   WBC
   1.0
   7.9
   Hct
   30.9
   31.1
   37.2
   Plt
   26
   42
   37
   58
   56
   Cr
   2.1
   2.4
   2.7
   TCO2
   19
   19
   18
   16
   16
   Glucose
   86
   123
   135
   Other labs: PT / PTT / INR:19.4/39.0/1.8, ALT / AST:1044/1461, Alk Phos
   / T Bili:170/10.0, Differential-Neuts:56.0 %, Band:2.0 %, Lymph:6.0 %,
   Mono:24.0 %, Eos:0.0 %, Fibrinogen:647 mg/dL, Lactic Acid:5.6 mmol/L,
   Albumin:3.6 g/dL, LDH:1466 IU/L, Ca++:9.0 mg/dL, Mg++:2.2 mg/dL,
   PO4:4.5 mg/dL
   Fluid analysis / Other labs: AG-20
   Imaging: Renal Ultrasound--no obstruction
   CXR--Low lung volumes and LLL/ retrocardiac opacity improved from
   yesterday,
   Head CT--no ICH
   Microbiology: C. Diff--neg x3
   Urine Culture-NGTD
   BC-Pending
   Assessment and Plan
   Patient with follicular lymphoma now 10 days s/p AutoBMT and now
   admitted to ICU with respiratory failure and fulminant hepatic failure
   possibly secondary to VOD. He has had evolution of substantial
   worsening of renal failure now with requirement for dialysis.  At this
   time he appears to be moving towards engraftment with return of WBC
   count.
   1) RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])-
   -Fentanyl
   -Will maintain A/C support at current levels given continued reasonable
   compliance
   -We have a good response to increase in PEEP with oxygenation and lung
   volumes looking to have improved as PEEP has been increased
   -Will need to continue to maintain treatment goals around being able to
   maintain adequate oxygention and effective ventilation .
   -Will increase PEEP further should bladder pressure and abdominal
   distention increase further
   2) RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)-Working diagnosis is
   ATN for source of renal failure
   -Dialysis catheter placed this morning
   -Remains anuric
   -Will move to CVVH with attempt at fluid removal as well as renal
   replacement therapy
   3) HEPATIC ENCEPHALOPATHY/HEPATIC FAILURE with VOD
   -Lactulose
   -Ursadiol
   -Defibritide to continue further as per protocol and based upon
   parameters such as PLT count
   -GI/Hepatology consultations in place to continue to evaluate response
   -Amonia has been normal
   -Follow bladder pressure and will have to consider tap if we see
   further compromise in the setting of worsening ascites.
   4) LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)---s/p BMT
   -on GCSF and likely discontinue with BMT in agreement
   -Nystatin
   5) SEPSIS--patient with findings concerning for significant fever and
   recent neutropenia now with intermittent fevers and persistent
   hypotension requiring pressor support.  This has been in part to
   maintain adequate BP in the setting of VOD and to assure cerebral
   perfusion.  To date culture results have been negative.
   -Micafungin
   -Vanco/Cefepime
   -Levophed gtt
   ICU Care
   Nutrition: Tube Feeds
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2155-4-10**] 08:00 PM
   Arterial Line - [**2155-4-11**] 03:53 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 75 minutes

2155-04-13 08:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt started on CVVH.
   - HD cath was placed and started CVVH, slow and with PRN mannitol to
   maintain ICP
   - all meds dosed for HD
   - plts were 41, got 1 unit
   - dc'd all abx's-> Per BMT and Liver is ok with it (ID is in for a
   surprise tomorrow)
   - liver U/S showed no flow within the portal veins; moderate-to-large
   ascites, increased from US on [**4-8**]/
   - OSMS 320
   - phos 6.0 this am and going up, need to follow
   - ETT was advanced and is now 4.5 cm above carina
   -
   - Hep seros-> HBsAb (+), HAV Ab (+), HCV (-)
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Gancyclovir - [**2155-4-11**] 10:40 AM
   Micafungin - [**2155-4-11**] 11:00 PM
   Cefipime - [**2155-4-12**] 06:00 AM
   Vancomycin - [**2155-4-12**] 07:35 AM
   Acyclovir - [**2155-4-13**] 04:30 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   KCl (CRRT) - 1 mEq./hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Fentanyl - 50 mcg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-4-13**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 76 (62 - 94) bpm
   BP: 117/65(79) {89/60(69) - 157/80(105)} mmHg
   RR: 12 (12 - 18) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
    Bladder pressure: 27 (20 - 27) mmHg
   Total In:
                                                                  4,180 mL
                                                                    779 mL
   PO:
   TF:
   IVF:
                                                                  3,289 mL
                                                                    779 mL
   Blood products:
                                                                    801 mL
   Total out:
                                                                  3,343 mL
                                                                  1,150 mL
   Urine:
                                                                    192 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                    837 mL
                                                                   -371 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 94%
   ABG: 7.37/38/86.[**Numeric Identifier 253**]/22/-2
   Ve: 10.6 L/min
   PaO2 / FiO2: 174
   Physical Examination
   Labs / Radiology
   53 K/uL
   10.5 g/dL
   161 mg/dL
   3.2 mg/dL
   22 mEq/L
   3.7 mEq/L
   57 mg/dL
   101 mEq/L
   141 mEq/L
   30.1 %
   7.9 K/uL
        [image002.jpg]
                             [**2155-4-12**]  03:35 AM
                             [**2155-4-12**]  11:34 AM
                             [**2155-4-12**]  11:35 AM
                             [**2155-4-12**]  11:52 AM
                             [**2155-4-12**]  06:02 PM
                             [**2155-4-12**]  06:29 PM
                             [**2155-4-12**]  11:29 PM
                             [**2155-4-12**]  11:57 PM
                             [**2155-4-13**]  06:18 AM
                             [**2155-4-13**]  06:29 AM
   Hct
   32.7
   30.1
   Plt
   41
   65
   34
   53
   Cr
   3.3
   3.1
   3.0
   3.2
   TCO2
   16
   15
   18
   20
   23
   Glucose
   175
   198
   181
   161
   Other labs: PT / PTT / INR:20.0/34.1/1.8, ALT / AST:1341/2472, Alk Phos
   / T Bili:165/8.1, Differential-Neuts:56.0 %, Band:2.0 %, Lymph:6.0 %,
   Mono:24.0 %, Eos:0.0 %, Fibrinogen:480 mg/dL, Lactic Acid:3.7 mmol/L,
   Albumin:3.6 g/dL, LDH:1466 IU/L, Ca++:9.3 mg/dL, Mg++:1.9 mg/dL,
   PO4:4.0 mg/dL
   ABG (6:30am): 7.37/38/87/23/-2
   Assessment and Plan
   56yM with refractory follicular lymphoma, day 11 s/p BEAM Auto [**Hospital 11923**]
   transferred from BMT floor with fulminant hepatic failure [**3-4**]
   [**Last Name (un) 3140**]-occlusive disease, now with acute renal failure on CVVH.
   1) Acute Renal Failure: Cr 3.2, stable from yesterday. UOP 10-20cc/hr
   last night, down from approx 100cc/hr on admission. Etiology is ATN vs
   Hepatorenal syndrome. Renal US negative for obstruction. Per renal,
   granular casts in urine sediment suggest ATN, likely [**3-4**]
   infection/hypotension. Hepatorenal may also be a contributing factor.
   Acid/Base disturbance appears to be a metabolic acidosis w/ respiratory
   compensation, likely [**3-4**] chemotherapy-induced distal RTA vs impaired
   ammonia generation in early renal failure. Dialysis not currently
   indicated but need may arise over the weekend if uremia develops or pt
   becomes oliguric. Renal is following and aware.
   -Continue CVVH
   -Trend BUN/Cr
   -Renal US to r/o obstruction negative.
   -Renally dose meds
   -Patient will likely need CVVH.
   2) Hypoxic Respiratory Failure: Pt intubated on [**4-10**] for increased O2
   requirements, low lung volumes on CXR [**3-4**] ascites, and serial ABGs
   demonstrating respiratory fatigue. Etiology of hypoxia is most likely
   severe atelectasis [**3-4**] ascites, leading to shunt physiology. Possible
   component of pulmonary edema [**3-4**] volume overload, though pt has no
   evidence of LV dysfunction on Echo. ?PNA on CXR. PE also a remote
   possibility, given tachycardia, tachypnea, and hypoxia in setting of
   malignancy and coagulopathy, though pt has some "natural"
   anticoagulation on board from his disease process, as well as the
   defibrotide, and regardless, there are no therapeutic options for PE in
   this patient at this time. Overnight, uptitrated PEEP from 10 to 15
   and FiO2 from 40 to 50 for PaO2 of 75-83, now improved at 86.
   -Re-check ABG later today.
   3) Fulminant Hepatic Failure: Pt presenting w/ encephalopathy,
   coagulopathy, and massive ascites. Most likely explanation is severe
   VOD [**3-4**] auto-SCT. Given hx of EtOH intake, pt may have underlying
   cirrhosis, not apparent on pre-SCT labs, which predisposed him to VOD.
   Less likely etiology for the liver failure is acute viral hepatitis; pt
   at risk [**3-4**] immunosuppression. Clinically, pt is worse this AM with an
   increased TBili from 5.2
 10. The blood products required for
   correction of the coagulopathy present a significant volume challenge.
   Cardiac function is normal by ECHO, but even a normal heart is unlikely
   to be able to compensate for the combination of portal hypertension,
   third spacing/interstitial edema, and diminished renal function.
   Prognosis is extremely poor. Hepatology, renal, and ID following.
   (a.) Hepatic Failure
   -Defibrotide (560 mg IV Q6H) per protocol for VOD
        -Plt>30
        -Hct>30
        -INR<1.5
        -Fibrinogen>150
   -Q6H plts
   -[**Hospital1 **] labs
   -Q2H FS to monitor for derangements in glucose metabolism
   -f/u GI recs
   -Monitor Is/Os
   (b.) Coagulopathy: [**3-4**] liver failure + cytotoxic chemotherapy +
   debifrotide side effects.
   -Continue to correct derangements with blood products (FFP, Plts, PRBC)
   per Defibrotide protocol
   -Can likely d/c Filgrastim today as ANC 4790.
    (c.) Ascites: Tense, massive ascites that has worsened progressively
   over course of ICU stay with infusions of meds and blood products. Pt
   likely has several liters of fluid in his belly. Concern is for
   abdominal compartment syndrome and hepatorenal syndrome.
   -Continue to monitor UOP (btwn 10-20 cc/hr)  and bladder pressure (~20)
   -Have been holding paracentesis for infection risk, bleeding risk,
   concern for fluid shifts (per BMT and Dr. [**Last Name (STitle) 356**], however now with pt
   no longer being neutropenic, may consider tap especially if bladder
   pressures increase and UOP continues to fall.
   4.) Febrile Neutropenia: Pt persistently febrile and tachycardic
   intially with ANC of 0 on vancomycin, cefepime, micofungin. No
   identifiable infectious source. Concern for SBP, per GI. Concern for
   bacterial translocation [**3-4**] mucositis. Urine cx negative. C diff
   negative. Blood cx NGTD. ID following.
   -Continue broad spectrum antimicrobials
   -Hold tylenol, for liver failure
   -Avoid all non-essential non-sterile procedures
   -f/u ID recs
   5) Follicular Lymphoma: Pt is s/p BEAM Auto SCT, day 111. Pt is
   engrafting per BMT. ANC>1000, Filigrastim stopped. Pt
   -now with ANC > 1000, can d/c filgrastim.
   -Given solumedrol 60 mg IV x 1 per BMT recs for antiinflammatory effect
   now that pt is engrafting.  Will further re-dose today based on BMT
   recs.
   6) Mucositis: [**3-4**] chemotherapeutic regimen.
   -Continue caphasol, nystatin, gelclair
   7) Electrolyes:
   -Potassium Phosphate Replacement (Oncology)  IV Sliding Scale
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2155-4-11**] 03:53 AM
   Dialysis Catheter - [**2155-4-12**] 09:36 AM
   Multi Lumen - [**2155-4-12**] 07:00 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2155-04-13 11:25:00 Physician Attending Progress Note
Chief Complaint: Hepatic Failure
   S/P BMT
   Lymphoma
   Renal Failure
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2155-4-12**] 09:36 AM
 TUNNELED (HICKMAN) LINE - STOP [**2155-4-12**] 07:00 PM
 MULTI LUMEN - START [**2155-4-12**] 07:00 PM
 ULTRASOUND - At [**2155-4-12**] 07:30 PM
   abd/liver US
very difficult study
hepatic system with flow but portal
   vein not able to be visualized.
   ABX D/C'd yesterday with culture negative and ANC count recovered.
   CVVH started yesterday
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Gancyclovir - [**2155-4-11**] 10:40 AM
   Micafungin - [**2155-4-11**] 11:00 PM
   Cefipime - [**2155-4-12**] 06:00 AM
   Vancomycin - [**2155-4-12**] 07:35 AM
   Acyclovir - [**2155-4-13**] 04:30 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Fentanyl - 50 mcg/hour
   Propofol - 20 mcg/Kg/min
   KCl (CRRT) - 1 mEq./hour
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-4-13**] 11:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.1
C (97
   Tcurrent: 35.9
C (96.7
   HR: 71 (62 - 94) bpm
   BP: 132/71(89) {89/60(69) - 157/80(105)} mmHg
   RR: 16 (12 - 20) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Bladder pressure: 16 (16 - 27) mmHg
   Total In:
                                                                  6,160 mL
                                                                  3,576 mL
   PO:
   TF:
   IVF:
                                                                  5,269 mL
                                                                  3,307 mL
   Blood products:
                                                                    801 mL
                                                                    269 mL
   Total out:
                                                                  3,343 mL
                                                                  1,778 mL
   Urine:
                                                                    192 mL
                                                                     10 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  2,817 mL
                                                                  1,798 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   SpO2: 94%
   ABG: 7.37/38/86.[**Numeric Identifier 253**]/22/-2
   Ve: 7.5 L/min
   PaO2 / FiO2: 174
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Bladder Pressure==15, bowel sounds present
   Extremities: Right lower extremity edema: 4+, Left lower extremity
   edema: 4+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.5 g/dL
   53 K/uL
   161 mg/dL
   3.2 mg/dL
   22 mEq/L
   3.7 mEq/L
   57 mg/dL
   101 mEq/L
   141 mEq/L
   30.1 %
   9.8 K/uL
        [image002.jpg]
                             [**2155-4-12**]  03:35 AM
                             [**2155-4-12**]  11:34 AM
                             [**2155-4-12**]  11:35 AM
                             [**2155-4-12**]  11:52 AM
                             [**2155-4-12**]  06:02 PM
                             [**2155-4-12**]  06:29 PM
                             [**2155-4-12**]  11:29 PM
                             [**2155-4-12**]  11:57 PM
                             [**2155-4-13**]  06:18 AM
                             [**2155-4-13**]  06:29 AM
   WBC
   9.8
   Hct
   32.7
   30.1
   Plt
   41
   65
   34
   53
   Cr
   3.3
   3.1
   3.0
   3.2
   TCO2
   16
   15
   18
   20
   23
   Glucose
   175
   198
   181
   161
   Other labs: PT / PTT / INR:20.0/34.1/1.8, ALT / AST:1270/1836, Alk Phos
   / T Bili:165/8.1, Differential-Neuts:72.0 %, Band:9.0 %, Lymph:6.0 %,
   Mono:11.0 %, Eos:0.0 %, Fibrinogen:480 mg/dL, Lactic Acid:3.7 mmol/L,
   Albumin:3.6 g/dL, LDH:1266 IU/L, Ca++:9.3 mg/dL, Mg++:1.9 mg/dL,
   PO4:4.0 mg/dL
   Imaging: CXR--Improved lung volumes, persistence of RLL opacities but
   with modest decrease in size.
   Assessment and Plan
   56 yo male on day 11 following auto-BMT for lyphoma now complicated by
   VOD.  He has had CVVH started yesterday.  He also had antibiotics
   discontinued with evidence of resolution of acute infection.
   1) RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])-_This is in large part due
   to restriction from abdominal compartment which may be improving.
   Barriers to extubation are volume overload, abdominal pressures and
   mental status.
   -Propofol/Fentanyl for sedation
   -PEEP adequate and will need to continue with full support while we
   look to support hepatic and renal failure.
   -We have primary limitation of mental status as barrier to extubation
   -Will monitor abdominal exam and abdominal pressures
   -Trial decrease in FIO2 to 0.40
   2) RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)-Secondary to ATN
   -CVVH to continue
   -I/O to remain even
   -Bladder pressure acceptable
   -Will move to negative fluid balance today at 100cc/hr if MAP >80 off
   of levophed
   3) HEPATIC ENCEPHALOPATHY
We do have a concern for worsening CNS status
   in the setting of persistent altered mental status will have to monitor
   for cerebral edema.
   -Levophed gtt
   -Follow OSMS with q 6 hours labs and OSMS are at 320 today
   -Will restart lactulose to look to aid in improvement in mental status.
   --Lactulose/Ursadiol
   -Continue protocol for VOD with defibrotide
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)/TRANSPLANT, BONE
   MARROW (BMT)
   -Acyclovir to continue
   -Appreciate support of BMT team
   ICU Care
   Nutrition: Will need to establish effective nutrition support
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2155-4-11**] 03:53 AM
   Dialysis Catheter - [**2155-4-12**] 09:36 AM
   Multi Lumen - [**2155-4-12**] 07:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2155-04-14 07:26:00 Physician Resident Progress Note
Chief Complaint: Acute Liver Failure
   24 Hour Events:
   No acute events overnight.
   1.2L removed via CVVH since midnight.
   Norepinephrine weaned to 0.02mcg/kg/min but increased to 0.08mcg/kg/min
   in the setting of hypotension (MAP<65).
   FiO2 lowered to 40%, resulting in PaO2 of 74 --> FiO2 increased back to
   50%.
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Gancyclovir - [**2155-4-11**] 10:40 AM
   Micafungin - [**2155-4-11**] 11:00 PM
   Cefipime - [**2155-4-12**] 06:00 AM
   Vancomycin - [**2155-4-12**] 07:35 AM
   Acyclovir - [**2155-4-13**] 04:30 AM
   Infusions:
   Fentanyl - 35 mcg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Propofol - 10 mcg/Kg/min
   KCl (CRRT) - 3 mEq./hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-4-14**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.1
C (97
   HR: 84 (70 - 89) bpm
   BP: 128/78(93) {81/56(63) - 136/78(97)} mmHg
   RR: 15 (13 - 20) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
    Bladder pressure: 16 (12 - 16) mmHg
   Total In:
                                                                  8,903 mL
                                                                  1,618 mL
   PO:
   TF:
                                                                     40 mL
                                                                    133 mL
   IVF:
                                                                  7,421 mL
                                                                  1,315 mL
   Blood products:
                                                                  1,382 mL
   Total out:
                                                                  8,593 mL
                                                                  3,011 mL
   Urine:
                                                                     38 mL
                                                                     12 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    310 mL
                                                                 -1,393 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   Compliance: 100 cmH2O/mL
   SpO2: 93%
   ABG: 7.44/41/80.[**Numeric Identifier 20**]/26/3
   Ve: 8.2 L/min
   PaO2 / FiO2: 160
   Physical Examination
   General: Intubated, sedated, jaundiced
   HEENT: PERRLA 2mm
1mm; sclerae icteric
   Neck: Tunneled CVL on R
   Lungs: +Ronchorous breath sounds anteriorly, upper>lower lung fields,
   w/o wheezes
   CV: RRR nl S1, S2, no murmurs
   Abdomen: Tense and distended (>yesterday); scant, distant BS
   GU: +scrotal edema; foley
   Ext: Warm, well-perfused; DPs 2+ on L, 1+ on R; +pitting edema to
   thighs
   Labs / Radiology
   50 K/uL
   12.5 g/dL
   199 mg/dL
   3.4 mg/dL
   26 mEq/L
   3.3 mEq/L
   52 mg/dL
   95 mEq/L
   139 mEq/L
   35.5 %
   18.2 K/uL
        [image002.jpg]
                             [**2155-4-13**]  06:29 AM
                             [**2155-4-13**]  11:54 AM
                             [**2155-4-13**]  12:32 PM
                             [**2155-4-13**]  06:15 PM
                             [**2155-4-13**]  06:42 PM
                             [**2155-4-13**]  11:43 PM
                             [**2155-4-13**]  11:47 PM
                             [**2155-4-13**]  11:54 PM
                             [**2155-4-14**]  05:25 AM
                             [**2155-4-14**]  05:31 AM
   WBC
   11.5
   12.5
   15.9
   18.2
   Hct
   29.9
   29.8
   31.7
   35.5
   Plt
   40
   33
   66
   50
   Cr
   3.3
   3.4
   TCO2
   23
   27
   27
   27
   29
   Glucose
   180
   186
   199
   Other labs: PT / PTT / INR:16.6/31.6/1.5, ALT / AST:961/751, Alk Phos /
   T Bili:204/9.2, Differential-Neuts:83.0 %, Band:3.0 %, Lymph:4.0 %,
   Mono:3.0 %, Eos:0.0 %, Fibrinogen:545 mg/dL, Lactic Acid:2.9 mmol/L,
   Albumin:3.6 g/dL, LDH:793 IU/L, Ca++:10.9 mg/dL, Mg++:1.8 mg/dL,
   PO4:4.3 mg/dL
   CXR [**2155-4-14**]:
   Assessment and Plan
   56yM with refractory follicular lymphoma, day 12 s/p BEAM Auto [**Hospital 11923**]
   transferred to [**Hospital Unit Name 4**] from BMT with fulminant hepatic failure [**3-4**]
   [**Last Name (un) 3140**]-occlusive disease, also with acute renal failure on CVVH.
    1) Acute Renal Failure: Pt started on CVVH [**2155-4-12**] for worsening
   metabolic acidosis and worsening renal function. Pt is no longer
   acidotic. Anuric overnight again. Cr trending up. Etiology is ischemic
   ATN (urine sediment w/ muddy brown casts). Possible component of HRS.
   Renal US negative for obstruction. Renal is following.
   -Continue CVVH with net filtration goal of 0
   -Trend lytes, BUN/Cr, Is/Os
   -Fundoscopic exam, Q1H pupil checks to assess for rising ICP; mannitol
   at bedside for PRN use
   -Dose meds for CVVH
   2) Hypoxic Respiratory Failure: Pt intubated [**4-10**] for worsening hypoxia
   and respiratory fatigue. Overall stable this AM. Lung volumes improved
   on CXR. PEEP at 15 and FiO2 at 50% with PaO2 87 on ABG. Pt remains
   intubated for a) restrictive physiology [**3-4**] increased intra-abdominal
   pressure [**3-4**] ascites (improved today), b) mental status changes [**3-4**]
   encephalopathy, c) concern for volume overload.  No concern for primary
   pulmonary process.
   -Hold paracentesis, pending improvement in other parameters keeping
   patient on vent
   3) Fulminant Hepatic Failure: Etiology is severe VOD [**3-4**] SCT. Possible
   underlying cirrhosis [**3-4**] EtOH history. Viral hepatitis unlikely, given
   negative labs to date. Pt presented w/ encephalopathy, massive ascites,
   coagulopathy, elevated LFTs. Initial abd US and MRI
 reversal of flow
   through portal vein. Repeat abd US [**4-12**]
 no flow through portal vein,
   increased ascites. Pt clinically stable. LFTs significantly improved
   today, with the exception of a small rise in TBili. Prognosis remains
   extremely poor. Hepatology, Renal, and ID following.
    (a.) VOD
   -Defibrotide (560 mg IV Q6H) per protocol for VOD (targets for admin:
   Plt>30, Hct>30, INR<1.5, Fibrinogen>150)
   -Q6H labs, as necessary, to monitor defibrotide parameters
   (b.) Coagulopathy: [**3-4**] liver failure + cytotoxic chemotherapy +
   debifrotide side effects.
   -Continue to correct derangements with blood products (FFP, Plts, PRBC)
   per Defibrotide protocol
    (c.) Ascites: Stable-to-worse this morning. Bladder pressure <20mmHg
   yesterday but 24mmHg this morning. Concern is still for abdominal
   compartment syndrome. Have been holding paracentesis for infection
   risk, bleeding risk, concern for fluid shifts.
   -Continue to monitor bladder pressure
   -Paracentesis for persistently elevated (>20) or rising bladder
   pressures
   -Perform tap 2 hrs after defibrotide dose, per BMT
   (d) Encephalopathy: [**3-4**] hepatic failure +/- uremia.
   -Lactulose 30 mL PO/NG QID
   -Q4H FS to monitor for derangements in glucose metabolism
   4) Shock: Improved. Etiology is hypoperfusion [**3-4**] hypotension and
   decreased effective circulating volume in setting of liver failure.
   Norepinephrine started [**4-11**] o maintain MAP>65. Unable to wean pressor
   completely over last 24 hours. Volume removal, sedation, and high PEEP
   all contribute to lower MAP. Lactate trending down, 2.9 last night.
   -Down-titrate norepinephrine w/ MAP
   5) Febrile Neutropenia: Resolved. Pt afebrile with ANC > 10,000. Cx
   negative to date. Abx stopped. ID following.
   -Acyclovir ppx (dose for CVVH)
   -f/u culture data
   6) Follicular Lymphoma: Pt is s/p BEAM Auto SCT, day 11. Pt is
   engrafting per BMT. Received IV solumedrol x1 for anti-inflammatory
   effect. Filigrastim stopped [**4-12**] for ANC>1000. BMT following.
   7) FEN: Pt recovering gut function. +BS, stool this AM.
   -Resume PO meds
   -CVVH for electrolyte regulation
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2155-4-13**] 08:00 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2155-4-11**] 03:53 AM
   Dialysis Catheter - [**2155-4-12**] 09:36 AM
   Multi Lumen - [**2155-4-12**] 07:00 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   VAP:  Bed @ 30-degree angle
   Communication:  Wife [**Name (NI) 1542**]
   [**Name (NI) 156**] status: Full
   Disposition: No immediate plans for disposition from [**Hospital Unit Name 4**]

2155-04-14 10:24:00 Physician Attending Progress Note
Chief Complaint: Hepatic Failure-_VOD
   Renal Failure
   Respiratory Failure
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
   --Patient with CVVH maintained--maintains anuric state
   -Patient with continued ventilator support
   -Patient with sedation weaned
   -WBC count has risen to 18 from 11 in past 24 hours
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Gancyclovir - [**2155-4-11**] 10:40 AM
   Micafungin - [**2155-4-11**] 11:00 PM
   Cefipime - [**2155-4-12**] 06:00 AM
   Vancomycin - [**2155-4-12**] 07:35 AM
   Acyclovir - [**2155-4-13**] 04:30 AM
   Infusions:
   Fentanyl - 35 mcg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-4-14**] 10:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 92 (70 - 94) bpm
   BP: 118/76(89) {81/56(63) - 136/78(97)} mmHg
   RR: 15 (13 - 21) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107 kg (admission): 98.2 kg
   Bladder pressure: 24 (12 - 24) mmHg
   Total In:
                                                                  8,904 mL
                                                                  3,283 mL
   PO:
   TF:
                                                                     40 mL
                                                                    158 mL
   IVF:
                                                                  7,422 mL
                                                                  2,825 mL
   Blood products:
                                                                  1,382 mL
   Total out:
                                                                  8,593 mL
                                                                  3,597 mL
   Urine:
                                                                     38 mL
                                                                     12 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    311 mL
                                                                   -314 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   Plateau: 20 cmH2O
   Compliance: 100 cmH2O/mL
   SpO2: 94%
   ABG: 7.44/41/80.[**Numeric Identifier 20**]/26/3
   Ve: 8.3 L/min
   PaO2 / FiO2: 160
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Bowel sounds present, Distended, Tender: increased
   distention and tension with a decrease in bowel sounds
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
Patient minimally responsive to all components of
   the exam
   Labs / Radiology
   12.5 g/dL
   50 K/uL
   199 mg/dL
   3.4 mg/dL
   26 mEq/L
   3.3 mEq/L
   52 mg/dL
   95 mEq/L
   139 mEq/L
   35.5 %
   18.2 K/uL
        [image002.jpg]
                             [**2155-4-13**]  06:29 AM
                             [**2155-4-13**]  11:54 AM
                             [**2155-4-13**]  12:32 PM
                             [**2155-4-13**]  06:15 PM
                             [**2155-4-13**]  06:42 PM
                             [**2155-4-13**]  11:43 PM
                             [**2155-4-13**]  11:47 PM
                             [**2155-4-13**]  11:54 PM
                             [**2155-4-14**]  05:25 AM
                             [**2155-4-14**]  05:31 AM
   WBC
   11.5
   12.5
   15.9
   18.2
   Hct
   29.9
   29.8
   31.7
   35.5
   Plt
   40
   33
   66
   50
   Cr
   3.3
   3.4
   TCO2
   23
   27
   27
   27
   29
   Glucose
   180
   186
   199
   Other labs: PT / PTT / INR:16.6/31.6/1.5, ALT / AST:961/751, Alk Phos /
   T Bili:204/9.2, Differential-Neuts:83.0 %, Band:3.0 %, Lymph:4.0 %,
   Mono:3.0 %, Eos:0.0 %, Fibrinogen:545 mg/dL, Lactic Acid:2.9 mmol/L,
   Albumin:3.6 g/dL, LDH:793 IU/L, Ca++:10.9 mg/dL, Mg++:1.8 mg/dL,
   PO4:4.3 mg/dL
   Fluid analysis / Other labs: AG-18
   Imaging: CXR-patient with unchanged CXR through to this morning with
   small areas of dependent infiltrates
   Assessment and Plan
   56 yo male with lymphoma now s/p BMT and with persistent VOD/hepatic
   failure and with renal failure and respiratory failure persisting.
   1) RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])-
   -PaO2 maintained wtih relatively high PEEP
   -Will continue with current A/C settings
   2) RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   -Continue with CVVH and will maintain stable I/O balance and continue
   to maintain small clearance of solute
   -With ATN do hope for some return of urine flow and renal function
   3) HEPATIC FAILURE/[**Last Name (un) **]-occlusive disease-
   -Defibrotide continuing but patient has very limited evidence of
   improvement with worsening of abdominal distention and persistent
   encephalopathy with LFT's remaining similarly elevated.
   -Lactulose not tolerated
   -NE 0.06 with continued taper
   -Sedation turned off to look to examine patient as best we can today
   -Paracentesis if patient showing signs of worsening abdominal
   distention to the point of impairing ventilation.
   -Will wean sedation to look at capacity to follow patient
   4) LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)/TRANSPLANT, BONE
   MARROW (BMT)
   -WBC count clearly returned
   ICU Care
   Nutrition: Tube Feeds held with decreased bowel sounds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2155-4-11**] 03:53 AM
   Dialysis Catheter - [**2155-4-12**] 09:36 AM
   Multi Lumen - [**2155-4-12**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2155-04-14 11:19:00 Physician Resident Progress Note
Chief Complaint: Acute Liver Failure
   24 Hour Events:
   No acute events overnight.
   1.4L removed via CVVH since midnight to compensate for positive fluid
   balance the previous night.
   Norepinephrine weaned to 0.02mcg/kg/min but increased to 0.08mcg/kg/min
   at 5am in the setting of transient hypotension (MAP<65). Norepinephrine
   now being weaned again.
   Tube feeds
 250cc residuals. Pt passed liquid green stool yesterday.
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Gancyclovir - [**2155-4-11**] 10:40 AM
   Micafungin - [**2155-4-11**] 11:00 PM
   Cefipime - [**2155-4-12**] 06:00 AM
   Vancomycin - [**2155-4-12**] 07:35 AM
   Acyclovir - [**2155-4-13**] 04:30 AM
   Infusions:
   Fentanyl - 35 mcg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Propofol - 10 mcg/Kg/min
   KCl (CRRT) - 3 mEq./hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-4-14**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.1
C (97
   HR: 84 (70 - 89) bpm
   BP: 128/78(93) {81/56(63) - 136/78(97)} mmHg
   RR: 15 (13 - 20) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
    Bladder pressure: 16 (12 - 16) mmHg
   7am: 24mmHg
   10am: 20mmHg
   Total In:
                                                                  8,903 mL
                                                                  1,618 mL
   PO:
   TF:
                                                                     40 mL
                                                                    133 mL
   IVF:
                                                                  7,421 mL
                                                                  1,315 mL
   Blood products:
                                                                  1,382 mL
   Total out:
                                                                  8,593 mL
                                                                  3,011 mL
   Urine:
                                                                     38 mL
                                                                     12 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    310 mL
                                                                 -1,393 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   Compliance: 100 cmH2O/mL
   SpO2: 93%
   ABG: 7.44/41/80.[**Numeric Identifier 20**]/26/3
   Ve: 8.2 L/min
   PaO2 / FiO2: 160
   Physical Examination
   General: Intubated, sedated, jaundiced
   HEENT: PERRLA 2mm
1mm; sclerae icteric
   Neck: Tunneled CVL on R
   Lungs: +Ronchorous breath sounds anteriorly, upper>lower lung fields,
   w/o wheezes
   CV: RRR nl S1, S2, no murmurs
   Abdomen: Tense and distended (>yesterday); scant, distant BS
   GU: +scrotal edema; foley
   Ext: Warm, well-perfused; DPs 2+ on L, 1+ on R; +pitting edema to
   thighs
   Labs / Radiology
   50 K/uL
   12.5 g/dL
   199 mg/dL
   3.4 mg/dL
   26 mEq/L
   3.3 mEq/L
   52 mg/dL
   95 mEq/L
   139 mEq/L
   35.5 %
   18.2 K/uL
        [image002.jpg]
                             [**2155-4-13**]  06:29 AM
                             [**2155-4-13**]  11:54 AM
                             [**2155-4-13**]  12:32 PM
                             [**2155-4-13**]  06:15 PM
                             [**2155-4-13**]  06:42 PM
                             [**2155-4-13**]  11:43 PM
                             [**2155-4-13**]  11:47 PM
                             [**2155-4-13**]  11:54 PM
                             [**2155-4-14**]  05:25 AM
                             [**2155-4-14**]  05:31 AM
   WBC
   11.5
   12.5
   15.9
   18.2
   Hct
   29.9
   29.8
   31.7
   35.5
   Plt
   40
   33
   66
   50
   Cr
   3.3
   3.4
   TCO2
   23
   27
   27
   27
   29
   Glucose
   180
   186
   199
   Other labs: PT / PTT / INR:16.6/31.6/1.5, ALT / AST:961/751, Alk Phos /
   T Bili:204/9.2, Differential-Neuts:83.0 %, Band:3.0 %, Lymph:4.0 %,
   Mono:3.0 %, Eos:0.0 %, Fibrinogen:545 mg/dL, Lactic Acid:2.9 mmol/L,
   Albumin:3.6 g/dL, LDH:793 IU/L, Ca++:10.9 mg/dL, Mg++:1.8 mg/dL,
   PO4:4.3 mg/dL
   CXR [**2155-4-14**]:
   No interval change from [**2155-4-13**].
   Assessment and Plan
   56yM with refractory follicular lymphoma, day 12 s/p BEAM Auto [**Hospital 11923**]
   transferred to [**Hospital Unit Name 4**] from BMT with fulminant hepatic failure [**3-4**]
   [**Last Name (un) 3140**]-occlusive disease, also with acute renal failure on CVVH.
    1) Acute Renal Failure: Pt started on CVVH [**2155-4-12**] for worsening
   metabolic acidosis and worsening renal function. Acidemia resolved, but
   Cr trending up, possibly [**3-4**] aggressive volume removal overnight. Pt is
   severely oliguric. Etiology of kidney injury is ischemic ATN (urine
   sediment w/ muddy brown casts). Possible component of HRS. Renal US
   negative for obstruction. Renal is following.
   -Continue CVVH with net filtration goal of 0
   -Trend lytes, BUN/Cr, Is/Os
   -Hold propofol to evaluate mental status, assess for increased ICP
   -Q1H pupil checks to r/o herniation
   -Mannitol at bedside for PRN use
   -Dose meds for CVVH
   2) Hypoxic Respiratory Failure: Pt intubated [**4-10**] for worsening hypoxia
   and respiratory fatigue. Clinical status and CXR stable this AM. Unable
   to wean FiO2 below 50%. Pt remains intubated for a) restrictive
   physiology [**3-4**] increased intra-abdominal pressure [**3-4**] ascites (improved
   today), b) mental status changes [**3-4**] encephalopathy, c) concern for
   volume overload.  No concern for primary pulmonary process.
   -Maintain current ventilator settings: 500/14/50/15
   -Hold paracentesis, pending improvement in other parameters keeping
   patient on vent
   3) Fulminant Hepatic Failure: Etiology is severe VOD [**3-4**] SCT. Possible
   underlying cirrhosis [**3-4**] EtOH history. Viral hepatitis unlikely, given
   negative labs to date. Pt presented w/ encephalopathy, massive ascites,
   coagulopathy, elevated LFTs. Initial abd US and MRI
 reversal of flow
   through portal vein. Repeat abd US [**4-12**]
 no flow through portal vein,
   increased ascites. Pt clinically stable. LFTs significantly improved
   today, with the exception of a small rise in TBili. Prognosis remains
   extremely poor. Hepatology, Renal, and ID following.
    (a.) VOD
   -Defibrotide (560 mg IV Q6H) per protocol for VOD (targets for admin:
   Plt>30, Hct>30, INR<1.5, Fibrinogen>150)
   -Q6H labs, as necessary, to monitor defibrotide parameters
   (b.) Coagulopathy: [**3-4**] liver failure + cytotoxic chemotherapy +
   debifrotide side effects.
   -Continue to correct derangements with blood products (FFP, Plts, PRBC)
   per Defibrotide protocol
    (c.) Ascites: Stable-to-worse this morning. Bladder pressure <20mmHg
   yesterday but 20-24mmHg this morning. Concern is still for abdominal
   compartment syndrome. Have been holding paracentesis for infection
   risk, bleeding risk, concern for fluid shifts.
   -Continue to monitor bladder pressure
   -Paracentesis for persistently elevated (>20) or rising bladder
   pressures
   -Perform tap 2 hrs after defibrotide dose, per BMT
   (d) Encephalopathy: [**3-4**] hepatic failure +/- uremia.
   -Lactulose 30 mL PO/OG QID
   -Q6H FS to monitor for derangements in glucose metabolism
   4) Hypotension: Transient, improved. Last night
s reduced MAPs most
   likely [**3-4**] combination of aggressive volume removal and reduced pressor
   support against backdrop of decreased effective circulating volume [**3-4**]
   liver failure, vasodilatory effects of sedation, and preload depression
   [**3-4**] high PEEP. No clinical or laboratory evidence for septic shock.
   Unable to wean pressor completely over last 24 hours.
   -Down-titrate Norepinephrine w/ MAP goal >65 vs 80
 check with
   hepatology
   5) Febrile Neutropenia: Resolved. Pt afebrile with ANC > 10,000. Cx
   negative to date. Abx stopped. Concern is that with elevated white
   count [**3-4**] engraftment and altered body temperature [**3-4**] CVVH, brewing
   infection may be obscured. ID following.
   -Change PO Acyclovir to IV, given concern for reduced efficacy of
   PO/OGT delivery
   -Discuss infection parameters w/ BMT, ID
   -F/u final culture data
   6) Follicular Lymphoma: Pt is s/p BEAM Auto SCT, day 12. Pt is
   engrafting. WBC @ 18 today. Received IV solumedrol x1 for
   anti-inflammatory effect. Received filagrastim until ANC>1000.
   Complicated social situation
 pt needs assistance with disability
   paperwork, wife is not working, one son has been expelled from school
   and is living away from home. BMT following.
   -Request visit from BMT social worker [**Name (NI) 3149**] [**Name (NI) 11979**]
   7) FEN: Reduced bowel sounds and tube feed residuals concerning for
   decreased absorption and/or forward flow through the gut. Residuals
   were given back to patient.
   -Hold TFs until confirmed digestion of residuals.
   -CVVH for electrolyte regulation
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2155-4-13**] 08:00 PM 20 mL/hour
 held for
   residuals
   Glycemic Control:  Q6H FS, ISS
   Lines:
   Arterial Line - [**2155-4-11**] 03:53 AM
   Dialysis Catheter - [**2155-4-12**] 09:36 AM
   Multi Lumen - [**2155-4-12**] 07:00 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   VAP:  Bed @ 30-degree angle; chlorhexidine mouth swabs
   Chief Complaint:
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Respiratory support
   Physical Examination
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition:
   Communication:  Wife [**Name (NI) 1542**]
   [**Name (NI) 156**] status: Full
   Disposition: No immediate plans for disposition from [**Hospital Unit Name 4**]

2155-04-15 07:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Yesterday:
   -Taken off sedation x 4 hours in AM, responded to painful stimuli but
   unable to respond to commands.
   -Off pressors transiently in afternoon, but had to be restarted
   secondary to hypotension to SBP 80s.
   -Renal team added dialyate to CVVH replacement fluid.
   -RUQ ultrasound demonstrated reversal of flow through the main portal
   vein.
   Overnight:
   -FiO2 increased from 50 to 60 given 1230 AM ABG showing PO2 of 71
   improved to 88.
   -During repositioning, RN noted pt had one episode of 100cc bilious
   vomiting. RN stated pt was on side, so did not appear to aspirate. Tube
   feeds held overnight.
   -Higher TV, rate in 20s, breathing less synchronous w/ vent, requiring
   increased sedation: fentanyl 25
   Morning:
   -Levophed increased to 0.1 for SBP 80s.
   -Residuals = 300cc
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Acyclovir - [**2155-4-15**] 06:08 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Propofol - 30 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2155-4-14**] 12:00 PM
   Propofol - [**2155-4-14**] 01:28 PM
   Fentanyl - [**2155-4-15**] 06:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-4-15**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.8
C (96.5
   HR: 104 (70 - 123) bpm
   BP: 87/60(69) {75/52(59) - 146/86(106)} mmHg
   RR: 17 (15 - 25) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 107 kg (admission): 98.2 kg
    Bladder pressure: 15 (15 - 24) mmHg (pt lying flat)
   Total In:
                                                                  8,462 mL
                                                                  2,840 mL
   PO:
   TF:
                                                                    218 mL
   IVF:
                                                                  7,913 mL
                                                                  2,780 mL
   Blood products:
   Total out:
                                                                  8,546 mL
                                                                  2,540 mL
   Urine:
                                                                     22 mL
                                                                      9 mL
   NG:
                                                                    300 mL
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                    -84 mL
                                                                    300 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   SpO2: 94%
   ABG: 7.40/38/98.[**Numeric Identifier 20**]/21/0
   Ve: 9.4 L/min
   PaO2 / FiO2: 163
   Physical Examination
   General: Intubated, sedated, jaundiced
   HEENT: PERRLA 2mm
1mm (R more sluggish than L); sclerae icteric
   Neck: Tunneled CVL on R
   Lungs: Clear breath sounds anteriorly w/o wheezes
   CV: RRR nl S1, S2, no murmurs
   Abdomen: Tense, distended (stable from yesterday); scant, distant BS
   GU: +scrotal edema (stable from yesterday); foley
   Ext: Warm, well-perfused; DPs 2+ on L, 1+ on R; +pitting edema to
   thighs
   Labs / Radiology
   32 K/uL
   12.3 g/dL
   214 mg/dL
   3.1 mg/dL
   21 mEq/L
   4.3 mEq/L
   46 mg/dL
   98 mEq/L
   138 mEq/L
   35.4 %
   31.7 K/uL
        [image002.jpg]
                             [**2155-4-14**]  05:31 AM
                             [**2155-4-14**]  11:37 AM
                             [**2155-4-14**]  12:04 PM
                             [**2155-4-14**]  06:02 PM
                             [**2155-4-14**]  06:15 PM
                             [**2155-4-15**]  12:14 AM
                             [**2155-4-15**]  12:29 AM
                             [**2155-4-15**]  04:09 AM
                             [**2155-4-15**]  05:43 AM
                             [**2155-4-15**]  06:05 AM
   WBC
   24.1
   29.7
   31.7
   Hct
   36.0
   37.6
   35.4
   Plt
   43
   38
   38
   32
   Cr
   3.2
   3.2
   3.1
   TCO2
   29
   28
   26
   24
   19
   24
   Glucose
   [**Telephone/Fax (3) 12003**]14
   Other labs: PT / PTT / INR:14.9/31.4/1.3, ALT / AST:742/477, Alk Phos /
   T Bili:248/8.7, Differential-Neuts:83.0 %, Band:3.0 %, Lymph:4.0 %,
   Mono:3.0 %, Eos:0.0 %, Fibrinogen:484 mg/dL, Lactic Acid:2.6 mmol/L,
   Albumin:3.3 g/dL, LDH:933 IU/L, Ca++:10.0 mg/dL, Mg++:2.1 mg/dL,
   PO4:4.0 mg/dL
   RUQ Ultrasound [**2155-4-14**]:
   IMPRESSION: Reversed direction of flow in the main portal vein with
   minimal occasional antegrade flow. Appropriate direction of flow in the
   left and right portal veins.
   Ascites and gallstones.
   Assessment and Plan
   56yM with refractory follicular lymphoma, day 13 s/p BEAM Auto [**Hospital 11923**]
   transferred to [**Hospital Unit Name 4**] from BMT with fulminant hepatic failure [**3-4**]
   [**Last Name (un) 3140**]-occlusive disease, requiring CVVH for ARF, ventilator support for
   hypoxic respiratory failure, and pressor support for hypotension.
   1) Hypotension: Pt still dependent on pressors for BP support. Reduced
   pressures most likely secondary to decreased effective circulating
   volume [**3-4**] liver failure, vasodilation [**3-4**] sedation, and preload
   depression [**3-4**] high PEEP. Possible concern for sepsis, given new
   leukocytosis corresponding to cessation of abx, though pt was culture
   negative at that time. No concern for hypovolemia, given pt is LOS +8L
   and running even on CVVH.
   -Decrease
   sedation
   -Decrease PEEP if patient tolerates a decrease in FiO2 (see below)
   -Down-titrate Norepinephrine, keeping MAP>65, SBP>85
   2) Hypoxic Respiratory Failure: Pt intubated [**4-10**] for worsening hypoxia
   and respiratory fatigue. Pt remains intubated for a) restrictive
   physiology [**3-4**] ascites, b) mental status changes [**3-4**] encephalopathy, c)
   concern for volume overload. Increased FiO2 requirement yesterday but
   lung exam and CXR slightly improved this morning. PEEP appears adequate
   based on compliance curve, though possible that effective PEEP @ level
   of the alveoli is less than 15 secondary to increased intra-abdominal
   pressure.
   -Re-lower FiO2 to 50%; if tolerated
 decrease PEEP to [**11-11**]; if not
   increase PEEP to 18
   -Hold paracentesis, pending improvement in other parameters keeping
   patient on vent
   -Repeat CXR tomorrow AM to r/o aspiration event
   3) Nutrition: Vomiting, reduced bowel sounds, and tube feed residuals
   concerning for decreased gut mobility and absorption in setting of
   ascites and acute liver failure.
   -KUB to r/o ileus
   -Hold TFs; re-start TPN
   -Consider switching back to TFs if reassuring KUB
    4) Oliguric ARF [**3-4**] ischemic ATN: Pt started on CVVH [**2155-4-12**] for
   worsening metabolic acidosis and worsening renal function. Acidemia
   resolved but pt remains severely oliguric. Could not tolerate volume
   removal [**3-4**] hypotension. Renal is following.
   -Continue current CVVH w/o volume removal
   -Trend lytes, BUN/Cr, Is/Os
   -Q1H pupil checks to r/o herniation
   -Dose meds for CVVH
   5) Leukocytosis: WBC trending up, 31 today. Likely [**3-4**] filagrastim.
   Possibly [**3-4**] new nosocomial infection, given that rise correlates w/
   cessation of antibiotics, though pt was culture negative at that time.
   Difficult to interpret fever curve, given CVVH. RUQ US yesterday showed
   no evidence of biliary infection. ID following.
   -Pan-culture: blood, sputum, urine
   -Consider paracentesis to r/o SBP
   -KUB, as above
   -Consider additional abdominal imaging
   -If persistent hypotension, consider re-starting vanc/cefepime
   6) Hyperglycemia: BS in 200s yesterday, requiring 14 units Humalog.
   -Adjust ISS
   7) Fulminant Hepatic Failure: Etiology is severe VOD [**3-4**] SCT. Possible
   underlying cirrhosis [**3-4**] EtOH history. Viral hepatitis unlikely, given
   negative labs to date. Pt presented w/ encephalopathy, massive ascites,
   coagulopathy, elevated LFTs. RUQ demonstrates persistent reversal of
   flow in main portal vein. LFTs trending down. Hepatology following.
    (a.) VOD: Can resolve with defibrotide as little as one week; more
   common is 3 wks to 3 months.
   -Defibrotide (560 mg IV Q6H) per protocol for VOD (targets for admin:
   Plt>30, Hct>30, INR<1.5, Fibrinogen>150)
   -Urusodiol
   -Q6H labs, as necessary, to monitor defibrotide parameters
   -f/u HSV serology
   (b.) Coagulopathy: [**3-4**] liver failure + cytotoxic chemotherapy +
   debifrotide side effects.
   -Continue to correct derangements with blood products (FFP, Plts, PRBC)
   per Defibrotide protocol
    (c.) Ascites: Stable. Bladder pressures <20mmHg. Have been holding
   paracentesis for infection risk, bleeding risk, concern for fluid
   shifts.
   -Monitor Bladder Pressure to r/o abdominal compartment syndrome
   -Paracentesis for persistently elevated (>25) bladder pressure
   -Perform tap 2 hrs after defibrotide dose, per BMT
   (d) Encephalopathy: [**3-4**] hepatic failure +/- uremia.
   -Lactulose 30 mL PO/OG QID once pt tolerating TFs
   -Consider adding rifaximin once pt tolerating TFs
   -Q6H FS to monitor for derangements in glucose metabolism
   8) Follicular Lymphoma: Pt is s/p BEAM Auto SCT, day 12. Pt is
   engrafting. WBC @ 18 today. Received IV solumedrol x1 for
   anti-inflammatory effect. Received filagrastim until ANC>1000.
   Complicated social situation
 pt needs assistance with disability
   paperwork, wife is not working, one son has been expelled from school
   and is living away from home. BMT following. Social work is assisting
   with disability paperwork.
   -Acyclovir 400mg IV Q12H for ppx
   -f/u BMT recs
   ICU Care
   Nutrition: See above. Plan to re-start TPN.
   Glycemic Control: See above. Pt on ISS.
   Lines:
   Arterial Line - [**2155-4-11**] 03:53 AM
   Dialysis Catheter - [**2155-4-12**] 09:36 AM
   Multi Lumen - [**2155-4-12**] 07:00 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   VAP:  Bed @ 30-degree angle
   Communication: Wife [**Name (NI) 1542**]
   [**Name (NI) 156**] status: Full
   Disposition: No immediate plans for [**Hospital Unit Name 4**] dispo

2155-04-15 09:50:00 Physician Attending Progress Note
Chief Complaint: Hepatic Failure-VOD following BMT
   Respiratory Failure
   Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2155-4-14**] 02:10 PM
   liver/abdomen
   -Patient off all sedation with minimal improvement in mental
   status--return to sedation required with patient having worsening
   tachypnea and hypoxia
   -U/S--Reversal of flow in main portal vein persisting
   -FIO2 increased overnight with worsening hypoxia
   -Levophed trialed off and returned with intermitted hypotension
   -Bladder pressure=15
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Acyclovir - [**2155-4-15**] 06:08 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Propofol - 20 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Propofol - [**2155-4-14**] 01:28 PM
   Fentanyl - [**2155-4-15**] 06:19 AM
   Pantoprazole (Protonix) - [**2155-4-15**] 08:21 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2155-4-15**] 09:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 101 (70 - 123) bpm
   BP: 95/63(73) {75/52(59) - 146/86(106)} mmHg
   RR: 15 (15 - 25) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 107 kg (admission): 98.2 kg
   Bladder pressure: 15 (15 - 24) mmHg
   Total In:
                                                                  8,462 mL
                                                                  3,335 mL
   PO:
   TF:
                                                                    218 mL
   IVF:
                                                                  7,913 mL
                                                                  3,245 mL
   Blood products:
   Total out:
                                                                  8,546 mL
                                                                  3,091 mL
   Urine:
                                                                     22 mL
                                                                      9 mL
   NG:
                                                                    300 mL
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                    -84 mL
                                                                    244 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   SpO2: 94%
   ABG: 7.40/38/98.[**Numeric Identifier 20**]/21/0
   Ve: 9.4 L/min
   PaO2 / FiO2: 163
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Distended
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.3 g/dL
   32 K/uL
   214 mg/dL
   3.1 mg/dL
   21 mEq/L
   4.3 mEq/L
   46 mg/dL
   98 mEq/L
   138 mEq/L
   35.4 %
   31.7 K/uL
        [image002.jpg]
                             [**2155-4-14**]  05:31 AM
                             [**2155-4-14**]  11:37 AM
                             [**2155-4-14**]  12:04 PM
                             [**2155-4-14**]  06:02 PM
                             [**2155-4-14**]  06:15 PM
                             [**2155-4-15**]  12:14 AM
                             [**2155-4-15**]  12:29 AM
                             [**2155-4-15**]  04:09 AM
                             [**2155-4-15**]  05:43 AM
                             [**2155-4-15**]  06:05 AM
   WBC
   24.1
   29.7
   31.7
   Hct
   36.0
   37.6
   35.4
   Plt
   43
   38
   38
   32
   Cr
   3.2
   3.2
   3.1
   TCO2
   29
   28
   26
   24
   19
   24
   Glucose
   [**Telephone/Fax (3) 12003**]14
   Other labs: PT / PTT / INR:14.9/31.4/1.3, ALT / AST:742/477, Alk Phos /
   T Bili:248/8.7, Differential-Neuts:83.0 %, Band:3.0 %, Lymph:4.0 %,
   Mono:3.0 %, Eos:0.0 %, Fibrinogen:484 mg/dL, Lactic Acid:2.6 mmol/L,
   Albumin:3.3 g/dL, LDH:933 IU/L, Ca++:10.0 mg/dL, Mg++:2.1 mg/dL,
   PO4:4.0 mg/dL
   Imaging: CXR-No new infiltrates, ETT, CVL in good position but
   difficult to visualize OGT.
   Assessment and Plan
   56 yo male who is D #13 following auto-BMT with persistent respiratory,
   renal and hepatic failure.  He has had persistent alteration in mental
   status and now has reasonable stability of bladder pressure and
   abdominal exam with mild increase in FIO2 requirement as sedation was
   weaned but what is disappointing is that we do not have clear evidence
   of improvement in the VOD based upon ultrasound after treatment with
   defibrotide at this time.
   1) RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
Patient with reasonable
   preservation of lung parenchyma based upon CXR and with significant
   chest wall restriction with abdominal process and likely ascites.  We
   will need to move to more optimal PEEP if we can identify and improved
   response.
   -Will move to titrate PEEP up to look for improvement in oxygenation
   -This may come at some cost in terms of stability of blood pressure and
   are moving to maintain fluid balance was even
   -If absence of improvement in oxygenation seen and BP negatively
   affected will decrease PEEP to trial
   -Will move to decreased PEEP to 12 to re-evalaluate PaO2
   -Will move FIO2 down to 50%
   2) RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)-
   -Will continue with CVVH
   -Will maintain I/O even goal
   -Will look to move to small amounts of hemofiltration
   3) HEPATIC FAILURE/ HEPATIC ENCEPHALOPATHY
   -Will work to goal MAP-65
   -Will continue to follow exam
   -Will continue to trial lactulose
   -Will look to minimize sedation
   -Will continue defibrotide and get final interpretation from radiology
   on implications of findings for flow
   -Will have to consider rifaxamin 400mg tid in addition to Lactulose
   HSV 6 and 8 to be followed up on
   4)  LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)/TRANSPLANT, BONE
   MARROW (BMT)
   -Will continue to support per BMT recs for specific post BMT Rx
   -Acyclovir IV
   -Social work following
   ICU Care
   Nutrition: NPO at this time
KUB to evauate for possible
   obstruction/ileus and will restart TPN
   Glycemic Control:  Insulin sliding scale to titrate up today
   Lines:
   Arterial Line - [**2155-4-11**] 03:53 AM
   Dialysis Catheter - [**2155-4-12**] 09:36 AM
   Multi Lumen - [**2155-4-12**] 07:00 PM
   Prophylaxis:
   DVT:  Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2155-04-16 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Vanc/cefepime restarted, per BMT request, given persistent pressor
   requirement and leukocytosis (not attributable to filgrastim).
   - FiO2 decreased from 60 to 50, gas 7.36/40/80.
   - KUB
 ascites, no evidence of obstruction.
   - Concern for dark colored substance from throat with suctioning
   overnight (?stool).
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Cefipime - [**2155-4-15**] 03:19 PM
   Vancomycin - [**2155-4-15**] 03:22 PM
   Acyclovir - [**2155-4-16**] 05:59 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Fentanyl - 50 mcg/hour
   KCl (CRRT) - 2 mEq./hour
   Propofol - 20 mcg/Kg/min
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2155-4-15**] 08:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-4-16**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.8
C (96.5
   HR: 106 (76 - 106) bpm
   BP: 83/52(61) {83/52(61) - 126/75(90)} mmHg
   RR: 17 (13 - 20) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 98.2 kg
    Bladder pressure: 12 (12 - 17) mmHg
   Total In:
                                                                  8,909 mL
                                                                  2,972 mL
   PO:
   TF:
   IVF:
                                                                  8,264 mL
                                                                  2,664 mL
   Blood products:
                                                                    234 mL
   Total out:
                                                                  9,280 mL
                                                                  2,173 mL
   Urine:
                                                                     14 mL
                                                                     10 mL
   NG:
                                                                  1,700 mL
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                   -371 mL
                                                                    799 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 5
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   SpO2: 93%
   ABG: 7.38/36/87.[**Numeric Identifier 7**]/20/-2
   Ve: 12.4 L/min
   PaO2 / FiO2: 176
   Physical Examination
   General: Intubated, sedated, unresponsive to commands or sternal rub
   HEENT: PERRLA 2mm
1mm (R more sluggish than L); sclerae icteric
   Neck: Tunneled CVL on R, no swelling or erythema at site
   Lungs: Clear breath sounds anteriorly w/o wheezes
   CV: RRR nl S1, S2, no murmurs
   Abdomen: Tense, distended (stable from [**4-15**]); scant, distant BS
   GU: +scrotal edema (stable from [**4-15**]); foley
   Ext: Warm, well-perfused; DPs 2+ on L, 1+ on R; +pitting edema
   Labs / Radiology
   32 K/uL
   11.7 g/dL
   233 mg/dL
   3.1 mg/dL
   20 mEq/L
   3.9 mEq/L
   46 mg/dL
   100 mEq/L
   135 mEq/L
   34.5 %
   24.9 K/uL
        [image002.jpg]
                             [**2155-4-15**]  06:05 AM
                             [**2155-4-15**]  11:54 AM
                             [**2155-4-15**]  12:07 PM
                             [**2155-4-15**]  06:30 PM
                             [**2155-4-15**]  06:50 PM
                             [**2155-4-15**]  08:40 PM
                             [**2155-4-15**]  11:46 PM
                             [**2155-4-16**]  12:08 AM
                             [**2155-4-16**]  06:06 AM
                             [**2155-4-16**]  06:18 AM
   WBC
   28.8
   29.4
   30.9
   24.9
   Hct
   38.3
   37.4
   35.4
   34.5
   Plt
   35
   17
   49
   40
   32
   Cr
   3.2
   3.1
   3.1
   TCO2
   24
   24
   22
   18
   22
   Glucose
   [**Telephone/Fax (3) 12017**]33
   Other labs: PT / PTT / INR:14.1/36.8/1.2, ALT / AST:508/227, Alk Phos /
   T Bili:213/7.0, Fibrinogen:366 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:3.3 g/dL, LDH:672 IU/L, Ca++:9.5 mg/dL, Mg++:2.0 mg/dL, PO4:4.7
   mg/dL
   KUB [**2155-4-15**]: No radiographic evidence of bowel obstruction.
   CXR [**2155-4-16**] (my read): Increased atelectasis at bases bilaterally. No
   evidence of consolidation or edema.
   Assessment and Plan
   56yM with refractory follicular lymphoma, day 14 s/p BEAM Auto [**Hospital 11923**]
   transferred to [**Hospital Unit Name 4**] from BMT with fulminant hepatic failure [**3-4**]
   [**Last Name (un) 3140**]-occlusive disease, requiring CVVH for ARF, ventilator support for
   hypoxic respiratory failure, and pressor support for hypotension.
   1) Hypotension: Pt with increased pressor requirement over past 24
   hours. Hypotension most likely due to decreased effective circulating
   volume [**3-4**] liver failure, vasodilation [**3-4**] sedation, and preload
   depression [**3-4**] high PEEP. Other possible factors include sepsis (pt w/
   leukocytosis off abx that improved after abx re-started, cx data
   pending) vs adrenal insufficiency (unlikely given hyperglycemia).
   -Check Cortisol
   -Continue antibiotics until blood, urine, and sputum cultures return
   negative
   -Attempt to down-titrate norepinephrine w/ MAP>65, SBP>85
   -Attempt to wean sedation
   2) Hypoxic Respiratory Failure: Pt intubated [**4-10**] for worsening hypoxia
   and respiratory fatigue. Pt remains intubated for a) restrictive
   physiology [**3-4**] ascites (slightly worse [**4-16**], given increased
   atelectasis on CXR), b) mental status changes [**3-4**] encephalopathy, c)
   concern for volume overload. PEEP appears adequate based on compliance
   curve, though possible that effective PEEP @ level of the alveoli is
   less than 15 secondary to increased intra-abdominal pressure. This
   morning, pt is over-breathing the vent, adding possible component of
   auto-PEEP.
   -Switch to PSV, given pt with spontaneous RR >14
   -Hold paracentesis, pending improvement in other parameters keeping
   patient on vent
   -Daily CXR
   3) Ileus: Low stool output, high residuals, ?stool on suctioning,
   reduced bowel sounds all concerning for ileus in the setting of
   critical illness and ascites. KUB negative for obstruction.
   -Aggressive bowel regimen
   -Hold TFs until pt is moving bowels
   -Reglan for nausea/vomiting
    4) Oliguric ARF: Pt started on CVVH [**2155-4-12**] for worsening metabolic
   acidosis and worsening renal function. Etiology is ischemic ATN (urine
   sediment w/ muddy brown casts). Initial insult = hypotension, most
   likely [**3-4**] hepatorenal syndrome. Acidemia stable with CVVH but pt
   remains severely oliguric. Could not tolerate volume removal [**3-4**]
   hypotension. Renal is following.
   -Continue current CVVH (QD -500, QR -1.5L) w/ goal to run even
   -Trend pH, calcium, lytes, BUN/Cr, Is/Os
   -Q1H pupil checks to r/o herniation
   -Dose meds for CVVH
   5) Leukocytosis: [**3-4**] filgrastim (unlikely, per BMT) versus new
   infection, given that rise correlated w/ cessation of initial
   antibiotics, though pt was culture negative at that time. Pt is at high
   risk of infection, given critically ill status, ascites, multiple
   tubes/lines. WBC trending down [**4-16**] on abx. Difficult to interpret
   fever curve, given CVVH. No evidence of biliary infection on RUQ US. No
   evidence of PNA on CXR. ID following.
   -Continue Vanc/Cefepime, dosed for CVVH
   -f/u blood, sputum, urine cultures
   -Consider paracentesis to r/o SBP if hypotension and leukocytosis
   persist
   6) Hyperglycemia: FS BS 225-369 yesterday with 10 units Regular in TPN
   + Humalog Sliding Scale.
   -f/u TPN recs
   -Adjust ISS
   7) Fulminant Hepatic Failure: Etiology is severe VOD [**3-4**] SCT. Possible
   underlying cirrhosis [**3-4**] EtOH history. Viral hepatitis unlikely, given
   negative labs to date. Pt presented w/ encephalopathy, massive ascites,
   coagulopathy, elevated LFTs. RUQ US on [**4-14**] demonstrated persistent
   reversal of flow in main portal vein. LFTs continuing to trend down;
   TBili 7 today (peak 10). Hepatology following.
    (a.) VOD: Can resolve with defibrotide as little as one week; more
   common is 3 wks to 3 months.
   -Defibrotide (560 mg IV Q6H) per protocol for VOD (targets for admin:
   Plt>30, Hct>30, INR<1.5, Fibrinogen>150)
   -Urusodiol via OGT
   -Q6H labs, as necessary, to monitor defibrotide parameters
   -f/u HSV serology
   (b.) Coagulopathy: [**3-4**] liver failure + cytotoxic chemotherapy +
   debifrotide side effects.
   -Continue to correct derangements with blood products (FFP, Plts, PRBC)
   per Defibrotide protocol
    (c.) Ascites: Stable. Bladder pressures <20mmHg. Have been holding
   paracentesis for infection risk, bleeding risk, concern for fluid
   shifts.
   -Monitor Bladder Pressure to r/o abdominal compartment syndrome
   -Paracentesis for persistently elevated (>25) bladder pressure
   -Perform tap 2 hrs after defibrotide dose, per BMT
   (d) Encephalopathy: [**3-4**] hepatic failure +/- uremia.
   -Lactulose
 PR administration, given pt not tolerating TFs
   -Consider adding rifaximin once pt tolerating TFs
   -Q6H FS to monitor for derangements in glucose metabolism
   8) Follicular Lymphoma: Pt is s/p BEAM Auto SCT, day 13. Pt has
   engrafted. Received IV solumedrol x1 for anti-inflammatory effect.
   Received filgrastim until ANC>1000. Complicated social situation
   needs assistance with disability paperwork, wife is not working, one
   son has been expelled from school and is living away from home. BMT
   following. Social work is assisting with disability paperwork.
   -Acyclovir 400mg IV Q12H for ppx
   ICU Care
   Nutrition:
   TPN without Lipids - [**2155-4-15**] 06:30 PM 42 mL/hour
   Glycemic Control:  As above.
   Lines:
   Arterial Line - [**2155-4-11**] 03:53 AM
   Dialysis Catheter - [**2155-4-12**] 09:36 AM
   Multi Lumen - [**2155-4-12**] 07:00 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   VAP:  Bed at 30-degree angle
   Communication: Wife [**Name (NI) 1542**]
   [**Name (NI) 156**] status: Full
   Disposition: No immediate plans for dispo from [**Hospital Unit Name 4**]

2155-04-16 10:43:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Renal Failure
   Hepatic Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2155-4-15**] 12:16 PM
 BLOOD CULTURED - At [**2155-4-15**] 03:00 PM
   -Wean of FIO2 from 60-->50%
   -LFT's modestly down across time
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Cefipime - [**2155-4-15**] 03:19 PM
   Acyclovir - [**2155-4-16**] 05:59 AM
   Vancomycin - [**2155-4-16**] 08:15 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Fentanyl - 50 mcg/hour
   Propofol - 20 mcg/Kg/min
   Norepinephrine - 0.13 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2155-4-16**] 08:06 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-4-16**] 10:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 112 (76 - 112) bpm
   BP: 99/66(77) {83/52(61) - 126/75(90)} mmHg
   RR: 21 (13 - 21) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 98.2 kg
   Bladder pressure: 12 (12 - 17) mmHg
   Total In:
                                                                  8,909 mL
                                                                  4,430 mL
   PO:
   TF:
   IVF:
                                                                  8,264 mL
                                                                  3,992 mL
   Blood products:
                                                                    234 mL
   Total out:
                                                                  9,280 mL
                                                                  3,591 mL
   Urine:
                                                                     14 mL
                                                                     10 mL
   NG:
                                                                  1,700 mL
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                   -371 mL
                                                                    839 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 789 (789 - 789) mL
   RR (Set): 14
   RR (Spontaneous): 4
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   Compliance: 333.3 cmH2O/mL
   SpO2: 94%
   ABG: 7.38/36/87.[**Numeric Identifier 7**]/20/-2
   Ve: 12.5 L/min
   PaO2 / FiO2: 176
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, No(t) Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.7 g/dL
   32 K/uL
   233 mg/dL
   3.1 mg/dL
   20 mEq/L
   3.9 mEq/L
   46 mg/dL
   100 mEq/L
   135 mEq/L
   34.5 %
   24.9 K/uL
        [image002.jpg]
                             [**2155-4-15**]  06:05 AM
                             [**2155-4-15**]  11:54 AM
                             [**2155-4-15**]  12:07 PM
                             [**2155-4-15**]  06:30 PM
                             [**2155-4-15**]  06:50 PM
                             [**2155-4-15**]  08:40 PM
                             [**2155-4-15**]  11:46 PM
                             [**2155-4-16**]  12:08 AM
                             [**2155-4-16**]  06:06 AM
                             [**2155-4-16**]  06:18 AM
   WBC
   28.8
   29.4
   30.9
   24.9
   Hct
   38.3
   37.4
   35.4
   34.5
   Plt
   35
   17
   49
   40
   32
   Cr
   3.2
   3.1
   3.1
   TCO2
   24
   24
   22
   18
   22
   Glucose
   [**Telephone/Fax (3) 12017**]33
   Other labs: PT / PTT / INR:14.1/36.8/1.2, ALT / AST:508/227, Alk Phos /
   T Bili:213/7.0, Differential-Neuts:83.0 %, Band:3.0 %, Lymph:4.0 %,
   Mono:3.0 %, Eos:0.0 %, Fibrinogen:366 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:3.3 g/dL, LDH:672 IU/L, Ca++:9.5 mg/dL, Mg++:2.0 mg/dL, PO4:4.7
   mg/dL
   Imaging: KUB---Ascites without obstruction
   CXR--Small amount of bilateral atelectasis
   Assessment and Plan
   56 yo male s/p BMT now with course complicated by VOD with subsequent
   hepatic failure.  Currently are pursuing a path of support for patient
   multiple active issues as we look for resolution or improvement in VOD
   and hepatic compromise.  He retains significant impairment in mental
   status and have had difficult time with weaning of sedation with
   patient increased HR, RR concerning for a marker of agitation but still
   have need to examine patient if possible.
   1)RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   -Fent 50/Propofol 16
will move to wean propofol as possible
will need
   to examine patient for mental status today
if unable will have to move
   to CT scan to consider possible cerebral edema in the setting of
   hepatic dysfunction.
   -Will continue with PEEP at 16
   1.5)HYPOTENSION
Patient with leukocytosis seen evolving cocerning for
   new hospital acquired infection.
   -Cultures sent
   -Vanco/Cefepime sent
   -Will look to random cortisol
   -Is likely attributable to decreased splanchnic circulation resistance
   in addition to impaired venous return in the setting of persistent
   elevation in PEEP levels
   2) RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)-
   -Will maintain CVVH at this time
   -Goal to maintain even fluid balance
   -Goal to continue to remove solute to aid in patient mental status
   3) HEPATIC FAILURE/ENCEPHALOPATHY/VOD-
   -Defibritide
   -Levophed in place
   -Continue to monitor for return of function
   -Maintain parameters
   4) LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)/TRANSPLANT, BONE
   MARROW (BMT)-
   -Acyclovir in place
   -Will continue to manage with BMT team as possible
   ICU Care
   Nutrition:
   TPN without Lipids - [**2155-4-15**] 06:30 PM 42 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2155-4-11**] 03:53 AM
   Dialysis Catheter - [**2155-4-12**] 09:36 AM
   Multi Lumen - [**2155-4-12**] 07:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 38 minutes
   Patient is critically ill

2155-04-17 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Switched to PSV 10/15 yesterday, maintained PaO2>100, so PEEP
   gradually lowered to 12 overnight
   -ET tube advanced, now positioned 3.5cm above carina per CXR read
   -Sputum gram stain showed 4+ GPRs and 1+ GPCs in pairs
   -Random cortisol borderline @ 16
 Pt ordered for AM [**Last Name (un) **] stim test
   Normal
   -Spontaneous Awakening Trial
 off all sedation, pt opened eyes but did
   not respond to commands, HR in 140s, SBP 118-123 on 0.1mcg/kg/min of
   levophed, TVs approx 1L, RR in 20s
   -[**Last Name (un) **] off for 1.5hrs overnight [**3-4**] filter clot
   Allergies:
   Penicillins
 Hives
   Last dose of Antibiotics:
   Vancomycin - [**2155-4-16**] 08:15 AM
   Acyclovir - [**2155-4-16**] 07:36 PM
   Cefipime - [**2155-4-17**] 02:02 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Norepinephrine - 0.16 mcg/Kg/min
   Propofol - 10 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2155-4-16**] 08:06 AM
   Ranitidine (Prophylaxis) - [**2155-4-16**] 10:59 PM
   Fentanyl - [**2155-4-17**] 03:49 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-4-17**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.2
C (97.2
   HR: 123 (104 - 126) bpm
   BP: 103/72(82) {84/57(68) - 115/72(84)} mmHg
   RR: 17 (14 - 23) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 98.2 kg
    Bladder pressure: 18 (18 - 22) mmHg
   Total In:
                                                                 10,370 mL
                                                                  2,699 mL
   PO:
   TF:
   IVF:
                                                                  9,182 mL
                                                                  2,156 mL
   Blood products:
   Total out:
                                                                  8,321 mL
                                                                  1,869 mL
   Urine:
                                                                     87 mL
                                                                     23 mL
   NG:
                                                                    150 mL
                                                                    210 mL
   Stool:
                                                              +loose stool
   Drains:
   Balance:
                                                                  2,049 mL
                                                                    830 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 680 (680 - 795) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 20
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   SpO2: 94%
   ABG: 7.35/33/105/16/-6
   Ve: 14 L/min
   PaO2 / FiO2: 210
   Physical Examination
   General: Intubated, sedated, unresponsive to commands
   Skin: Tiny, non-erythematous, firm, fluid-filled vesicles diffusely
   scattered across chest and abdomen
   HEENT: PERRLA 2mm
1mm (R more sluggish than L); sclerae icteric
   Neck: Tunneled CVL on R, no swelling or erythema at site
   Lungs: Ronchorous breath sounds in upper lung fields, clear breath
   sounds in lower lung fields anteriorly; no wheezes
   CV: RRR nl S1, S2, no murmurs
   Abdomen: Tense, distended (> c/w [**4-16**]); no BS
   GU: +scrotal edema (stable from [**4-16**]); +foley
   Ext: Warm, well-perfused; DPs 2+ on L, 1+ on R; +pitting edema (stable
   from [**4-16**])
   Labs / Radiology
   40 K/uL
   14.2 g/dL
   245 mg/dL
   3.0 mg/dL
   16 mEq/L
   4.5 mEq/L
   45 mg/dL
   104 mEq/L
   131 mEq/L
   41.1 %
   29.5 K/uL
         [image002.jpg]
                             [**2155-4-16**]  11:31 AM
                             [**2155-4-16**]  11:59 AM
                             [**2155-4-16**]  03:04 PM
                             [**2155-4-16**]  06:23 PM
                             [**2155-4-16**]  06:35 PM
                             [**2155-4-16**]  08:47 PM
                             [**2155-4-16**]  10:19 PM
                             [**2155-4-17**]  12:03 AM
                             [**2155-4-17**]  12:43 AM
                             [**2155-4-17**]  03:51 AM
   WBC
   29.5
   Hct
   41.1
   Plt
   36
   37
   40
   Cr
   2.9
   3.0
   TCO2
   19
   20
   19
   19
   Glucose
   [**Telephone/Fax (3) 12045**]45
   Other labs: PT / PTT / INR:13.4/31.0/1.1, ALT / AST:377/135, Alk Phos /
   T Bili:229/7.1, Fibrinogen:430 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:3.0 g/dL, LDH:695 IU/L, Ca++:9.8 mg/dL, Mg++:2.0 mg/dL, PO4:5.5
   mg/dL
   Cortisol: 30.2
   CXR [**2155-4-16**] @ 6pm:
   ET tube tip is 2.5 cm above the carina. Compared to prior study
   performed the same day earlier in the morning, bibasilar atelectasis
   have improved. There  are persistent low lung volumes. There is no
   pneumothorax or pleural effusion. All other lines and tip remain in
   standard position.
   Assessment and Plan
   56yM with refractory follicular lymphoma, day 15 s/p BEAM Auto [**Hospital 11923**]
   transferred to [**Hospital Unit Name 4**] from BMT with fulminant hepatic failure [**3-4**]
   [**Last Name (un) 3140**]-occlusive disease, requiring CVVH for ARF, ventilator support for
   hypoxic respiratory failure, and pressor support for hypotension, now
   with rising leukocytosis despite broa
   1) Leukocytosis: WBC count bumped from 24 to 29 despite vanc/cefepime
   coverage. Sputum gram stain w/ GPRs and GPCs. Possible sources include
   C diff (given long-term hospitalization, ileus, possible feculent
   aspiration), SBP, line infection, pancreatitis. Will hold on diagnostic
   para, given bleeding risk, plus pt is already on GNR coverage. Fever
   curve difficult to interpret, given [**Last Name (un) **]. No evidence of biliary
   infection on RUQ US. No evidence of PNA on CXR. ID following.
   -Continue Vanc/Cefepime, dosed for [**Last Name (un) **]
   -Add Flagyl for empiric C diff coverage
   -Send stool for C diff
   -Check lipase to r/o pancreatitis
   -f/u blood, sputum, urine cultures
   -Consider abd CT if no infectious source identified on labs/micro
   2) Hypotension: Pt requiring higher levels of pressor support despite
   weaning of sedation and PEEP. Most likely explanation is worsening
   liver failure with splanchnic vasodilation and third spacing leading to
   decreased effective circulating volume. Also possible that patient is
   septic, given metabolic acidosis and increased white count on
   antibiotics. No laboratory evidence of adrenal insufficiency.
   -Continue abx and infectious work-up, as above
   -Continue with efforts to down-titrate sedation, PEEP
   -Continue to down-titrate norepinephrine with goals of MAP>65, SBP>85
   3) Hypoxic Respiratory Failure: Pt intubated [**4-10**] for worsening hypoxia
   and respiratory fatigue. Pt remains intubated for a) restrictive
   physiology [**3-4**] ascites, b) mental status changes [**3-4**] encephalopathy, c)
   concern for volume overload. Pt switched from AC to CPAP+PSV on [**4-16**].
   Atelctasis improving (per [**2155-4-17**] CXR) w/o paracentesis. Pt able to
   maintain PaO2>90 on PEEP 12.
   -Decrease PEEP to 10 today
   -Serial ABGs w/ PEEP changes to ensure PaO2>85
   -Daily CXR
   4) Ileus: Resolving. +Stool with suppository overnight. Low stool
   output, high residuals, ?stool on suctioning, reduced bowel sounds all
   concerning for ileus in the setting of critical illness and ascites.
   Other possible explanations include C diff infection w/ toxic
   megacolon, or pancreatitis. KUB negative for obstruction.
   -C-diff and pancreatitis work-up, as above
   -Aggressive bowel regimen
   -Hold TFs until pt is moving bowels
   -Reglan for nausea/vomiting
 add to TPN
   5) Altered Mental Status: Stable. Pt able to open eyes but not respond
   to commands on second spontaneous awakening trial. Cerebral edema
   remains a concern, but more likely this is a toxic/metabolic
   encephalopathy [**3-4**] liver failure. Pt also uremic prior to [**Month/Day (2) **]. Also
   on sedation.
   -Increase lactulose to Q4H dosing
   -Consider adding rifaximin once pt tolerating TFs
   -Consider repeat head CT if mental status is worse on next SAT
   6) Hepatic Failure: Etiology is VOD [**3-4**] SCT. Possible underlying
   cirrhosis [**3-4**] EtOH history. Viral hepatitis unlikely, given negative
   labs to date. Pt presented w/ encephalopathy, massive ascites,
   coagulopathy, elevated LFTs. RUQ US on [**4-14**] demonstrated persistent
   reversal of flow in main portal vein. Ascites overall stable today,
   with bladder pressure ~20mmHg. Holding paracentesis for bleeding risk
   on defibrotide, plus no clear therpeutic benefit. Transaminases
   continuing to trend down; TBili stable at 7 today (peak 10). Hepatology
   following.
   -Continue defibrotide (560 mg IV Q6H) per protocol for VOD (targets for
   admin: Plt>30, Hct>30, INR<1.5, Fibrinogen>150)
   -Urusodiol via OGT
   -Q6H labs, as necessary, to monitor defibrotide parameters
   -f/u HSV serology
   -Monitor Bladder Pressure to r/o abdominal compartment syndrome
   -Paracentesis for persistently elevated (>25) bladder pressure
   7) Metabolic acidosis: pH trending down, 7.31 today, with bicarb of 16.
   PCO2 is 34, indicating respiratory compensation. Initial thought would
   be decrease tissue perfusion [**3-4**] hypotension/infection, but AG is 16.
   -Correct hypotension and pursue infectious work-up, as above
   -Discuss [**Month/Day (2) **] parameters w/ renal
   8) Oliguric ARF: Pt started on [**Month/Day (2) **] [**2155-4-12**] for worsening metabolic
   acidosis and worsening renal function. Etiology is ischemic ATN (urine
   sediment w/ muddy brown casts). Initial insult = hypotension, most
   likely [**3-4**] hepatorenal syndrome. Acidemia initially stable, now worse.
   UOP increased over last 24 hours. Renal is following.
   -Continue [**Last Name (LF) **], [**First Name3 (LF) 77**] renal recs
   -Trend pH, calcium, lytes, BUN/Cr, Is/Os
   -Q1H pupil checks to r/o herniation
   -Dose meds for [**First Name3 (LF) **]
   9) Hyperglycemia: Pt required 32 units regular SS insulin since
   midnight despite 25 units in TPN.
   -f/u TPN recs
 40 units Regular in TPN
   10) Follicular Lymphoma: Pt is s/p BEAM Auto SCT, day 15. Pt has
   engrafted. Received IV solumedrol x1 for anti-inflammatory effect.
   Received filgrastim until ANC>1000. Complicated social situation
   needs assistance with disability paperwork, wife is not working, one
   son has been expelled from school and is living away from home. BMT
   following. Social work is assisting with disability paperwork.
   -Acyclovir 400mg IV Q12H for ppx
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2155-4-16**] 06:00 PM 62 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2155-4-11**] 03:53 AM
   Dialysis Catheter - [**2155-4-12**] 09:36 AM
   Multi Lumen - [**2155-4-12**] 07:00 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI, H2-blocker
   VAP:  Bed @ 30-degree angle, mouth rinse
   Communication: Wife [**Name (NI) 1542**]
   [**Name (NI) 156**] status: Full
   Disposition: No current plan for dispo

2155-04-17 09:48:00 Physician Attending Progress Note
Chief Complaint:
   Hepatic Failure
   Renal Failure
   Respiratory Failure
   S/P BMT
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -PEEP decrease to 12 overnight with PO2=90 this morning
   -ETT advanced to 3.5cm above [**Last Name (un) 12046**]
   -Sputum with mixed flora
   -Random cortisol at 16 and [**Last Name (un) **] stim pursued
   -Patient off of all sedation opened eyes but did not follow commands.
   -CVVH off with filter clotting
   -Modest positive fluild  balance
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2155-4-16**] 08:15 AM
   Acyclovir - [**2155-4-16**] 07:36 PM
   Cefipime - [**2155-4-17**] 02:02 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Norepinephrine - 0.16 mcg/Kg/min
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2155-4-16**] 10:59 PM
   Fentanyl - [**2155-4-17**] 03:49 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia, with awakening
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2155-4-17**] 09:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 120 (106 - 126) bpm
   BP: 96/64(74) {84/59(68) - 103/72(82)} mmHg
   RR: 21 (14 - 23) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 98.2 kg
   Bladder pressure: 18 (18 - 22) mmHg
   Total In:
                                                                 10,370 mL
                                                                  3,399 mL
   PO:
   TF:
   IVF:
                                                                  9,182 mL
                                                                  2,736 mL
   Blood products:
   Total out:
                                                                  8,321 mL
                                                                  2,744 mL
   Urine:
                                                                     87 mL
                                                                     23 mL
   NG:
                                                                    150 mL
                                                                    210 mL
   Stool:
   Drains:
   Balance:
                                                                  2,049 mL
                                                                    655 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 888 (680 - 888) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   SpO2: 93%
   ABG: 7.31/34/90.[**Numeric Identifier 299**]/16/-8
   Ve: 17.1 L/min
   PaO2 / FiO2: 180
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: No(t) Soft, Distended, No(t) Tender: no stool output,
   -Bladder pressure==18 this morning
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   14.2 g/dL
   40 K/uL
   245 mg/dL
   3.0 mg/dL
   16 mEq/L
   4.5 mEq/L
   45 mg/dL
   104 mEq/L
   131 mEq/L
   41.1 %
   29.5 K/uL
        [image002.jpg]
                             [**2155-4-16**]  11:59 AM
                             [**2155-4-16**]  03:04 PM
                             [**2155-4-16**]  06:23 PM
                             [**2155-4-16**]  06:35 PM
                             [**2155-4-16**]  08:47 PM
                             [**2155-4-16**]  10:19 PM
                             [**2155-4-17**]  12:03 AM
                             [**2155-4-17**]  12:43 AM
                             [**2155-4-17**]  03:51 AM
                             [**2155-4-17**]  07:57 AM
   WBC
   29.5
   Hct
   41.1
   Plt
   36
   37
   40
   Cr
   2.9
   3.0
   TCO2
   19
   20
   19
   19
   18
   Glucose
   273
   256
   245
   Other labs: PT / PTT / INR:13.4/31.0/1.1, ALT / AST:377/135, Alk Phos /
   T Bili:229/7.1, Differential-Neuts:83.0 %, Band:3.0 %, Lymph:4.0 %,
   Mono:3.0 %, Eos:0.0 %, Fibrinogen:430 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:3.0 g/dL, LDH:695 IU/L, Ca++:9.8 mg/dL, Mg++:2.0 mg/dL, PO4:5.5
   mg/dL
   Fluid analysis / Other labs: AG-11
   [**Last Name (un) 567**] Stim--30 at pre-stim levels
   Imaging: CXR-mild improvement in [**Hospital1 **]-basilar atelectatsis at the end of
   yesterday. ETT and CVL in good positoin.
   Assessment and Plan
   61 yo male now at day #15 following BMT with course complicated by VOD
   and hepatic failure now with persistent renal failure, respiratory
   failure but have been able to wean PEEP modestly and have increased
   stability of oxygenation with bladder pressure remaining <20 across
   time.
   1) HYPOTENSION (NOT SHOCK)-
   -Vanco/Cefepime for possible infectious source of sepsis
   -Will continue with levophed at doses to maintain MAP=75
   -Cortisol stim will be of interest but patient with quite reasonable
   baseline cortisol at 16 and 30 across the day.
   -Concerning with increased WBC across time but do not have evidence of
   new pathogen.
   2)Respiratory Failure-He has wean to PSV with PEEP decrease to 12 and
   FIO2 at 0.5.  His CXR is consistent with some significant chest wall
   restriction and compromise.  To do this we may well have to move to tap
   of ascites if we are unable to achieve stability of lung volumes with
   further decrease in PEEP.
   -Decrease PEEP to 10
   -Continue to down-titrate sedating medications
   -If we are limited with recurrent collapse and hypoxia will have to
   move to tap of ascites
   -Minimal evidence of pulmonary infection.
   3)Hepatic Failure- He has persistent alteration in mental status but is
   at a point where he has significant autonomic activation with
   stimulation suggesting his level of sedation may well be near reaonable
   minimum.
   -Continue with lactulose and minimization of sedating medications.
   -Will continue with ursadiol
   -Continue with Defibrotide for possible treatment to resolution of VOD
   -Mental status continues to improve with sedation wean to this point
   4)Acute Renal Failure-
   -Continue with CVVH and will look to keep lytes and HCO3- normalized
   -Overall fluid balance goals are to maintain even fluid balance
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2155-4-16**] 06:00 PM 62 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2155-4-11**] 03:53 AM
   Dialysis Catheter - [**2155-4-12**] 09:36 AM
   Multi Lumen - [**2155-4-12**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 36 minutes

2155-04-18 07:13:00 Physician Resident Progress Note
Chief Complaint: altered mental status
   24 Hour Events:
   -Sputum Gram stain: Gram negative rods & Gram positive cocci
   -Increased insulin in TPN & added Reglan
   -Lactulose d/c'd per BMT recs given diarrhea
   -Flagyl added given leukocytosis and hypotension
   -Cdiff sent, BMT requested starting empiric PO Vanc
   -Bladder pressure improved to 18 once RN drained 1L of residuals from
   OG tube.
   - IR U/Sd abdomen and said fluid collection too small to drain so no
   para done.
   -1u PLTs given prior to PM defibrotide dose (PLTs 25)--> 94.
   -Pt with clear vesicles over trunk, likely [**3-4**] fluid overload, will
   monitor.
   -[**Last Name (un) 567**] stim test normal
   -Spoke to renal re: worsening met acidosis. Will change bath in attempt
   to improve
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Acyclovir - [**2155-4-17**] 06:17 PM
   Cefipime - [**2155-4-18**] 02:00 AM
   Vancomycin - [**2155-4-18**] 02:00 AM
   Metronidazole - [**2155-4-18**] 03:11 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Propofol - 12 mcg/Kg/min
   Fentanyl (Concentrate) - 25 mcg/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Propofol - [**2155-4-18**] 01:02 AM
   Fentanyl - [**2155-4-18**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-4-18**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98
   HR: 134 (106 - 141) bpm
   BP: 119/67(81) {72/52(59) - 154/90(108)} mmHg
   RR: 19 (10 - 25) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 108.9 kg (admission): 98.2 kg
    Bladder pressure: 19 (13 - 26) mmHg
   Total In:
                                                                 10,295 mL
                                                                  3,117 mL
   PO:
   TF:
   IVF:
                                                                  8,220 mL
                                                                  2,682 mL
   Blood products:
                                                                    401 mL
   Total out:
                                                                  8,713 mL
                                                                  2,642 mL
   Urine:
                                                                     59 mL
                                                                     40 mL
   NG:
                                                                  1,460 mL
                                                                    160 mL
   Stool:
   Drains:
   Balance:
                                                                  1,582 mL
                                                                    475 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 851 (826 - 983) mL
   PS : 10 cmH2O
   RR (Spontaneous): 16
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 99%
   ABG: 7.41/34/111/20/-1
   Ve: 13.8 L/min
   PaO2 / FiO2: 222
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   71 K/uL
   12.2 g/dL
   164 mg/dL
   3.0 mg/dL
   20 mEq/L
   4.0 mEq/L
   47 mg/dL
   95 mEq/L
   130 mEq/L
   34.8 %
   20.6 K/uL
        [image002.jpg]
                             [**2155-4-17**]  12:10 PM
                             [**2155-4-17**]  12:22 PM
                             [**2155-4-17**]  03:49 PM
                             [**2155-4-17**]  06:06 PM
                             [**2155-4-17**]  06:30 PM
                             [**2155-4-17**]  08:29 PM
                             [**2155-4-18**]  12:06 AM
                             [**2155-4-18**]  12:28 AM
                             [**2155-4-18**]  04:00 AM
                             [**2155-4-18**]  04:13 AM
   WBC
   20.6
   Hct
   34.8
   Plt
   25
   94
   71
   Cr
   3.2
   3.0
   3.0
   TCO2
   16
   16
   20
   22
   Glucose
   277
   223
   187
   164
   Other labs: PT / PTT / INR:13.8/31.0/1.2, ALT / AST:245/78, Alk Phos /
   T Bili:195/5.8, Amylase / Lipase:/21, Differential-Neuts:83.0 %,
   Band:3.0 %, Lymph:4.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:430 mg/dL,
   Lactic Acid:2.0 mmol/L, Albumin:3.0 g/dL, LDH:486 IU/L, Ca++:9.8 mg/dL,
   Mg++:1.7 mg/dL, PO4:4.8 mg/dL
   Imaging: CXR [**4-18**]: Pending
   Abdominal U/S [**4-17**]: No read
   Microbiology: C. diff [**4-17**]: negative
   Urine cx [**4-16**]: negative
   Blood cx [**Date range (1) 12069**]: pending
   Assessment and Plan
   56yM with refractory follicular lymphoma, day 15 s/p BEAM Auto [**Hospital 11923**]
   transferred to [**Hospital Unit Name 4**] from BMT with fulminant hepatic failure [**3-4**]
   [**Last Name (un) 3140**]-occlusive disease, requiring CVVH for ARF, ventilator support for
   hypoxic respiratory failure, and pressor support for hypotension, now
   with rising leukocytosis despite broa
   1) Leukocytosis: WBC count bumped from 24 to 29 despite vanc/cefepime
   coverage. Sputum gram stain w/ GPRs and GPCs. Possible sources include
   C diff (given long-term hospitalization, ileus, possible feculent
   aspiration), SBP, line infection, pancreatitis. Will hold on diagnostic
   para, given bleeding risk, plus pt is already on GNR coverage. Fever
   curve difficult to interpret, given [**Last Name (un) **]. No evidence of biliary
   infection on RUQ US. No evidence of PNA on CXR. ID following.
   -Continue Vanc/Cefepime, dosed for [**Last Name (un) **]
   -Add Flagyl for empiric C diff coverage
   -Send stool for C diff
   -Check lipase to r/o pancreatitis
   -f/u blood, sputum, urine cultures
   -Consider abd CT if no infectious source identified on labs/micro
   2) Hypotension: Pt requiring higher levels of pressor support despite
   weaning of sedation and PEEP. Most likely explanation is worsening
   liver failure with splanchnic vasodilation and third spacing leading to
   decreased effective circulating volume. Also possible that patient is
   septic, given metabolic acidosis and increased white count on
   antibiotics. No laboratory evidence of adrenal insufficiency.
   -Continue abx and infectious work-up, as above
   -Continue with efforts to down-titrate sedation, PEEP
   -Continue to down-titrate norepinephrine with goals of MAP>65, SBP>85
   3) Hypoxic Respiratory Failure: Pt intubated [**4-10**] for worsening hypoxia
   and respiratory fatigue. Pt remains intubated for a) restrictive
   physiology [**3-4**] ascites, b) mental status changes [**3-4**] encephalopathy, c)
   concern for volume overload. Pt switched from AC to CPAP+PSV on [**4-16**].
   Atelctasis improving (per [**2155-4-17**] CXR) w/o paracentesis. Pt able to
   maintain PaO2>90 on PEEP 12.
   -Decrease PEEP to 10 today
   -Serial ABGs w/ PEEP changes to ensure PaO2>85
   -Daily CXR
   4) Ileus: Resolving. +Stool with suppository overnight. Low stool
   output, high residuals, ?stool on suctioning, reduced bowel sounds all
   concerning for ileus in the setting of critical illness and ascites.
   Other possible explanations include C diff infection w/ toxic
   megacolon, or pancreatitis. KUB negative for obstruction.
   -C-diff and pancreatitis work-up, as above
   -Aggressive bowel regimen
   -Hold TFs until pt is moving bowels
   -Reglan for nausea/vomiting
 add to TPN
   5) Altered Mental Status: Stable. Pt able to open eyes but not respond
   to commands on second spontaneous awakening trial. Cerebral edema
   remains a concern, but more likely this is a toxic/metabolic
   encephalopathy [**3-4**] liver failure. Pt also uremic prior to [**Month/Day (2) **]. Also
   on sedation.
   -Increase lactulose to Q4H dosing
   -Consider adding rifaximin once pt tolerating TFs
   -Consider repeat head CT if mental status is worse on next SAT
   6) Hepatic Failure: Etiology is VOD [**3-4**] SCT. Possible underlying
   cirrhosis [**3-4**] EtOH history. Viral hepatitis unlikely, given negative
   labs to date. Pt presented w/ encephalopathy, massive ascites,
   coagulopathy, elevated LFTs. RUQ US on [**4-14**] demonstrated persistent
   reversal of flow in main portal vein. Ascites overall stable today,
   with bladder pressure ~20mmHg. Holding paracentesis for bleeding risk
   on defibrotide, plus no clear therpeutic benefit. Transaminases
   continuing to trend down; TBili stable at 7 today (peak 10). Hepatology
   following.
   -Continue defibrotide (560 mg IV Q6H) per protocol for VOD (targets for
   admin: Plt>30, Hct>30, INR<1.5, Fibrinogen>150)
   -Urusodiol via OGT
   -Q6H labs, as necessary, to monitor defibrotide parameters
   -f/u HSV serology
   -Monitor Bladder Pressure to r/o abdominal compartment syndrome
   -Paracentesis for persistently elevated (>25) bladder pressure
   7) Metabolic acidosis: pH trending down, 7.31 today, with bicarb of 16.
   PCO2 is 34, indicating respiratory compensation. Initial thought would
   be decrease tissue perfusion [**3-4**] hypotension/infection, but AG is 16.
   -Correct hypotension and pursue infectious work-up, as above
   -Discuss [**Month/Day (2) **] parameters w/ renal
   8) Oliguric ARF: Pt started on [**Month/Day (2) **] [**2155-4-12**] for worsening metabolic
   acidosis and worsening renal function. Etiology is ischemic ATN (urine
   sediment w/ muddy brown casts). Initial insult = hypotension, most
   likely [**3-4**] hepatorenal syndrome. Acidemia initially stable, now worse.
   UOP increased over last 24 hours. Renal is following.
   -Continue [**Last Name (LF) **], [**First Name3 (LF) 77**] renal recs
   -Trend pH, calcium, lytes, BUN/Cr, Is/Os
   -Q1H pupil checks to r/o herniation
   -Dose meds for [**First Name3 (LF) **]
   9) Hyperglycemia: Pt required 32 units regular SS insulin since
   midnight despite 25 units in TPN.
   -f/u TPN recs
 40 units Regular in TPN
   10) Follicular Lymphoma: Pt is s/p BEAM Auto SCT, day 15. Pt has
   engrafted. Received IV solumedrol x1 for anti-inflammatory effect.
   Received filgrastim until ANC>1000. Complicated social situation
   needs assistance with disability paperwork, wife is not working, one
   son has been expelled from school and is living away from home. BMT
   following. Social work is assisting with disability paperwork.
   -Acyclovir 400mg IV Q12H for ppx
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2155-4-17**] 05:47 PM 62 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2155-4-11**] 03:53 AM
   Dialysis Catheter - [**2155-4-12**] 09:36 AM
   Multi Lumen - [**2155-4-12**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2155-04-18 11:27:00 Physician Attending Progress Note
Chief Complaint: Renal Failure
   Respiratory Failure
   Hepatic Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2155-4-17**] 04:00 PM--small loculated peritoneal fluid
   -Patient with normal [**Last Name (un) **] stim test
   -CVVH changed to better control metabolic acidosis which is presumed
   related to renal failure
   -Patient with decreased in WBC count
   -Patient with decrease in WBC count
   -Lipase was normal and C. diff was negative
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Cefipime - [**2155-4-18**] 02:00 AM
   Metronidazole - [**2155-4-18**] 03:11 AM
   Acyclovir - [**2155-4-18**] 07:00 AM
   Vancomycin - [**2155-4-18**] 09:34 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Propofol - 14 mcg/Kg/min
   Fentanyl (Concentrate) - 50 mcg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Propofol - [**2155-4-18**] 01:02 AM
   Fentanyl - [**2155-4-18**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2155-4-18**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98.1
   HR: 118 (106 - 141) bpm
   BP: 91/56(66) {88/52(63) - 154/90(108)} mmHg
   RR: 11 (10 - 25) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 108.9 kg (admission): 98.2 kg
   Bladder pressure: 19 (13 - 20) mmHg
   Total In:
                                                                 10,295 mL
                                                                  4,826 mL
   PO:
   TF:
   IVF:
                                                                  8,220 mL
                                                                  4,135 mL
   Blood products:
                                                                    401 mL
   Total out:
                                                                  8,713 mL
                                                                  4,431 mL
   Urine:
                                                                     59 mL
                                                                     40 mL
   NG:
                                                                  1,460 mL
                                                                    260 mL
   Stool:
   Drains:
   Balance:
                                                                  1,582 mL
                                                                    395 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 835 (826 - 983) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: 7.41/34/89.[**Numeric Identifier 299**]/19/-1
   Ve: 16.9 L/min
   PaO2 / FiO2: 223
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.2 g/dL
   62 K/uL
   193 mg/dL
   3.0 mg/dL
   19 mEq/L
   4.1 mEq/L
   47 mg/dL
   100 mEq/L
   128 mEq/L
   34.8 %
   20.6 K/uL
        [image002.jpg]
                             [**2155-4-17**]  06:06 PM
                             [**2155-4-17**]  06:30 PM
                             [**2155-4-17**]  08:29 PM
                             [**2155-4-18**]  12:06 AM
                             [**2155-4-18**]  12:28 AM
                             [**2155-4-18**]  04:00 AM
                             [**2155-4-18**]  04:13 AM
                             [**2155-4-18**]  08:50 AM
                             [**2155-4-18**]  09:50 AM
                             [**2155-4-18**]  10:03 AM
   WBC
   20.6
   Hct
   34.8
   Plt
   94
   71
   62
   Cr
   3.0
   3.0
   TCO2
   16
   20
   22
   22
   Glucose
   223
   187
   164
   193
   Other labs: PT / PTT / INR:14.3/31.0/1.2, ALT / AST:245/78, Alk Phos /
   T Bili:195/5.8, Amylase / Lipase:/21, Differential-Neuts:83.0 %,
   Band:3.0 %, Lymph:4.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:430 mg/dL,
   Lactic Acid:2.0 mmol/L, Albumin:3.0 g/dL, LDH:486 IU/L, Ca++:9.8 mg/dL,
   Mg++:1.7 mg/dL, PO4:4.8 mg/dL
   Imaging: CXR-Low lung volumes, atelectasis at left base, no focal
   infiltrates
   Assessment and Plan
   56 yo male s/p BMT complicated by VOD and now with persistent
   respiratory, renal and hepatic failure.
   1)Respiratory Failure
Very impressive Ve at 20-21 lpm.  This is in part
   attirbutable to metabolic acidosis, this is in part attributable to
   respiratory alkalosis but there is a substantial component of dead
   space ventilation here.  This may be most important limiting factor in
   terms of capacity to wean off of mechanical ventilation at this time.
   -Will check Vd/Vt
   -Will continue with PSV
   -Wean of FIO2 to 40% with PEEP at 10
   -Will hold on PEEP at this time but decrease as abdomen improves
   2)Hepatic Failure/VOD-
   -Defibritide
   -Lactulose held
   -Follow abdominal exam
   3)Sepsis-We have only very limited findings of ascitic fluid
   -Cefepime/Flagyl
   -Pressors are decreased
   -Abdomen is less distended, he has decreased bladder pressure
   -Will continue with broad spectrum antibiotics and C. Diff treatment at
   this time
   -Follow stool cultures
   -Wean levophed as possible
   4) RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   -Continue with CVVH
   -Will adjust as needed based upon lytes
   6) TRANSPLANT, BONE MARROW (BMT)
   -Continue to coordinate care with BMT team for specific post transplant
   care and future intervnetions.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2155-4-17**] 05:47 PM 62 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2155-4-11**] 03:53 AM
   Dialysis Catheter - [**2155-4-12**] 09:36 AM
   Multi Lumen - [**2155-4-12**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2155-04-19 08:15:00 Physician Resident Progress Note
Chief Complaint: AMS
   24 Hour Events:
   - C. Diff negative, d/c'ed PO vanc
   - had episode of sustained VT broke on its own in the AM
   - renal recommended additional potassium, will adjust CVVH
   - ID: continue abx
   - BMT: recommended c. jejuni, stool studies
   - dead space: 51%
   - TG's sent due to propofol
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2155-4-18**] 09:34 AM
   Cefipime - [**2155-4-19**] 02:03 AM
   Metronidazole - [**2155-4-19**] 03:11 AM
   Acyclovir - [**2155-4-19**] 06:30 AM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Propofol - 20 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Norepinephrine - 0.18 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Fentanyl - [**2155-4-19**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-4-19**] 08:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37
C (98.6
   HR: 123 (108 - 137) bpm
   BP: 88/58(65) {81/52(61) - 132/83(96)} mmHg
   RR: 12 (9 - 17) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 108.9 kg (admission): 98.2 kg
    Bladder pressure: 19 (14 - 19) mmHg
   Total In:
                                                                 10,583 mL
                                                                  3,855 mL
   PO:
   TF:
   IVF:
                                                                  9,094 mL
                                                                  3,348 mL
   Blood products:
   Total out:
                                                                  9,537 mL
                                                                  3,092 mL
   Urine:
                                                                     40 mL
                                                                      5 mL
   NG:
                                                                    460 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  1,046 mL
                                                                    763 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 925 (583 - 925) mL
   PS : 10 cmH2O
   RR (Spontaneous): 12
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 95%
   ABG: 7.43/34/91.[**Numeric Identifier 253**]/19/0
   Ve: 11.7 L/min
   PaO2 / FiO2: 230
   Physical Examination
   General: Intubated, sedated, unresponsive to commands
   HEENT: PERRLA 2mm
1mm (R more sluggish than L); sclerae icteric
   Neck: Tunneled CVL on R, no swelling or erythema at site
   Lungs: Rhonchorous breath sounds in upper lung fields, otherwise clear
   CV: RRR nl S1, S2, no murmurs
   Abdomen: Tense, mildly distended; no BS
   GU: +scrotal edema; +foley
   Ext: Warm, well-perfused; DPs 2+ on L, 1+ on R; +pitting edema
   Labs / Radiology
   63 K/uL
   12.9 g/dL
   117 mg/dL
   2.9 mg/dL
   19 mEq/L
   4.2 mEq/L
   47 mg/dL
   96 mEq/L
   132 mEq/L
   36.7 %
   23.1 K/uL
        [image002.jpg]
                             [**2155-4-18**]  09:50 AM
                             [**2155-4-18**]  10:03 AM
                             [**2155-4-18**]  02:19 PM
                             [**2155-4-18**]  04:04 PM
                             [**2155-4-18**]  04:23 PM
                             [**2155-4-18**]  06:14 PM
                             [**2155-4-18**]  08:57 PM
                             [**2155-4-18**]  09:27 PM
                             [**2155-4-19**]  02:51 AM
                             [**2155-4-19**]  03:03 AM
   WBC
   23.2
   21.5
   23.1
   Hct
   36.9
   35.1
   36.7
   Plt
   68
   72
   70
   63
   Cr
   2.9
   2.8
   2.9
   TCO2
   22
   21
   22
   23
   23
   Glucose
   193
   142
   138
   117
   Other labs: PT / PTT / INR:14.7/33.9/1.3, ALT / AST:188/70, Alk Phos /
   T Bili:220/6.4, Amylase / Lipase:/21, Differential-Neuts:83.0 %,
   Band:3.0 %, Lymph:4.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:439 mg/dL,
   Lactic Acid:2.0 mmol/L, Albumin:3.0 g/dL, LDH:486 IU/L, Ca++:9.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.8 mg/dL
   Imaging: CXR [**4-18**]: FINDINGS: As compared to the previous radiograph,
   the monitoring and support
   devices are in unchanged position. Unchanged low lung volumes,
   unchanged
   borderline size of the cardiac silhouette. No evidence of newly
   occurred
   focal parenchymal opacities suggesting pneumonia. Constant retrocardiac
   atelectasis. No evidence of pleural effusion. No evidence of pulmonary
   edema.
   Microbiology: C. diff [**4-18**]: negative
   Assessment and Plan
   56yM with refractory follicular lymphoma, day 15 s/p BEAM Auto [**Hospital 11923**]
   transferred to [**Hospital Unit Name 4**] from BMT with fulminant hepatic failure [**3-4**]
   [**Last Name (un) 3140**]-occlusive disease, requiring CVVH for ARF, ventilator support for
   hypoxic respiratory failure, and pressor support for hypotension, now
   with rising leukocytosis despite broa
   1) Leukocytosis: Afebrile over past 24 hours and WBC count 23.1 today
   up from 20.6 yesterday on Vanc/Cefepime/Flagyl. Sputum gram stain from
   [**4-16**] demonstrated GPRs and GPCs, despite a lack of evidence for PNA on
   CXR. C. diff negative. Urine culture negative. RUQ U/S was unremarkable
   and abdominal U/S demonstrated insufficient ascites for paracentesis. A
   serum Lipase was normal (21). No obvious signs of line infection. ID
   following.
   -Continue Vanc/Cefepime/Flagyl, dosed for [**Month/Year (2) **]
   -f/u blood cx
   -f/u sputum speciation/sensitivities
   - Reconsider abdominopelvic CT to r/o abscess
   2) Hypoxic Respiratory Failure: Pt intubated [**4-10**], remains intubated
   for mental status changes [**3-4**] encephalopathy and initial concern for
   volume overload is unsupported by a lack of ascites on ultrasound. PEEP
   currently at 10, sat
ing 97% on 40% FiO2. Atelectasis improving
   radiographically. Minute ventilation remains elevated, but dead space
   only ~50%.
   - Attempt to wean pressure support as tolerates
   - Serial ABGs w/ changes in vent settings
   - Daily CXR
   3) Hypotension: Norepi increased to 0.18mcg/kg/min since yesterday as
   patient requiring increased sedation with Propofol that results in
   worsening hypotension. VOD appears stable based on LFT
s,  negative
   [**Last Name (un) **] stim test, continuing treatment for possible sepsis. TG
s this
   morning are elevated to 408.
   -Consider switching sedation to Midazolam for improved sedation & given
   TG levels, acknowledging liver dysfunction
   -Continue abx and infectious work-up, as above
   -Continue with efforts to down-titrate sedation, PEEP
   -Continue to down-titrate norepinephrine with goals of MAP>65, SBP>85
   4) Altered Mental Status: Stable. Pt does not respond to commands.
   Cerebral edema remains a concern, but more likely this is a
   toxic/metabolic encephalopathy [**3-4**] liver failure and uremia on
   sedation.
   - Consider restarting Lactulose as patient without bowel movements
   yesterday
   - Consider adding rifaximin once pt tolerating TFs
   - Consider repeat head CT if mental status does not improve with
   improving liver function
   5) Ileus: Patient with diarrhea yesterday that was C. diff negative.
   KUB negative for obstruction.  BMT requested holding Lactulose [**3-4**]
   diarrhea, but patient still without bowel sounds and with significant
   OG output, suggesting ongoing ileus.
   - Hold PO Vancomycin
   - Continue Reglan at 15mg in TPN
   6) Hepatic Failure: Etiology is VOD [**3-4**] SCT with possible underlying
   cirrhosis [**3-4**] EtOH history. Viral hepatitis unlikely, given negative
   labs to date. Pt presented w/ encephalopathy, coagulopathy, elevated
   LFTs. RUQ US on [**4-14**] demonstrated persistent reversal of flow in main
   portal vein. Bladder pressure ~20mmHg, improved to teens with draining
   1L of OG output. Transaminases continuing to trend down; TBili down to
   5.8 today. Hepatology following.
   -Continue Defibrotide (560 mg IV Q6H) per protocol for VOD (targets for
   admin: Plt>30, Hct>30, INR<1.5, Fibrinogen>150)
   -Urusodiol via OGT
   -Q6H labs, as necessary, to monitor defibrotide parameters
   -f/u HSV serology
   -Monitor Bladder Pressure to r/o abdominal compartment syndrome
   7) Metabolic acidosis: Stable. pH remains 7.31 today, with bicarb of 20
   & pCO2 31, indicating respiratory compensation. AG 15.
   -Correct hypotension and pursue infectious work-up, as above
   -Discuss [**Month/Year (2) **] parameters w/ renal
   8) Oliguric ARF: Pt started on [**Month/Year (2) **] [**2155-4-12**] for worsening metabolic
   acidosis and worsening renal function. Etiology is ischemic ATN (urine
   sediment w/ muddy brown casts). Initial insult = hypotension, most
   likely [**3-4**] hepatorenal syndrome. Acidemia stable. Renal is following.
   -Continue [**Last Name (LF) **], [**First Name3 (LF) 77**] renal recs
   -Trend pH, calcium, lytes, BUN/Cr, Is/Os
   -Q1H pupil checks to r/o herniation
   -Dose meds for [**First Name3 (LF) **]
   9) Thrombocytopenia: Patient received 1u platelets with bump to 94, now
   downtrending to 71. LFT
s & coags are improving, low suspicion for DIC,
   likely medication effect. Not on Heparin.
   - Trend PLT
s q6H
   - Transfuse for PLT count <50K given ongoing CVVH
   10) Hyperglycemia: Insulin in TPN increased to 40u yesterday.
   - Regular insulin sliding scale
   - f/u TPN recs
   11) Follicular Lymphoma: Pt is s/p BEAM Auto SCT, day 16. Complicated
   social situation
 pt needs assistance with disability paperwork, wife
   is not working, one son has been expelled from school and is living
   away from home. BMT following. Social work is assisting with disability
   paperwork.
   -Acyclovir 400mg IV Q12H for ppx
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2155-4-18**] 05:49 PM 62 mL/hour
   Glycemic Control:  Insulin in TPN
   Lines:
   Arterial Line - [**2155-4-11**] 03:53 AM
   Dialysis Catheter - [**2155-4-12**] 09:36 AM
   Multi Lumen - [**2155-4-12**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: pending clinical improvement

2155-04-19 10:10:00 Physician Attending Progress Note
Chief Complaint: Renal Failure
   Respiratory Failure
   Hepatic Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   No further ventricular tachycardia
   K increased on CVVH
   Hypotensive overnight requiring 500cc IVF challenge with response
   Triglycerides 408 on propofol
   Positive fluid balance
   Patient unable to provide history: Sedated, intubated
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Cefipime - [**2155-4-19**] 02:03 AM
   Metronidazole - [**2155-4-19**] 03:11 AM
   Acyclovir - [**2155-4-19**] 06:30 AM
   Vancomycin - [**2155-4-19**] 08:00 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Norepinephrine - 0.2 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Propofol - 13.6 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2155-4-19**] 08:00 AM
   Fentanyl - [**2155-4-19**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Gastrointestinal: no BM over last 24 hours
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2155-4-19**] 10:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37
C (98.6
   HR: 138 (108 - 138) bpm
   BP: 133/83(97) {80/52(61) - 133/83(97)} mmHg
   RR: 20 (9 - 20) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 108.9 kg (admission): 98.2 kg
   Bladder pressure: 19 (14 - 19) mmHg
   Total In:
                                                                 10,583 mL
                                                                  4,710 mL
   PO:
   TF:
   IVF:
                                                                  9,094 mL
                                                                  4,106 mL
   Blood products:
   Total out:
                                                                  9,537 mL
                                                                  3,797 mL
   Urine:
                                                                     40 mL
                                                                      5 mL
   NG:
                                                                    460 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  1,046 mL
                                                                    913 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 925 (583 - 925) mL
   PS : 10 cmH2O
   RR (Spontaneous): 12
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: 7.43/37/95.[**Numeric Identifier 252**]/19/0
   Ve: 11.7 L/min
   PaO2 / FiO2: 238
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Distended, tense
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, scrotal edema, anasarca
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   12.9 g/dL
   63 K/uL
   117 mg/dL
   2.9 mg/dL
   19 mEq/L
   4.2 mEq/L
   47 mg/dL
   96 mEq/L
   132 mEq/L
   36.7 %
   23.1 K/uL
        [image002.jpg]
                             [**2155-4-18**]  10:03 AM
                             [**2155-4-18**]  02:19 PM
                             [**2155-4-18**]  04:04 PM
                             [**2155-4-18**]  04:23 PM
                             [**2155-4-18**]  06:14 PM
                             [**2155-4-18**]  08:57 PM
                             [**2155-4-18**]  09:27 PM
                             [**2155-4-19**]  02:51 AM
                             [**2155-4-19**]  03:03 AM
                             [**2155-4-19**]  09:10 AM
   WBC
   23.2
   21.5
   23.1
   Hct
   36.9
   35.1
   36.7
   Plt
   68
   72
   70
   63
   Cr
   2.9
   2.8
   2.9
   TCO2
   22
   21
   22
   23
   23
   25
   Glucose
   142
   138
   117
   Other labs: PT / PTT / INR:14.7/33.9/1.3, ALT / AST:188/70, Alk Phos /
   T Bili:220/6.4, Amylase / Lipase:/21, Differential-Neuts:83.0 %,
   Band:3.0 %, Lymph:4.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:439 mg/dL,
   Lactic Acid:2.0 mmol/L, Albumin:3.0 g/dL, LDH:486 IU/L, Ca++:9.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK):  Responsive to IVF challenge overnight.
   Running at least even to slightly positive fluid status.  Empirically
   covered with vanco/cefipime/flagyl for possible spesis.  Follow-up on
   culture data. Propofol may be contributing, has been on this for
   several days.  Would favor discontinuing propofol (also elevated
   triglycerides).  Will increase fentanyl, start low dose versed for
   sedation.
 ALTERATION IN NUTRITION:  TPN with insulin and lipids.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**]):  Respiratory failure in
   setting of altered mental status secondary to hepatic encephalopathy
   and uremia.  Stable on current settings.  No secretions.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  Secondary to ATN.
   Possible hepatorenal syndrome.  On CVVH, increased K in setting of
   arrythmias yesterday, no further Vtach documented overnight.  Renal
   consultants following along.
 THROMBOCYTOPENIA:  Following counts, transfuse as per defibritide
   protocol.
 HEPATIC FAILURE AND ENCEPHALOPATHY:  Secondary to VOD.  LFTs stable
   from yesterday.  Hepatology following.  Continue defibritide/ursidiol.
   Monitoring bladder pressures.
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID):
 TRANSPLANT, BONE MARROW (BMT):  Day #17, on acyclovir prophylaxis.
 ANEMIA:  Stable hct.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2155-4-18**] 05:49 PM 62 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Insulin in TPN
   Lines:
   Arterial Line - [**2155-4-11**] 03:53 AM
   Dialysis Catheter - [**2155-4-12**] 09:36 AM
   Multi Lumen - [**2155-4-12**] 07:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2155-04-20 07:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - asked renal if he can get contrast --> it is okay but will have an
   affect on the kidneys; scan deferred due to patient's instability.
   - Plan for u/s guided para at 9:30 AM. IR fellow ([**Doctor Last Name **]) will come in
   AM.  will hold am dose dofibritide
   - BMT asked to restart PO vanco for empiric c. diff
   - propofol stopped due to hypotension; resumed versed
   - got 500cc bolus for BP x 3
   - resumed lactulose
   - trial of AC and patient appeared more comfortable
   - increased levophed to 0.28 due to ongoing hypotension
   - bladder pressure 26 in the PM
   - called wife, she is aware of plan for para tomorrow
   - becoming more hyponatremic
   - becomes hypertensive and tachycardic with decreased sedation, but
   then requires pressors/fluid with increased sedation
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Cefipime - [**2155-4-20**] 01:55 AM
   Vancomycin - [**2155-4-20**] 01:55 AM
   Metronidazole - [**2155-4-20**] 04:14 AM
   Acyclovir - [**2155-4-20**] 05:53 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Norepinephrine - 0.2 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2155-4-19**] 08:00 AM
   Fentanyl - [**2155-4-20**] 12:27 AM
   Midazolam (Versed) - [**2155-4-20**] 01:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-4-20**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.4
C (97.6
   HR: 119 (108 - 140) bpm
   BP: 96/60(70) {80/54(64) - 153/88(106)} mmHg
   RR: 20 (11 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 108.9 kg (admission): 98.2 kg
    CVP: 15 (13 - 15)mmHg
   Bladder pressure: 24 (18 - 25) mmHg
   Total In:
                                                                 11,865 mL
                                                                  2,660 mL
   PO:
   TF:
   IVF:
                                                                 10,226 mL
                                                                  2,158 mL
   Blood products:
   Total out:
                                                                  9,108 mL
                                                                  2,288 mL
   Urine:
                                                                     20 mL
                                                                     18 mL
   NG:
                                                                    400 mL
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                  2,757 mL
                                                                    372 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 776 (776 - 925) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.36/35/107/18/-4
   Ve: 12.6 L/min
   PaO2 / FiO2: 268
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   62 K/uL
   12.9 g/dL
   123 mg/dL
   2.8 mg/dL
   18 mEq/L
   4.4 mEq/L
   43 mg/dL
   99 mEq/L
   130 mEq/L
   37.9 %
   18.5 K/uL
        [image002.jpg]
                             [**2155-4-19**]  08:36 AM
                             [**2155-4-19**]  09:10 AM
                             [**2155-4-19**]  02:11 PM
                             [**2155-4-19**]  02:12 PM
                             [**2155-4-19**]  03:03 PM
                             [**2155-4-19**]  08:25 PM
                             [**2155-4-19**]  09:23 PM
                             [**2155-4-20**]  03:00 AM
                             [**2155-4-20**]  03:12 AM
                             [**2155-4-20**]  06:44 AM
   WBC
   22.6
   18.5
   Hct
   36.1
   37.9
   Plt
   71
   59
   59
   62
   Cr
   2.9
   2.8
   2.8
   TCO2
   25
   23
   23
   23
   21
   Glucose
   129
   134
   139
   123
   Other labs: PT / PTT / INR:15.6/36.1/1.4, ALT / AST:132/56, Alk Phos /
   T Bili:201/5.3, Amylase / Lipase:/21, Differential-Neuts:80.0 %,
   Band:4.0 %, Lymph:3.0 %, Mono:10.0 %, Eos:0.0 %, Fibrinogen:567 mg/dL,
   Lactic Acid:1.7 mmol/L, Albumin:2.5 g/dL, LDH:446 IU/L, Ca++:9.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.8 mg/dL
   Imaging: CXR: no significant interval change.
   Microbiology: Blood, Urine, Sputum cltx pending.
   Assessment and Plan
   56yM with refractory follicular lymphoma, day 17 s/p BEAM Auto [**Hospital 11923**]
   transferred to [**Hospital Unit Name 4**] from BMT with fulminant hepatic failure [**3-4**]
   [**Last Name (un) 3140**]-occlusive disease, requiring CVVH for ARF, ventilator support for
   hypoxic respiratory failure, and pressor support for hypotension, now
   with leukocytosis despite broad spectrum antibiotics.
   1) Leukocytosis: Afebrile over past 24 hours and WBC count 18 today
   downtrending from 22.6 yesterday on Vanc/Cefepime/Flagyl. Sputum gram
   stain from [**4-16**] demonstrated GPRs and GPCs, despite a lack of evidence
   for PNA on CXR. C. diff negative. Urine culture negative. RUQ U/S was
   unremarkable and abdominal U/S demonstrated insufficient ascites for
   paracentesis. A serum Lipase was normal (21). No obvious signs of line
   infection. ID following.
   -Continue Vanc/Cefepime/Flagyl, dosed for [**Month/Year (2) **]
   -f/u blood cx
   -f/u sputum speciation/sensitivities
   - send additional stool cx
   -considered abdominopelvic CT to r/o abscess, but felt pt too unstable
   to leave floor yesterday.
   2) Respiratory Failure: Pt intubated [**4-10**], remains intubated for mental
   status changes [**3-4**] encephalopathy and initial concern for volume
   overload is unsupported by a lack of ascites on ultrasound. PEEP
   currently at 10, sat
ing 97% on 40% FiO2. Atelectasis improving
   radiographically. Minute ventilation remains elevated, but dead space
   only ~50%.
   - Attempt to wean pressure support as tolerates
   - Serial ABGs w/ changes in vent settings
   - Daily CXR
   3) Hypotension: Norepi increased to 0.18mcg/kg/min since yesterday as
   patient requiring increased sedation with Propofol that results in
   worsening hypotension. VOD appears stable based on LFT
s, negative [**Last Name (un) **]
   stim test, continuing treatment for possible sepsis. TG
s yesterday
   morning elevated to 408.
   -Consider switching sedation to Midazolam for improved sedation & given
   TG levels, acknowledging liver dysfunction
   -Continue abx and infectious work-up, as above
   -Continue with efforts to down-titrate sedation, PEEP
   -Continue to down-titrate norepinephrine with goals of MAP>65, SBP>85
   4) Altered Mental Status: Stable. Pt does not respond to commands.
   Cerebral edema remains a concern, but more likely this is a
   toxic/metabolic encephalopathy [**3-4**] liver failure and uremia on
   sedation.
   - Restarted Lactulose as patient without bowel movements 2 days ago
   - Consider repeat head CT if mental status does not improve with
   improving liver function
   5) Ileus: Patient with diarrhea yesterday that was C. diff negative.
   KUB negative for obstruction.  BMT requested holding Lactulose [**3-4**]
   diarrhea, but patient still without bowel sounds and with significant
   OG output, suggesting ongoing ileus.
   - Continue Reglan at 15mg in TPN
   6) Hepatic Failure: Etiology is VOD [**3-4**] SCT with possible underlying
   cirrhosis [**3-4**] EtOH history. Viral hepatitis unlikely, given negative
   labs to date. Pt presented w/ encephalopathy, coagulopathy, elevated
   LFTs. RUQ US on [**4-14**] demonstrated persistent reversal of flow in main
   portal vein. Bladder pressure <20mmHg over past 24 hours. Transaminases
   stable today. TBili at 6.4 today. Hepatology following.
   -Continue Defibrotide (560 mg IV Q6H) per protocol for VOD (targets for
   admin: Plt>30, Hct>30, INR<1.5, Fibrinogen>150)
   -Urusodiol via OGT
   -Q6H labs, as necessary, to monitor defibrotide parameters
   -f/u HSV serology
   -Monitor Bladder Pressure to r/o abdominal compartment syndrome
   7) Metabolic acidosis: Stable. pH remains 7.34 today, with bicarb of 19
   & pCO2 34, indicating some degree of respiratory compensation. AG 17.
   -Correct hypotension and pursue infectious work-up, as above
   -Discuss [**Month/Year (2) **] parameters w/ renal
   8) Oliguric ARF: Pt started on [**Month/Year (2) **] [**2155-4-12**] for worsening metabolic
   acidosis and worsening renal function. Etiology is ischemic ATN (urine
   sediment w/ muddy brown casts). Initial insult = hypotension, most
   likely [**3-4**] hepatorenal syndrome. Acidemia stable. Renal is following.
   -Continue [**Last Name (LF) **], [**First Name3 (LF) 77**] renal recs
   -Trend pH, calcium, lytes, BUN/Cr, Is/Os
   -Q1H pupil checks to r/o herniation
   -Dose meds for [**First Name3 (LF) **]
   9) Thrombocytopenia: PLT 63 this AM. LFT
s & coags are stable, low
   suspicion for DIC, likely medication effect. Not on Heparin.
   - Trend PLT
s q6H
   - Transfuse for PLT count <30K
   10) Hyperglycemia: Insulin in TPN increased yesterday.
   - Regular insulin sliding scale
   - f/u TPN recs
   11) Follicular Lymphoma: Pt is s/p BEAM Auto SCT, day 17. Complicated
   social situation
 pt needs assistance with disability paperwork, wife
   is not working, one son has been expelled from school and is living
   away from home. BMT following. Social work is assisting with disability
   paperwork.
   -Acyclovir 400mg IV Q12H for ppx
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2155-4-18**] 05:49 PM 62 mL/hour
   Glycemic Control:  Insulin in TPN
   Lines:
   Arterial Line - [**2155-4-11**] 03:53 AM
   Dialysis Catheter - [**2155-4-12**] 09:36 AM
   Multi Lumen - [**2155-4-12**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Patient
s wife
   [**Name (NI) 156**] status: Full code
   Disposition: pending clinical improvement

2155-04-20 09:03:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2155-4-19**] 12:00 PM
 BLOOD CULTURED - At [**2155-4-19**] 02:00 PM
 BLOOD CULTURED - At [**2155-4-19**] 03:04 PM
 URINE CULTURE - At [**2155-4-19**] 05:51 PM
   Increasing abdominal distention, increased bladder pressures overnight
   Increased pressor requirements overnight, IVF challenges, pancultured
   Secretions from ETT now tan, thick, specimen sent for gram stain &
   culture
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Cefipime - [**2155-4-20**] 01:55 AM
   Metronidazole - [**2155-4-20**] 04:14 AM
   Acyclovir - [**2155-4-20**] 05:53 AM
   Vancomycin - [**2155-4-20**] 08:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Norepinephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2155-4-20**] 07:59 AM
   Midazolam (Versed) - [**2155-4-20**] 08:00 AM
   Pantoprazole (Protonix) - [**2155-4-20**] 08:38 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: anuric
   Heme / Lymph: No(t) Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2155-4-20**] 09:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36
C (96.8
   HR: 120 (108 - 140) bpm
   BP: 89/57(66) {88/54(64) - 153/88(106)} mmHg
   RR: 18 (11 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 108.9 kg (admission): 98.2 kg
   CVP: 13 (13 - 15)mmHg
   Bladder pressure: 21 (18 - 25) mmHg
   Total In:
                                                                 11,865 mL
                                                                  3,146 mL
   PO:
   TF:
   IVF:
                                                                 10,226 mL
                                                                  2,500 mL
   Blood products:
   Total out:
                                                                  9,108 mL
                                                                  2,981 mL
   Urine:
                                                                     20 mL
                                                                     28 mL
   NG:
                                                                    400 mL
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                  2,757 mL
                                                                    165 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 776 (776 - 889) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 2
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.38/33/90.[**Numeric Identifier 299**]/18/-4
   Ve: 12.5 L/min
   PaO2 / FiO2: 225
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL, 2 mm bilaterally
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Distended, more distended today, no bowel sounds
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, anasarca, scrotal edema
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   12.9 g/dL
   62 K/uL
   123 mg/dL
   2.8 mg/dL
   18 mEq/L
   4.4 mEq/L
   43 mg/dL
   99 mEq/L
   130 mEq/L
   37.9 %
   18.5 K/uL
        [image002.jpg]
                             [**2155-4-19**]  09:10 AM
                             [**2155-4-19**]  02:11 PM
                             [**2155-4-19**]  02:12 PM
                             [**2155-4-19**]  03:03 PM
                             [**2155-4-19**]  08:25 PM
                             [**2155-4-19**]  09:23 PM
                             [**2155-4-20**]  03:00 AM
                             [**2155-4-20**]  03:12 AM
                             [**2155-4-20**]  06:44 AM
                             [**2155-4-20**]  08:33 AM
   WBC
   18.5
   Hct
   37.9
   Plt
   59
   59
   62
   Cr
   2.9
   2.8
   2.8
   TCO2
   25
   23
   23
   23
   21
   20
   Glucose
   134
   139
   123
   Other labs: PT / PTT / INR:15.6/36.1/1.4, ALT / AST:132/56, Alk Phos /
   T Bili:201/5.3, Amylase / Lipase:/21, Differential-Neuts:80.0 %,
   Band:4.0 %, Lymph:3.0 %, Mono:10.0 %, Eos:0.0 %, Fibrinogen:567 mg/dL,
   Lactic Acid:1.7 mmol/L, Albumin:2.5 g/dL, LDH:446 IU/L, Ca++:9.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
 HYPOTENSION, SEPSIS:  Continues to require pressors, no new culture
   data.  Continues on broad spectrum antibiotics.
 ALTERATION IN NUTRITION:  TPN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**]):  Weaning pressure support
   as tolerated.  Distended abdomen compromising respiratory function as
   well.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): Continues CVVH.
   Vanco increased to every 12 hours, repeat level in am.
 HEPATIC ENCEPHALOPATHY/ACITES: Secondary to VOD.  Team discussed
   increasing abdominal distention and increased bladder pressures with
   BMT service, plan is to proceed with pericentesis - will do diagnostic
   and therapeutic tap.  Will get KUB prior to US to evaluate for
   component of ileus/bowel distention contributing vs. fluid.  Continue
   to monitor bladder pressures.
   Else agree with detailed assessment and plan as per [**Hospital **] medical
   resident's note.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2155-4-19**] 05:58 PM 62 mL/hour
   Glycemic Control:  Insulin in TPN
   Lines:
   Arterial Line - [**2155-4-11**] 03:53 AM
   Dialysis Catheter - [**2155-4-12**] 09:36 AM
   Multi Lumen - [**2155-4-12**] 07:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2155-04-21 07:35:00 Physician Resident Progress Note
24 Hour Events:
 PARACENTESIS - At [**2155-4-20**] 11:00 AM
   3 liters removed, cell count c/w SBP, cultures pending
   -KUB prior to para to r/o obstruction; unhelpful given ascites
   -Pt received albumin post-paracentesis
   -Micafungin started per BMT recs, as pt continued to have hypotension
   despite broad spectrum abx
   -Echo this morning, read is pending.
   Allergies:
   Penicillins
 Hives
   Last dose of Antibiotics:
   Vancomycin - [**2155-4-20**] 12:16 PM
   Micafungin - [**2155-4-20**] 07:38 PM
   Cefipime - [**2155-4-21**] 01:51 AM
   Metronidazole - [**2155-4-21**] 03:13 AM
   Acyclovir - [**2155-4-21**] 06:21 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Norepinephrine - 0.35 mcg/Kg/min
   Fentanyl (Concentrate) - 150 mcg/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Fentanyl - [**2155-4-20**] 07:59 AM
   Midazolam (Versed) - [**2155-4-20**] 08:00 AM
   Pantoprazole (Protonix) - [**2155-4-20**] 08:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-4-21**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.9
   HR: 113 (108 - 138) bpm
   BP: 102/58(70) {87/52(63) - 137/82(97)} mmHg
   RR: 22 (15 - 24) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 114 kg (admission): 98.2 kg
   CVP: 7 (7 - 17)mmHg
   Bladder pressure: 16 (12 - 21) mmHg
                                Total In:
                                                                  9,816 mL
                                                                  3,503 mL
   PO:
                                TF:
   IVF:
                                                                  7,590 mL
                                                                  2,838 mL
   Blood products:
                                                                    397 mL
   Total out:
                                                                 11,689 mL
                                                                  2,737 mL
   Urine:
                                                                     68 mL
                                                                     10 mL
   NG:
                                                                    550 mL
                                                                    200 mL
   Stool:
   Drains:
                                                                  3,000 mL
   Balance:
                                                                 -1,873 mL
                                                                    766 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.34/43/113/19/-2
   Ve: 11.9 L/min
   PaO2 / FiO2: 283
   Physical Examination
   General: Intubated, sedated, unresponsive to commands
   HEENT: PERRLA 2mm
1mm (R more sluggish than L); sclerae icteric
   Neck: Tunneled CVL on R, no swelling or erythema at site
   Lungs: Ronchorous breath sounds in upper lung fields, clear breath
   sounds in lower lung fields anteriorly; no wheezes
   CV: RRR nl S1, S2, no murmurs
   Abdomen: Tense, distended, no BS
   GU: +scrotal edema (stable); +foley
   Ext: +pitting edema in UEs and [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 6086**] (> c/w last week)
   Labs / Radiology
   61 K/uL
   10.6 g/dL
   101 mg/dL
   2.7 mg/dL
   19 mEq/L
   4.2 mEq/L
   43 mg/dL
   100 mEq/L
   133 mEq/L
   31.3 %
   11.3 K/uL
        [image002.jpg]
                             [**2155-4-20**]  03:12 AM
                             [**2155-4-20**]  06:44 AM
                             [**2155-4-20**]  08:15 AM
                             [**2155-4-20**]  08:33 AM
                             [**2155-4-20**]  02:12 PM
                             [**2155-4-20**]  02:51 PM
                             [**2155-4-20**]  08:46 PM
                             [**2155-4-20**]  08:58 PM
                             [**2155-4-21**]  02:59 AM
                             [**2155-4-21**]  03:31 AM
   WBC
   19.2
   11.3
   Hct
   37.3
   31.3
   Plt
   82
   71
   54
   61
   Cr
   2.8
   2.8
   2.7
   TCO2
   23
   21
   20
   22
   22
   24
   Glucose
   109
   119
   122
   101
   Other labs: PT / PTT / INR:16.0/41.8/1.4, ALT / AST:75/43, Alk Phos / T
   Bili:139/5.3, Amylase / Lipase:/21, Differential-Neuts:80.0 %, Band:4.0
   %, Lymph:3.0 %, Mono:10.0 %, Eos:0.0 %, Fibrinogen:487 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:2.5 g/dL, LDH:302 IU/L, Ca++:9.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   56yM with refractory follicular lymphoma, day 19 s/p BEAM Auto [**Hospital 11923**]
   transferred from BMT with fulminant hepatic failure [**3-4**] [**Last Name (un) 3140**]-occlusive
   disease, with ICU course complicated by ARF requiring [**Last Name (un) **], hypoxic
   respiratory failure requiring ventilator support, leukocytosis on
   broad-spectrum abx, and persistent hypotension requiring pressor
   support, now s/p paracentesis confirming SBP.
   1) Leukocytosis: Afebrile over past 24 hours. WBC count 11 today, down
   from 19 yesterday on Vanc/Cefepime/Flagyl/Micafungin. Peritoneal fluid
   with evidence of SBP (PMN>250). C. diff negative. No evidence of PNA on
   CXR. Blood/urine/sputum culture negative to date. No obvious signs of
   line infection. ID following.
   -Echo to r/o endocarditis
   -Continue Vanc/Cefepime/Flagyl/Micafungin, dosed for [**Last Name (un) **]
   -f/u micro results
   -Consider abdominopelvic CT to r/o abscess if WBC count bumps on
   current antimicrobial regimen
   2) Hypotension: Norepi increased to 0.35mcg/kg/min today from
   0.2mcg/kg/min yesterday despite aggressive antimicrobial therapy for
   sepsis and change from propofol to midazolam. Negative [**Last Name (un) **] stim test.
   PEEP at 10. Possible that pt has pericardial effusion contributing to
   his hypotension, given elevated CVP yesterday. Also possible that pt is
   intravascularly dry despite total body volume overload. Also possible
   that persistent hypotension simply reflect continued or worsening
   splanchnic vasodilation [**3-4**] liver failure/VOD.
   -Fluid challenge with 500cc bolus
 monitor BP for response
   -Echo today to r/o cardiogenic source of hypotension
   -Continue abx and infectious work-up, as above
   -Continue with efforts to down-titrate sedation, PEEP
   -Continue to down-titrate norepinephrine with goals of MAP>65, SBP>85
   3) Respiratory Failure: Pt intubated [**4-10**], remains intubated for mental
   status changes [**3-4**] encephalopathy. Pt started on AC, then switched to
   CPAP+PSV, then switched back to AC yesterday. PEEP currently at 10
   (weaned to 8 during rounds), sat
ing 100% on 40% FiO2. Atelectasis
   improving radiographically. Lung volumes still reduced. Pt likely to
   need tracheostomy, given that this is day 12 on ventilator w/o
   extubation plans in process.
   -Continue to wean PEEP
   -Discuss tracheostomy with BMT family
   -Serial ABGs w/ changes in vent settings
   -Daily CXR
   4) Altered Mental Status: Stable. Pt does not respond to commands.
   Cerebral edema remains a concern, but more likely this is a
   toxic/metabolic encephalopathy [**3-4**] liver failure and uremia on
   sedation.
   -Lactulose QID
   -Spontaneous Awakening Trial to assess mental status prior to
   initiation of tracheostomy discussion
   5) Ileus: Patient with diarrhea yesterday that was C. diff negative.
   KUB negative for obstruction.  BMT requested holding Lactulose [**3-4**]
   diarrhea, but patient still without bowel sounds and with significant
   OG output, suggesting ongoing ileus.
   -Continue Reglan at 15mg in TPN
   6) Hepatic Failure: Etiology is VOD [**3-4**] SCT with possible underlying
   cirrhosis [**3-4**] EtOH history. Viral hepatitis unlikely, given negative
   labs to date. Pt presented w/ encephalopathy, coagulopathy, elevated
   LFTs. RUQ US on [**4-14**] demonstrated persistent reversal of flow in main
   portal vein. Pt is s/p 3L paracentesis, with bladder pressure <20mmHg.
   Transaminases still trending down. TBili at 5.3 today. Hepatology
   following.
   -Continue Defibrotide (560 mg IV Q6H) per protocol for VOD (targets for
   admin: Plt>30, Hct>30, INR<1.5, Fibrinogen>150)
   -Urusodiol via OGT
   -Q6H labs, as necessary, to monitor defibrotide parameters
   -Monitor Bladder Pressure to r/o abdominal compartment syndrome
   7) Oliguric ARF: Pt started on [**Month/Year (2) **] [**2155-4-12**] for worsening metabolic
   acidosis and worsening renal function. Etiology is ischemic ATN (urine
   sediment w/ muddy brown casts). Initial insult = hypotension, most
   likely [**3-4**] hepatorenal syndrome. Acidemia improved. Negative fluid
   balance over last 24 hours reflects removal of volume with
   paracentesis. Renal is following.
   -Continue [**Last Name (LF) **], [**First Name3 (LF) 77**] renal recs
   -Trend pH, calcium, lytes, BUN/Cr, Is/Os
   -Q1H pupil checks to r/o herniation
   -Dose meds for [**First Name3 (LF) **]
   8) Anemia: HCT 31 this morning, down from 36 yesterday, most likely [**3-4**]
   bleeding [**3-4**] paracentesis.
   -Trend HCT
   -Transfuse with PRBC for HCT<30
   9) Follicular Lymphoma: Pt is s/p BEAM Auto SCT, day 19. Complicated
   social situation
 pt needs assistance with disability paperwork, wife
   is not working, one son has been expelled from school and is living
   away from home. BMT following. Social work is assisting with disability
   paperwork.
   -Acyclovir 400mg IV Q12H for ppx
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2155-4-20**] 06:06 PM 75 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2155-4-11**] 03:53 AM
   Dialysis Catheter - [**2155-4-12**] 09:36 AM
   Multi Lumen - [**2155-4-12**] 07:00 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   VAP:  HOB elevation, mouth care
   Communication: Wife [**Name (NI) 1542**]
   [**Name (NI) 156**] status: Full code
   Disposition: No plans for dispo at this time

2155-04-21 11:48:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Renal Failure
   Hypotension
   Hepatic Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PARACENTESIS - At [**2155-4-20**] 11:00 AM
   3 liters removed
   -Micafungin started with concern for persistent sepsis
   -WBC count decreased to 11
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Micafungin - [**2155-4-20**] 07:38 PM
   Cefipime - [**2155-4-21**] 01:51 AM
   Metronidazole - [**2155-4-21**] 03:13 AM
   Acyclovir - [**2155-4-21**] 06:21 AM
   Vancomycin - [**2155-4-21**] 09:11 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   KCl (CRRT) - 2 mEq./hour
   Norepinephrine - 0.35 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever, T=99
   Flowsheet Data as of  [**2155-4-21**] 11:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 123 (108 - 133) bpm
   BP: 110/60(74) {87/52(62) - 126/66(82)} mmHg
   RR: 20 (15 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 114 kg (admission): 98.2 kg
   CVP: 7 (7 - 16)mmHg
   Bladder pressure: 13 (12 - 20) mmHg
                                Total In:
                                                                  9,816 mL
                                                                  5,310 mL
   PO:
                                TF:
   IVF:
                                                                  7,590 mL
                                                                  4,351 mL
   Blood products:
                                                                    397 mL
   Total out:
                                                                 11,689 mL
                                                                  4,379 mL
   Urine:
                                                                     68 mL
                                                                     10 mL
   NG:
                                                                    550 mL
                                                                    200 mL
   Stool:
   Drains:
                                                                  3,000 mL
   Balance:
                                                                 -1,873 mL
                                                                    931 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.37/37/120/19/-3
   Ve: 11.9 L/min
   PaO2 / FiO2: 300
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.6 g/dL
   62 K/uL
   119 mg/dL
   2.7 mg/dL
   19 mEq/L
   4.1 mEq/L
   43 mg/dL
   103 mEq/L
   136 mEq/L
   31.3 %
   11.3 K/uL
        [image002.jpg]
                             [**2155-4-20**]  08:33 AM
                             [**2155-4-20**]  02:12 PM
                             [**2155-4-20**]  02:51 PM
                             [**2155-4-20**]  08:46 PM
                             [**2155-4-20**]  08:58 PM
                             [**2155-4-21**]  02:59 AM
                             [**2155-4-21**]  03:31 AM
                             [**2155-4-21**]  08:56 AM
                             [**2155-4-21**]  08:57 AM
                             [**2155-4-21**]  09:09 AM
   WBC
   19.2
   11.3
   Hct
   37.3
   31.3
   Plt
   71
   54
   61
   62
   Cr
   2.8
   2.8
   2.7
   TCO2
   20
   22
   22
   24
   22
   Glucose
   119
   122
   101
   119
   Other labs: PT / PTT / INR:16.0/41.8/1.4, ALT / AST:75/43, Alk Phos / T
   Bili:139/5.3, Amylase / Lipase:/21, Differential-Neuts:80.0 %, Band:4.0
   %, Lymph:3.0 %, Mono:10.0 %, Eos:0.0 %, Fibrinogen:487 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:2.5 g/dL, LDH:302 IU/L, Ca++:9.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Fluid analysis / Other labs: Paracentesis-550 WBC, 48%
   Microbiology: Peritoneal Fluid Pending--
   Assessment and Plan
   56 yo male with BMT complicated by VOD and hepatic failure now with
   ascites and persistent renal failure and respiratory failure with
   paracentesis with 3 liters removed yesterday.  We have some signs of
   SBP based upon WBC count but is simply criteria and limited evidence of
   ongoing brisk peritonitis by WBC count and exam.  We will have to work
   to maintain adequate perfusion pressure and ECHO is completed today and
   will have to look to results but we see relatively low CVP at this time
   making primary cardiogenic source less likely
but, will have to be
   evaluated with ECHO.  Will work to control infection and look to see
   stabilization of blood pressure with time.
   1)HYPOTENSION (NOT SHOCK)
Persistent compromise may well be
   infection
but is not showing clear source at this time.  We do have
   concern for possible intra-abdominal source with bacterial peritonitis
   and has concern for incomplete coverage given criteria.
   -Vanco/Cefepime/Flagyl
continued to be in place
will move to 750 q 12
   hrs on Vanco
   -Levophed
   -Vanco-po-added
   -Micafungin
added this weekend
   -CVP is 7 this morning and this may suggest compromise of effective
   filling, we have ECHO this morning to look for possible cardiac
   compromise.
   -Will continue Rx for SBP and sepsis with above antibiotics
   -IVF bolus as needed but in the setting of ongoing need for sedation
   will likely need ongoing pressors at this time.
   2)RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])-He has returned to A/C
   support over past days.  We have continued need for full support from
   the ventilator
   -Continue in A/C
   -Will have to look for persistent focus of infection if we see rising
   WBC count or worsening sepsis
   3) RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)-
   -Continue CVVH at this time
   -Have limited urine output at this time with persistne renal failrue
   4)HEPATIC FAILURE-C/B HEPATIC ENCEPHALOPATHY, ASCITES-
   -Ursadiol
   -Defibritide
   -Follow bladder pressures
   -Follow blood pressure across time
   5) LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID) TRANSPLANT, BONE
   MARROW (BMT)
   -See little in way of improvement in hepatic function or resolution of
   VOD
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2155-4-20**] 06:06 PM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2155-4-11**] 03:53 AM
   Dialysis Catheter - [**2155-4-12**] 09:36 AM
   Multi Lumen - [**2155-4-12**] 07:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2155-04-22 11:11:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Hepatic Failiure
   Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   ECHO--EF >70%
   IVF bolus given with modest improvement in SBP
   patient able to wean to PEEP=5
   Sedation turned off--patient with responsive to commands verbally
   PSV tolerated thorugh to this morning--modest increase in secretions
   seen
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Micafungin - [**2155-4-21**] 09:50 PM
   Cefipime - [**2155-4-22**] 02:30 AM
   Acyclovir - [**2155-4-22**] 07:30 AM
   Metronidazole - [**2155-4-22**] 08:00 AM
   Vancomycin - [**2155-4-22**] 08:59 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Norepinephrine - 0.3 mcg/Kg/min
   KCl (CRRT) - 1 mEq./hour
   Other ICU medications:
   Midazolam (Versed) - [**2155-4-21**] 11:15 PM
   Fentanyl - [**2155-4-22**] 10:21 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2155-4-22**] 11:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.4
   HR: 130 (117 - 138) bpm
   BP: 106/59(73) {86/50(61) - 135/72(88)} mmHg
   RR: 16 (14 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 114 kg (admission): 98.2 kg
   CVP: 4 (4 - 15)mmHg
   Bladder pressure: 19 (16 - 22) mmHg
                                Total In:
                                                                 11,700 mL
                                                                  4,808 mL
   PO:
                                TF:
   IVF:
                                                                  9,710 mL
                                                                  3,906 mL
   Blood products:
   Total out:
                                                                 10,073 mL
                                                                  4,549 mL
   Urine:
                                                                     45 mL
                                                                     35 mL
   NG:
                                                                    950 mL
                                                                    360 mL
   Stool:
   Drains:
   Balance:
                                                                  1,627 mL
                                                                    259 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 500) mL
   Vt (Spontaneous): 646 (573 - 761) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 50
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.31/39/91.[**Numeric Identifier 253**]/18/-6
   Ve: 14.5 L/min
   PaO2 / FiO2: 230
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Distended
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.6 g/dL
   74 K/uL
   175 mg/dL
   2.8 mg/dL
   18 mEq/L
   4.6 mEq/L
   43 mg/dL
   103 mEq/L
   134 mEq/L
   33.0 %
   12.8 K/uL
        [image002.jpg]
                             [**2155-4-21**]  03:42 PM
                             [**2155-4-21**]  03:52 PM
                             [**2155-4-21**]  09:21 PM
                             [**2155-4-21**]  11:24 PM
                             [**2155-4-21**]  11:41 PM
                             [**2155-4-22**]  03:44 AM
                             [**2155-4-22**]  03:55 AM
                             [**2155-4-22**]  07:27 AM
                             [**2155-4-22**]  08:56 AM
                             [**2155-4-22**]  09:02 AM
   WBC
   12.8
   Hct
   34.7
   33.0
   Plt
   70
   67
   68
   74
   Cr
   2.8
   2.8
   TCO2
   21
   21
   21
   20
   21
   Glucose
   113
   153
   133
   175
   Other labs: PT / PTT / INR:15.6/35.5/1.4, ALT / AST:62/44, Alk Phos / T
   Bili:168/5.2, Amylase / Lipase:/21, Differential-Neuts:80.0 %, Band:4.0
   %, Lymph:3.0 %, Mono:10.0 %, Eos:0.0 %, Fibrinogen:549 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:2.5 g/dL, LDH:326 IU/L, Ca++:9.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Imaging: CXR--Decrease in lung volumes--small area of medial basal
   consolidation.
   Assessment and Plan
   56 yo male s/p BMT with complication of VOD and now with persistent
   respiratory failure with primary barriers to extubation of altered
   mental status, volume overload and now with increased secretions.
   Encouragingly patient has had decrease in abdominal fluid with drainage
   of ascites.  He, in that setting has been able to tolerate decrease in
   PEEP with stability of oxygenation quite favorably.
   1)Respiratory Failure-
   -Fent/Versed
   -Will continue to suction as needed
   -Do not see new evidence of infection on the CXR
   -Move to increase PEEP today to maintain support.  PSV at relatively
   minimal levels appears to be tolerated.
   2)Renal Failure-
   -Continue CVVH
   -Will look to remove fluid as possible
   3)Hepatic Failure-
   VOD-Defibrotide
   -Lactulose held with diarrhea
   -Patient does respond with decrease in sedation to verbal prompts
   4)Hypotension-
   -Vanco
   -Micafungin
   -Do see preserved function on the ECHO from yesterday
   -Fluid bolus only as needed and would continue with pressors at this
   time
   -Continue Rx for infection
   -Will minimize sedation as possible
   -Tolerate MAP >60 as goal today
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2155-4-21**] 07:15 PM 77 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2155-4-11**] 03:53 AM
   Dialysis Catheter - [**2155-4-12**] 09:36 AM
   Multi Lumen - [**2155-4-12**] 07:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2155-04-23 07:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Cultures sent off CVL, dialysis catheter
   -Defibrotide held for IR CVL and dialysis catheter placement this AM
   -Pt bolused 500cc for tachycardia with small response (10 point HR drop
   and levo weaned from 0.35 to 0.30)
   -Overnight SAT
 awake for 2 hours, responding only to mouth commands
   Allergies:
   Penicillins
 Hives
   Last dose of Antibiotics:
   [** **] - [**2155-4-22**] 08:50 PM
   Metronidazole - [**2155-4-23**] 12:04 AM
   Cefipime - [**2155-4-23**] 02:00 AM
   Acyclovir - [**2155-4-23**] 06:00 AM
   Vancomycin - [**2155-4-23**] 06:00 AM
   Infusions:
   Fentanyl (Concentrate) - 200 mcg/hour
   KCl (CRRT) - 2 mEq./hour
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2155-4-23**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-4-23**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.4
   HR: 134 (117 - 140) bpm
   BP: 93/58(68) {88/50(61) - 127/70(84)} mmHg
   RR: 16 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 114 kg (admission): 98.2 kg
    CVP: 5 (3 - 9)mmHg
   Bladder pressure: 18 (18 - 21) mmHg
                                Total In:
                                                                 11,005 mL
                                                                  4,148 mL
   PO:
                                TF:
   IVF:
                                                                  8,695 mL
                                                                  3,338 mL
   Blood products:
   Total out:
                                                                 11,082 mL
                                                                  3,864 mL
   Urine:
                                                                     45 mL
   NG:
                                                                    910 mL
                                                                    450 mL
   Stool:
   Drains:
   Balance:
                                                                    -77 mL
                                                                    284 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 568 (568 - 916) mL
   PS : 10 cmH2O
   RR (Spontaneous): 25
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 95
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: 7.30/40/113/17/-5
   Ve: 17.6 L/min
   PaO2 / FiO2: 283
   Physical Examination
   General: Intubated, sedated, unresponsive to commands
   HEENT: Eyes covered, exam deferred
   Neck: Triple lumen CVL on R with 1.5mm erythema around insertion site
   Lungs: Ronchorous breath sounds in upper lung fields, clear breath
   sounds in lower lung fields anteriorly; no wheezes
   CV: RRR nl S1, S2, no murmurs
   Abdomen: Distended, less tense and more doughy than yesterday with
   +pitting edema, no BS
   GU: +foley; dialysis catheter in groin, grossly erythematous
   Ext: +pitting edema in UEs and [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 6086**] (> c/w last week); cool
   feet bilaterally; DPs and PTs present by Doppler bilaterally; R A-line
   with slight erythema ([**Name8 (MD) 77**] RN)
   Labs / Radiology
   101 K/uL
   12.0 g/dL
   148 mg/dL
   2.6 mg/dL
   17 mEq/L
   4.9 mEq/L
   38 mg/dL
   102 mEq/L
   134 mEq/L
   37.8 %
   15.5 K/uL
        [image002.jpg]
                             [**2155-4-22**]  03:55 AM
                             [**2155-4-22**]  07:27 AM
                             [**2155-4-22**]  08:56 AM
                             [**2155-4-22**]  09:02 AM
                             [**2155-4-22**]  02:50 PM
                             [**2155-4-22**]  02:55 PM
                             [**2155-4-22**]  09:05 PM
                             [**2155-4-22**]  09:15 PM
                             [**2155-4-23**]  03:03 AM
                             [**2155-4-23**]  03:34 AM
   WBC
   12.8
   16.1
   15.5
   Hct
   33.0
   36.8
   37.8
   Plt
   68
   74
   90
   100
   101
   Cr
   2.8
   2.6
   2.6
   TCO2
   20
   21
   19
   20
   20
   Glucose
   133
   175
   143
   139
   148
   Other labs: PT / PTT / INR:16.0/36.0/1.4, ALT / AST:59/40, Alk Phos / T
   Bili:175/5.9, Amylase / Lipase:/21, Differential-Neuts:79.0 %, Band:0.0
   %, Lymph:8.0 %, Mono:13.0 %, Eos:0.0 %, Fibrinogen:683 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:2.9 g/dL, LDH:249 IU/L, Ca++:9.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Sputum Culture:
   Gram Stain
 multiple organisms consistent with oropharyngeal flora
   Assessment and Plan
   56yM with refractory follicular lymphoma, day 21 s/p BEAM Auto [**Hospital 11923**]
   transferred from BMT with fulminant hepatic failure [**3-4**] [**Last Name (un) 3140**]-occlusive
   disease, with ICU course complicated by multi-system organ failure,
   persistent hypotension, likely sepsis.
   1) Hypotension: Pt still requiring pressor support, levophed @
   0.3mcg/kg/min. Etiology is likely combination of sepsis, given
   up-trending WBC count in setting of possible line infection, and
   intravascular volume depletion, given BP is fluid responsive. Sedation
   also a contributing factor.
   -Fluid boluses as needed for BP support, with CVP goal ~[**11-11**]
   -Continue abx and infectious work-up (outlined below)
   -Continue norepinephrine with goals of MAP>65, SBP>85; add vasopressin
   if maxed out on norepi
   2) Leukocytosis: WBC count continuing to trend up despite coverage with
   Vanc/Cefepime/Flagyl/[**Month/Year (2) **] and negative blood cultures to date.
   This is most likely [**3-4**] line infection vs abscess. Paracentesis w/
   evidence of SBP. No endocarditis on echo. C diff negative. Urine cx
   negative. Sputum gram stain w/ oral flora. ID following.
   -CVL, dialysis catheter, A-line replacement today
   -CT torso to r/o abcess
   -Culture all catheter tips
   -f/u cultures
 sputum, blood, peritoneal fluid,
   -Continue Vanc/Cefepime/Flagyl, dosed for [**Month/Day (2) **]
   -D/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 9591**], [**First Name3 (LF) 77**] ID
 d/w BMT
   3) Respiratory Failure: Pt intubated [**4-10**], remains intubated for mental
   status changes [**3-4**] sedation + encephalopathy, also restrictive
   physiology [**3-4**] intra-abdominal pressure. Pt on PSV 10/10 yesterday,
   weaned to [**11-7**] overnight. Pt likely to need tracheostomy if not
   extubated in next 2-3 days.
   -PSV 10/10 for maximum alveolar recruitment prior to repeat SBT tonight
   -Open tracheostomy discussion if no clinical turn-around following line
   changes
   -Serial ABGs w/ changes in vent settings
   -AM CXR
   4) Altered Mental Status: Stable. [**Name8 (MD) **] RN, pt able to respond to
   commands during SAT overnight. Cerebral edema remains a concern, but
   more likely this is a toxic/metabolic encephalopathy [**3-4**] liver failure
   and uremia on sedation.
   -Lactulose QID; hold on PR, given difficulty turning patient
   -Repeat Spontaneous Awakening Trial tonight
   5) Ileus: No stool output or bowel sounds for several days, also high
   output from OG tube, likely functional ileus.
   -CT torso to r/o obstruction
   -Continue Reglan at 15mg in TPN
   -Aggressive bowel regimen
   6) Hepatic Failure: Etiology is VOD [**3-4**] SCT with possible underlying
   cirrhosis [**3-4**] EtOH history. Viral hepatitis unlikely, given negative
   labs to date. Pt presented w/ encephalopathy, coagulopathy, elevated
   LFTs. RUQ US on [**4-14**] demonstrated persistent reversal of flow in main
   portal vein. Pt is s/p 3L paracentesis 2 days ago, with reaccumulating
   ascites, reflected in bladder pressures increasing to ~20mmHg (from
   10s) over last 24 hours. Transaminases still trending down. TBili
   stable at 5.2 today. Hepatology following.
   -Continue Defibrotide (560 mg IV Q6H) per protocol for VOD (targets for
   admin: Plt>30, Hct>30, INR<1.5, Fibrinogen>150)
   -Urusodiol via OGT
   -Q6H labs, as necessary, to monitor defibrotide parameters
   -Monitor Bladder Pressure to r/o abdominal compartment syndrome
   7) Metabolic Acidosis: pH of 7.30 in early AM with CO2 of 40 and AG of
   20 (up from 18). Likely etiology is combination of renal failure and
   lactic acidosis [**3-4**] infection. Repeat ABG 7.34/37, indicating
   respiratory compensation.
   -Infectious work-up, as above
   -Re-check lactate
   8) Oliguric ARF: Pt started on [**Month/Day (2) **] [**2155-4-12**] for worsening metabolic
   acidosis and worsening renal function. Etiology is ischemic ATN (urine
   sediment w/ muddy brown casts). Initial insult = hypotension, most
   likely [**3-4**] hepatorenal syndrome. Acidemia worse, then improved with
   respiratory compensation. Creatinine down to 2.6. Pt remains severely
   oliguric. No indication of improved renal function per UOP. Renal is
   following.
   -Continue [**Last Name (LF) **], [**First Name3 (LF) 77**] renal recs
   -Trend pH, calcium, lytes, BUN/Cr, Is/Os
   -Dose meds for [**First Name3 (LF) **]
   9) Follicular Lymphoma: Pt is s/p BEAM Auto SCT, day 21. Complicated
   social situation
 pt needs assistance with disability paperwork, wife
   is not working, one son has been expelled from school and is living
   away from home. BMT following. Social work is assisting with disability
   paperwork.
   -Acyclovir 400mg IV Q12H for ppx
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2155-4-22**] 06:00 PM 80 mL/hour
   Glycemic Control:  Regular Insulin in TPN; ISS
   Lines:
   Arterial Line - [**2155-4-11**] 03:53 AM
   Dialysis Catheter - [**2155-4-12**] 09:36 AM
   Multi Lumen - [**2155-4-12**] 07:00 PM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: PPI
   VAP:  HOB elevation; mouth care
   Communication: Wife [**Name (NI) 1542**]
   [**Name (NI) 156**] status: Full code
   Disposition: No current plan for dispo

2155-04-23 11:23:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Renal Failure
   Sepsis
   Hepatic Failure/VOD
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient to IR for catheter changes of CVL and Dialysis Catheter
   Patient with levophed requirement persisting
   History obtained from Medical records
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Micafungin - [**2155-4-22**] 08:50 PM
   Cefipime - [**2155-4-23**] 02:00 AM
   Acyclovir - [**2155-4-23**] 06:00 AM
   Metronidazole - [**2155-4-23**] 08:00 AM
   Vancomycin - [**2155-4-23**] 09:30 AM
   Infusions:
   Norepinephrine - 0.38 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2155-4-23**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-4-23**] 11:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98
   HR: 125 (117 - 140) bpm
   BP: 88/57(66) {88/54(64) - 127/70(84)} mmHg
   RR: 13 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 114 kg (admission): 98.2 kg
   CVP: 3 (3 - 9)mmHg
   Bladder pressure: 18 (18 - 21) mmHg
                               Total In:
                                                                 11,005 mL
                                                                  5,916 mL
   PO:
                               TF:
   IVF:
                                                                  8,695 mL
                                                                  4,798 mL
   Blood products:
   Total out:
                                                                 11,082 mL
                                                                  4,360 mL
   Urine:
                                                                     45 mL
   NG:
                                                                    910 mL
                                                                    450 mL
   Stool:
   Drains:
   Balance:
                                                                    -77 mL
                                                                  1,556 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 860 (568 - 916) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 95
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: 7.34/37/103/18/-5
   Ve: 16.3 L/min
   PaO2 / FiO2: 258
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.0 g/dL
   88 K/uL
   119 mg/dL
   2.6 mg/dL
   18 mEq/L
   4.8 mEq/L
   38 mg/dL
   104 mEq/L
   135 mEq/L
   37.8 %
   15.5 K/uL
        [image002.jpg]
                             [**2155-4-22**]  09:02 AM
                             [**2155-4-22**]  02:50 PM
                             [**2155-4-22**]  02:55 PM
                             [**2155-4-22**]  09:05 PM
                             [**2155-4-22**]  09:15 PM
                             [**2155-4-23**]  03:03 AM
                             [**2155-4-23**]  03:34 AM
                             [**2155-4-23**]  08:53 AM
                             [**2155-4-23**]  08:54 AM
                             [**2155-4-23**]  09:02 AM
   WBC
   16.1
   15.5
   Hct
   36.8
   37.8
   Plt
   90
   100
   101
   88
   Cr
   2.6
   2.6
   TCO2
   21
   19
   20
   20
   21
   Glucose
   143
   139
   148
   119
   Other labs: PT / PTT / INR:15.8/36.8/1.4, ALT / AST:59/40, Alk Phos / T
   Bili:175/5.9, Amylase / Lipase:/21, Differential-Neuts:79.0 %, Band:0.0
   %, Lymph:8.0 %, Mono:13.0 %, Eos:0.0 %, Fibrinogen:683 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:2.9 g/dL, LDH:249 IU/L, Ca++:9.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Microbiology: All micro pending
   Assessment and Plan
   Patient admitted to ICU with VOD and hepatic failure now with
   complicated and persistent hypotension with distributive shock raised
   as concern and source of sepsis remaining to be defined.  This we see
   as possible related to catheter related blood stream infection and with
   fluid collection rasied as a concern as well, so, patient to IR for
   intervention to change catheters and will also obtain CT scan to
   evaluate for possible alternative sources of infection with fluid
   collection in abdomen as abscess being raised as possible concern.
   1)Respiratory Failiure-
   -Move to PSV
   -Move to wean sedation
   -Will need to have tracheostomy placement given prolonged failure and
   have pushed BMT to consider as we have failure to wean further despite
   optimal efforts
   2)Hepatic Failure-
   -Defibrotide
   -Follow exam
   -Follow bladder pressures
   3)Hypotension-Sepsis-
   -Levophed
   -Vanco po/Vanco IV/Micafungin
   -Line changes today
will d/c arterial catheter and move to new site
   -Cortisol reassuring
   -Continue with antibiotics
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2155-4-22**] 06:00 PM 80 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2155-4-11**] 03:53 AM
   Dialysis Catheter - [**2155-4-12**] 09:36 AM
   Multi Lumen - [**2155-4-12**] 07:00 PM
   Prophylaxis:
   DVT: Defirotide
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2155-04-24 07:37:00 Physician Resident Progress Note
Chief Complaint: Multi-system organ failure
   24 Hour Events:
   Yesterday:
   -CVL, HD line, A-line replaced
   -Pt had CT torso; no abdominal fluid collection on preliminary read
   -Pt with SBP in 70s upon returning from CT scanner; SBP up to 110s-120s
   with 1L NS, A-line placement, no sedation
   -ETT pulled back, given malpositioning noted on CT
 repeat CXR
   demonstrated ETT 2cm above carina
   Overnight:
   -Bladder pressure 33 at midnight, RN thought [**3-4**] foley obstruction;
   pressure back to 19 this AM
   -RSBI 24 w/ TV 660 and RR 16
   Allergies:
   Penicillins
 Hives
   Last dose of Antibiotics:
   Vancomycin - [**2155-4-23**] 09:30 AM
   Acyclovir - [**2155-4-23**] 08:00 PM
   Micafungin - [**2155-4-23**] 09:44 PM
   Metronidazole - [**2155-4-24**] 12:10 AM
   Cefipime - [**2155-4-24**] 03:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1 grams/hour
   Norepinephrine - 0.4 mcg/Kg/min
   Fentanyl (Concentrate) - 250 mcg/hour
   KCl (CRRT) - 1 mEq./hour
   Other ICU medications:
   Fentanyl - [**2155-4-24**] 02:00 AM
   Midazolam (Versed) - [**2155-4-24**] 03:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-4-24**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.8
   HR: 133 (125 - 141) bpm
   BP: 99/56(66) {91/56(66) - 105/67(73)} mmHg
   RR: 15 (12 - 22) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 114 kg (admission): 98.2 kg
    CVP: 6 (3 - 14)mmHg
   Bladder pressure: 19 (19 - 33) mmHg
   Total In:
                                                                 10,674 mL
                                                                  3,196 mL
   PO:
   TF:
   IVF:
                                                                  8,797 mL
                                                                  2,543 mL
   Blood products:
   Total out:
                                                                  7,787 mL
                                                                  3,450 mL
   Urine:
                                                                     15 mL
   NG:
                                                                    800 mL
                                                                    330 mL
   Stool:
   Drains:
   Balance:
                                                                  2,887 mL
                                                                   -254 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 750 (105 - 990) mL
   PS : 8 cmH2O
   RR (Spontaneous): 18
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 24
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: 7.32/37/105/18/-6
   Ve: 13.3 L/min
   PaO2 / FiO2: 263
   Physical Examination
   General: Intubated, sedated, unresponsive to commands
   HEENT: Eyes covered, exam deferred
   Neck: HD catheter on R; CVL on L
   Lungs: Ronchorous breath sounds in upper lung fields, clear breath
   sounds in lower lung fields anteriorly; no wheezes
   CV: RRR nl S1, S2, no murmurs
   Abdomen: Tense and distended (>yesterday) with +pitting edema, no BS
   GU: +foley
   Ext: +pitting edema in UEs and [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 6086**]; cool feet bilaterally
   Labs / Radiology
   98 K/uL
   11.3 g/dL
   112 mg/dL
   2.7 mg/dL
   18 mEq/L
   4.5 mEq/L
   43 mg/dL
   104 mEq/L
   135 mEq/L
   35.7 %
   15.3 K/uL
        [image002.jpg] AG 18
                             [**2155-4-23**]  08:54 AM
                             [**2155-4-23**]  09:02 AM
                             [**2155-4-23**]  02:00 PM
                             [**2155-4-23**]  02:05 PM
                             [**2155-4-23**]  08:25 PM
                             [**2155-4-23**]  08:48 PM
                             [**2155-4-23**]  10:54 PM
                             [**2155-4-23**]  11:23 PM
                             [**2155-4-24**]  03:57 AM
                             [**2155-4-24**]  04:30 AM
   WBC
   15.3
   Hct
   35.7
   Plt
   81
   97
   98
   Cr
   3.0
   2.7
   TCO2
   21
   20
   19
   19
   20
   Glucose
   119
   134
   174
   112
   Other labs:
   PT / PTT / INR:16.4/40.0/1.5,
   ALT / AST:50/43, Alk Phos / T Bili:165/6.5, Amylase / Lipase:/21
   Differential-Neuts:77.0 %, Band:0.0 %, Lymph:2.0 %, Mono:21.0 %,
   Eos:0.0 %,
   Fibrinogen:742 mg/dL, Lactic Acid:1.5 mmol/L (4:30am), Albumin:2.9
   g/dL, LDH:310 IU/L,
   Ca++:9.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Radiology
   CXR [**4-23**] @ 5pm:
   CHEST, AP: An endotracheal tube is seen 2 cm from the carina. A new
   right-sided dual-lumen catheter and left PICC appear to terminate in
   the mid SVC. A nasogastric tube is seen in the stomach. Low lung
   volumes are noted with minimal atelectasis, but no edema or pleural
   effusions. There is no pneumothorax or mediastinal widening.
   CT Torso [**4-23**]
 Provisional Findings:
   PFI: Malpositioned endotracheal tube, recommend retracting by 3 cm for
   more optimal position. No abdominal fluid collection. Moderate ascites.
   _____ mesenteric stranding, similar to [**2154-10-31**].
   Microbiology
   IV catheter tip cultures x3
 pending
   Blood cultures 3/23 and [**4-19**]
 pending, NGTD
   Sputum culture
 Gram stain w/ normal oropharyngeal flora; no grown on
   prelim fungal culture
   Peritoneal fluid culture
 pending, NGTD
   Assessment and Plan
   56yM with refractory follicular lymphoma, day 22 s/p BEAM Auto [**Hospital 11923**]
   transferred from BMT with fulminant hepatic failure [**3-4**] [**Last Name (un) 3140**]-occlusive
   disease, with ICU course complicated by persistent hypotension,
   culture-negative leukocytosis, acute renal failure on [**Last Name (un) **], and
   respiratory failure requiring ventilator support.
   1) Hypotension: Pt still requiring pressor support, levophed @
   0.4mcg/kg/min. Etiology is likely combination of a) intravascular
   volume depletion [**3-4**] decreased effective circulating volume and
   splanchinic vasodilation from liver failure, b) sedation, and c)
   sepsis, though this explanation is less likely, as pt meets SIRS
   criteria but has no infectious source (culture negative to date) and is
   on broad-spectrum antimicrobial coverage. Sedation-induced hypotension
   likely to resolve w/ tracheostomy (see below).
   -IV fluid boluses as needed for BP support to meet goals of MAP>65,
   SBP>85
   -Continue norepinephrine; wean as tolerated
   -Start vasopressin if pt reaches max doses of norepinephrine, though
   2^nd pressor would mean DQ from defibrotie trial
   -Continue abx and infectious work-up (outlined below)
   2) Leukocytosis: WBC count stable at 15 today. Unclear etiology, given
   pt is s/p line changes with no abscess per CT, on
   Vanc/Cefepime/Flagyl/Micafungin, with negative cultures to date. SBP by
   PMN criteria, but pt is on abx with negative peritoneal fluid cultures.
   Other explanations for leukocytosis include inflammatory process (e.g.
   autoimmune disease) vs hematologic process (e.g. stress response vs new
   heme malignancy)
 all highly unlikely. ID following.
   -f/u cultures
 catheter tip, blood, peritoneal fluid,
   -Continue Vanc/Cefepime/Flagyl/Micafungin, dosed for [**Month/Day (2) **]; BMT to
   discuss changes to abx regimen with ID
   3) Respiratory Failure: Pt intubated [**4-10**], remains intubated for mental
   status changes [**3-4**] sedation + encephalopathy, also restrictive
   physiology [**3-4**] intra-abdominal pressure. Pt currently on PSV 8/8
   without hypoxemia. RSBI good, but mental status unlikely to allow
   extubation (pt not following commands off sedation). Tracheostomy =
   preferred course, given this will allow cessatin of sedation, which
   will improve BP.
   -Plan for tracheostomy; surgery consult tomorrow
   -Serial ABGs w/ changes in vent settings
   -AM CXR
   4) Altered Mental Status: Stable. Pt able to follow only mouth
   commands. Alteration likely [**3-4**] toxic/metabolic encephalopathy [**3-4**]
   liver failure and uremia, as well as sedation.
   -Lactulose QID; hold on PR, given difficulty turning patient
   -Repeat Spontaneous Awakening Trial tonight
   5) Ileus: No stool output or bowel sounds for several days, also high
   output from OG tube, likely functional ileus, given pt is critically
   ill and on high doses of opioids. No obstruction on prelim CT read.
   -f/u final CT read
   -Continue Reglan at 15mg in TPN
   -Aggressive bowel regimen
   -Wean sedation as tolerated
   6) Hepatic Failure: Etiology is most likely VOD [**3-4**] SCT (RUQ US on [**4-14**]
   demonstrated persistent reversal of flow in main portal vein) with
   possible underlying cirrhosis [**3-4**] EtOH history. Viral hepatitis
   unlikely, given negative labs to date. Pt presented w/ encephalopathy,
   coagulopathy, elevated LFTs. Pt is s/p 3L paracentesis 2 days ago, with
   reaccumulating ascites, reflected in bladder pressures~20mmHg.
   Transaminases now normal but Tbili up to 6.5 from 5.9 yesterday.
   -Re-consult hepatology re: utility of liver biopsy to establish
   definitive diagnosis
   -Continue Defibrotide (560 mg IV Q6H) per protocol for VOD (targets for
   admin: Plt>30, Hct>30, INR<1.5, Fibrinogen>150)
   -Urusodiol via OGT
   -Q6H labs, as necessary, to monitor defibrotide parameters
   -Monitor Bladder Pressure to r/o abdominal compartment syndrome
   7) Metabolic Acidosis: pH of 7.30 in early AM with CO2 of 40 and AG of
   20 (up from 18). Likely etiology is combination of renal failure and
   lactic acidosis [**3-4**] infection. Repeat ABG 7.34/37, indicating
   respiratory compensation.
   -Infectious work-up, as above
   -Re-check lactate
   8) Oliguric ARF: Pt started on [**Month/Day (2) **] [**2155-4-12**] for worsening metabolic
   acidosis and worsening renal function. Etiology is ischemic ATN (urine
   sediment w/ muddy brown casts). Initial insult = hypotension, most
   likely [**3-4**] hepatorenal syndrome. Acidemia worse, then improved with
   respiratory compensation. Creatinine down to 2.6. Pt remains severely
   oliguric. No indication of improved renal function per UOP. Renal is
   following.
   -Continue [**Last Name (LF) **], [**First Name3 (LF) 77**] renal recs
   -Trend pH, calcium, lytes, BUN/Cr, Is/Os
   -Dose meds for [**First Name3 (LF) **]
   9) Follicular Lymphoma: Pt is s/p BEAM Auto SCT, day 21. Complicated
   social situation
 pt needs assistance with disability paperwork, wife
   is not working, one son has been expelled from school and is living
   away from home. BMT following. Social work is assisting with disability
   paperwork.
   -Acyclovir 400mg IV Q12H for ppx
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2155-4-23**] 10:15 PM 80 mL/hour
   Glycemic Control:  Regular Insulin in TPN; ISS
   Lines:
   Multi Lumen - [**2155-4-23**] 12:00 PM
   Tunneled (Hickman) Line - [**2155-4-23**] 12:00 PM
   Arterial Line - [**2155-4-23**] 02:24 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   VAP:  HOB elevation; mouth care
   Communication: Wife [**Name (NI) 1542**]
   [**Name (NI) 156**] status: Full code
   Disposition: Pending clinical improvement

2155-04-24 11:57:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Renal Failure
   Heaptic Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2155-4-23**] 12:00 PM
 TUNNELED (HICKMAN) LINE - START [**2155-4-23**] 12:00 PM
 ARTERIAL LINE - START [**2155-4-23**] 02:24 PM
 DIALYSIS CATHETER - STOP [**2155-4-23**] 03:30 PM
 ARTERIAL LINE - STOP [**2155-4-23**] 03:45 PM
 MULTI LUMEN - STOP [**2155-4-23**] 03:45 PM
   -All catheters changed at this time
   -Bladder pressure stable at 19
   RSBI overnight very favorable--On SBT patient with discomfort suggested
   by nursing and significant tachycardia seen.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2155-4-23**] 09:30 AM
   Micafungin - [**2155-4-23**] 09:44 PM
   Cefipime - [**2155-4-24**] 03:00 AM
   Metronidazole - [**2155-4-24**] 07:56 AM
   Acyclovir - [**2155-4-24**] 08:47 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Fentanyl (Concentrate) - 250 mcg/hour
   Norepinephrine - 0.4 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Midazolam (Versed) - [**2155-4-24**] 03:55 AM
   Pantoprazole (Protonix) - [**2155-4-24**] 08:00 AM
   Fentanyl - [**2155-4-24**] 11:22 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Flowsheet Data as of  [**2155-4-24**] 11:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 137 (125 - 141) bpm
   BP: 101/58(67) {91/56(66) - 105/67(73)} mmHg
   RR: 15 (12 - 22) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 112 kg (admission): 98.2 kg
   CVP: 17 (6 - 17)mmHg
   Bladder pressure: 20 (19 - 33) mmHg
   Total In:
                                                                 10,674 mL
                                                                  5,067 mL
   PO:
   TF:
   IVF:
                                                                  8,797 mL
                                                                  4,004 mL
   Blood products:
   Total out:
                                                                  7,787 mL
                                                                  4,853 mL
   Urine:
                                                                     15 mL
   NG:
                                                                    800 mL
                                                                    430 mL
   Stool:
   Drains:
   Balance:
                                                                  2,887 mL
                                                                    214 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 900 (105 - 990) mL
   PS : 8 cmH2O
   RR (Spontaneous): 12
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 24
   PIP: 6 cmH2O
   SpO2: 100%
   ABG: 7.32/39/89.[**Numeric Identifier 299**]/19/-5
   Ve: 11.2 L/min
   PaO2 / FiO2: 223
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, mild
   increase in distention
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.3 g/dL
   103 K/uL
   122 mg/dL
   2.7 mg/dL
   19 mEq/L
   4.4 mEq/L
   43 mg/dL
   102 mEq/L
   134 mEq/L
   35.7 %
   15.3 K/uL
        [image002.jpg]
                             [**2155-4-23**]  02:00 PM
                             [**2155-4-23**]  02:05 PM
                             [**2155-4-23**]  08:25 PM
                             [**2155-4-23**]  08:48 PM
                             [**2155-4-23**]  10:54 PM
                             [**2155-4-23**]  11:23 PM
                             [**2155-4-24**]  03:57 AM
                             [**2155-4-24**]  04:30 AM
                             [**2155-4-24**]  10:10 AM
                             [**2155-4-24**]  10:28 AM
   WBC
   15.3
   Hct
   35.7
   Plt
   81
   97
   98
   103
   Cr
   3.0
   2.7
   TCO2
   20
   19
   19
   20
   21
   Glucose
   134
   174
   112
   122
   Other labs: PT / PTT / INR:15.8/38.3/1.4, ALT / AST:50/43, Alk Phos / T
   Bili:165/6.5, Amylase / Lipase:/21, Differential-Neuts:77.0 %, Band:0.0
   %, Lymph:2.0 %, Mono:21.0 %, Eos:0.0 %, Fibrinogen:742 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:2.9 g/dL, LDH:310 IU/L, Ca++:9.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   CATH TIPS
All pending
   Imaging: CT Torso--no intra-abdominal fluid collections
   CXR-ETT
3 cm above carina, L SCL and R SCL in place
   Assessment and Plan
   67 yo male with admission following BMT now with persistent
   hypotension, renal failure, hepatic failure--he has continued search
   for source of vasodilatory shock and pressor requirement as well as
   persistent respiratory failure leading to need for continued support
   but with decreasing levels of PEEP as bladder pressure improves.
   1)       HYPOTENSION (NOT SHOCK)-
   -Will continue to utilize norepinephrine as needed
   -We do have significant persistence of hypotension with IV pressors
   required to maintain adequate perfusing pressor
   -We are looking to continue to use pressors to maintian even fluid
   balance at this time.
   -We have maintained line changes today to look to keep infection, if
   present and not identified formally
treated.
   -We have CT scan completed and need read to finalize look for possible
   additional source of infection.
   -Will discuss antibiotics with BMT team
   2)       RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])-
   -Will continue with PSV support and maintain PEEP at 8 or greater as
   needed
   -FIO2 at acceptable levels
   -Will need to move to tracheostomy
   3)       RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)-
   -Continue with CVVH and keep fluid balance even
   4) HEPATIC ENCEPHALOPATHY/VOD-
   -Defibrotide continuing at this time
   -Will continue to monitor mental status and examination
   -Will need to discuss with BMT team timing for evaluation of response
   to defibritide.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2155-4-23**] 10:15 PM 80 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2155-4-23**] 12:00 PM
   Tunneled (Hickman) Line - [**2155-4-23**] 12:00 PM
   Arterial Line - [**2155-4-23**] 02:24 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: Oral care
   Comments:
   Communication:  Comments: Wife updated, did not have specific questions
   at this time---did wish to speak with BMT team in regards to future
   plans with defibritide
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2155-04-25 06:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Yesterday:
   -Final CT read
 no evidence of fluid collection; moderate ascites;
   mesenteric stranding stable from [**11-8**]; small pleural effusions with
   likely compressive atelectasis
   -ID recs
 d/c micafungin; continue PO vanc and IV flagyl for empiric C
   diff
   -BMT
 consider liver biopsy for definitive dx, steroids; continue
   micafungin
   -Hepatology re-consult
 pt w/ subacute fulminant hepatic failure [**3-4**]
   VOD; recommend IR transjugular liver biopsy (scheduled for this AM);
   consider vit. K and midodrine 10mg PO TID for ?HRS
   -[**Month/Day (2) 727**] mode changed briefly to AC in attempt to increase pt comfort and
   decrease HR
 pt over-breathing [**Last Name (LF) **], [**First Name3 (LF) **] switched back to PSV
   Overnight:
   -On fentanyl drip; required small boluses of versed for discomfort,
   total 2mg
   -RSBI 29 on PSV 8/8; SBT held, given plan for liver bx
   -Pt received 500cc fluid bolus for MAPs b/n 60-65
   -Defibrotide held for liver bx
   -Pt received 1 unit plts (goal >80) and 2 units FFP for liver bx
   Allergies:
   Penicillins
 Hives
   Last dose of Antibiotics:
   Vancomycin - [**2155-4-23**] 09:30 AM
   Acyclovir - [**2155-4-24**] 08:00 PM
   Micafungin - [**2155-4-24**] 09:00 PM
   Metronidazole - [**2155-4-24**] 11:45 PM
   Cefipime - [**2155-4-25**] 02:00 AM
   Infusions:
   Fentanyl (Concentrate) - 250 mcg/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Norepinephrine - 0.41 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2155-4-24**] 08:00 AM
   Midazolam (Versed) - [**2155-4-25**] 02:35 AM
   Fentanyl - [**2155-4-25**] 02:57 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-4-25**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.6
C (97.9
   HR: 129 (125 - 138) bpm
   BP: 101/58(67) {0/0(0) - 0/0(0)} mmHg
   RR: 14 (11 - 24) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 116 kg (admission): 98.2 kg
    CVP: 13 (13 - 18)mmHg
   Bladder pressure: 18 (18 - 22) mmHg
   AM bladder pressure: 24
   Total In:
                                                                 11,397 mL
                                                                  3,416 mL
   PO:
                                   TF:
   IVF:
                                                                  9,153 mL
                                                                  2,860 mL
   Blood products:
   Total out:
                                                                 11,408 mL
                                                                  2,744 mL
   Urine:
                                                                     15 mL
                                                                     40 mL
   NG:
                                                                    830 mL
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                    -11 mL
                                                                    672 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,107 (750 - 1,107) mL
   PS : 8 cmH2O
   RR (Set): 20
   RR (Spontaneous): 16
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 29
   PIP: 17 cmH2O
   Plateau: 24 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.31/41/86.[**Numeric Identifier 253**]/20/-5
   Ve: 13.3 L/min
   PaO2 / FiO2: 218
   Physical Examination
   General: Intubated, sedated, unresponsive to commands
   HEENT: Eyes covered, exam deferred
   Neck: HD catheter on R; CVL on L
   Lungs: Ronchorous breath sounds in upper lung fields, clear breath
   sounds in lower lung fields anteriorly; no wheezes
   CV: RRR nl S1, S2, no murmurs
   Abdomen: Tense and distended (>yesterday) with significant pitting
   edema, no BS
   GU: +foley; +scrotal edema (>earlier this week)
   Ext: +pitting edema in UEs and [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 6086**]; feet now warm
   bilaterally, with DPs present on Doppler
   Labs / Radiology
   83 K/uL
   11.6 g/dL
   103 mg/dL
   2.4 mg/dL
   20 mEq/L
   4.4 mEq/L
   37 mg/dL
   103 mEq/L
   135 mEq/L
   35.1 %
   15.4 K/uL
        [image002.jpg]
                             [**2155-4-24**]  04:30 AM
                             [**2155-4-24**]  10:10 AM
                             [**2155-4-24**]  10:28 AM
                             [**2155-4-24**]  03:34 PM
                             [**2155-4-24**]  03:38 PM
                             [**2155-4-24**]  04:47 PM
                             [**2155-4-24**]  09:24 PM
                             [**2155-4-24**]  09:49 PM
                             [**2155-4-25**]  03:36 AM
                             [**2155-4-25**]  03:52 AM
   WBC
   14.6
   15.4
   Hct
   34.4
   35.1
   Plt
   103
   96
   93
   83
   Cr
   2.6
   2.4
   TCO2
   20
   21
   20
   22
   22
   Glucose
   122
   134
   130
   103
   Other labs: PT / PTT / INR:15.6/36.8/1.4, ALT / AST:46/44, Alk Phos / T
   Bili:164/6.8, Amylase / Lipase:/21, Differential-Neuts:77.0 %, Band:0.0
   %, Lymph:2.0 %, Mono:21.0 %, Eos:0.0 %, Fibrinogen:742 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:2.9 g/dL, LDH:279 IU/L, Ca++:9.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Radiology
   CT Torso
 Final read from [**4-23**]:
   1. No evidence of fluid collection.
   2. Moderate ascites.
   3. Mesenteric stranding in the mesentery, not significantly changed
   from [**2154-10-31**] likely related to third spacing or treatment of
   lymphoma.
   4. Interval decrease in size of inguinal and pelvic lymphadenopathy.
   5. Small pleural effusions with likely compressive atelectasis.
   6. Low lying endotracheal tube, recommend retracting by 3 cm for
   optimal positioning.
   CXR
 [**4-25**] (my read):
   Reduced lung volumes (compared with 3/25 film); new retrocardiac
   opacity, likely atelectasis; new opacity at R apex, likely soft tissue
   swelling.
   Microbiology
   IV Catheter tip x3
 No significant growth to date
   Blood cultures 3/20 and [**4-22**]
 NGTD
   Sputum culture [**4-22**]
 Commensal respiratory flora; no fungus isolated
   Peritoneal fluid
 No growth
   Assessment and Plan
   56yM with refractory follicular lymphoma, day 23 s/p BEAM Auto [**Hospital 11923**]
   transferred from BMT with fulminant hepatic failure [**3-4**] [**Last Name (un) 3140**]-occlusive
   disease, with ICU course complicated by persistent hypotension,
   culture-negative leukocytosis, acute renal failure requiring [**Last Name (un) **], and
   respiratory failure requiring ventilator support.
   1) Hypotension: Pt with increaseing pressor requirements over past
   week, now on max doses levophed. Etiology is likely combination of a)
   intravascular volume depletion [**3-4**] decreased effective circulating
   volume and splanchinic vasodilation from liver failure, and b)
   sedation. Sepsis less likely an explanation, as pt meets SIRS criteria
   but has no infectious source (all cultures negative to date) and is on
   broad-spectrum antimicrobial coverage. Sedation-induced hypotension
   likely to resolve w/ tracheostomy (see below). No hard evidence for
   adrenal insufficiency on [**Last Name (un) **] stim test.
   -IV fluid boluses as needed for BP support to meet goals of MAP>65,
   SBP>85
   -Continue norepinephrine; wean as tolerated
   -Start vasopressin if pt reaches max doses of norepinephrine, though
   2nd pressor would mean DQ from defibrotide trial
   -Continue abx and infectious work-up (below)
   -Hold steroids, given no clear indication at present
   2) Leukocytosis: WBC count stable at 15 this morning. Unclear etiology,
   given pt is s/p line changes with no abscess per CT, on
   Vanc/Cefepime/Flagyl/Micafungin, with negative cultures to date. SBP by
   PMN criteria, but pt is on abx with no organism isolated from
   peritoneal fluid. Other explanations for leukocytosis include
   inflammatory process (e.g. autoimmune disease) vs hematologic process
   (e.g. stress response vs new heme malignancy)
 all highly unlikely. ID
   is following.
   -f/u cultures
 catheter tip, blood, peritoneal fluid
   -Continue Vanc/Cefepime/Flagyl/Micafungin, dosed for [**Last Name (un) **]
 BMT to
   discuss changes to abx regimen with ID
   -d/c PO vanco, given no evidence of C diff clinically or on CT
   discuss w/ BMT
   3) Respiratory Failure: Pt intubated [**4-10**], remains intubated for mental
   status changes [**3-4**] sedation + encephalopathy, also restrictive
   physiology [**3-4**] intra-abdominal pressure. Pt not synchronizing w/ [**Month/Day (2) **]
   on AC, currently on PSV 8/8. CXR indicates reduced lung volumes with
   new area of retrocardiac atelectasis. ABG indicates respiratory
   acidosis; inadequate ventilation may be [**3-4**] inadequate pressure
   support. Apnea on sedation unlikely, given pt is maintaining his RR.
   RSBI encouraging at 29, but mental status unlikely to allow extubation
   (pt not following commands off sedation). Tracheostomy = preferred
   course, given this will allow complete cessation of sedation, which
   will improve the hypotension, although liver bx results may change
   goals of care.
   -Plan for tracheostomy but hold off on consult, pending results of
   liver bx
   -Increase PSV to [**11-7**] to improve ventilation
   -Consider increase in PEEP to 10 to improve alveolar recruitment, given
   new area of atelectasis on CXR
   -Serial ABGs w/ changes in [**Month/Day (4) **] settings
   -AM CXR
   4) Hepatic Failure: Etiology is most likely VOD [**3-4**] SCT. Reversal of
   flow in main portal vein demonstrated on US and MRI. Possible
   underlying cirrhosis [**3-4**] EtOH history. No role for autoimmune etiology,
   per hepatology. No laboratory evidence for viral hepatitis. Pt
   presented w/ encephalopathy, ascites, coagulopathy, elevated LFTs. Pt
   is s/p 3L paracentesis on [**4-20**], with reaccumulating ascites, reflected
   in bladder pressure now 24mmHg. Transaminases normal but Tbili trending
   up to 6.9 after nadir at 5.2. Per email communication with Dr. [**First Name4 (NamePattern1) **]
   [**Last Name (NamePattern1) 12202**] (PI on defibrotide study), median duration of defibrotide
   therapy for VOD is 19 d; 21-d course recommended d/t concern for
   relapse if tx held earlier; look for CR at 21-d (CR defined in [**2147**]
   [**Company 4816**] study as evidence of improvement in VOD-related symptoms and
   concurrent MOF, and a concomitant or subsequent decrease in bilirubin
   to less than 2 mg/dL), then re-evaluate. Hepatology is following.
   -IR-guided transjugular liver bx today to establish definitive dx,
   extent of hepatocellular damage, prognosis
   -Continue 21-day course of defibrotide (560 mg IV Q6H) per protocol for
   VOD (targets for admin: Plt>30, Hct>30, INR<1.5, Fibrinogen>150), but
   hold 2 doses before and 2 doses after liver bx
   -Urusodiol via OGT
   -Q6H labs to monitor defibrotide parameters
   -Repeat paracentesis while pt off defibrotide, given up-trending
   bladder pressure
   -Continue bladder pressure measurements
   5) Acidemia: Pt
s ABG this AM reflects concurrent gap and non-gap
   metabolic acidosis [**3-4**] renal failure, and respiratory acidosis,
   discussed above.
   -[**Month/Day (2) **] adjustments, per renal
   -Adjust [**Month/Day (2) **] settings to increase pressure support, as above
   6) Oliguric ARF: Pt started on [**Month/Day (2) **] [**2155-4-12**] for worsening metabolic
   acidosis and worsening renal function. Etiology is ischemic ATN (urine
   sediment w/ muddy brown casts). Initial insult = hypotension, most
   likely [**3-4**] hepatorenal syndrome. Pt remains extremely volume overloaded
   but cannot run negative on [**Month/Day (2) **] [**3-4**] hypotension. Pt has persistent
   metabolic acidosis, as above. Creatinine down-trending slowly, 2.4
   today from peak of 3.4 on [**4-14**]. Pt remains severely oliguric with no
   indication of improved renal function per UOP. Renal is following.
   -Continue [**Last Name (LF) **], [**First Name3 (LF) 77**] renal recs
   -Trend pH, calcium, lytes, BUN/Cr, Is/Os
   -Dose meds for [**First Name3 (LF) **]
   7) Altered Mental Status: Stable. Pt able to follow only mouth
   commands. Alteration likely [**3-4**] toxic/metabolic encephalopathy [**3-4**]
   liver failure and uremia, as well as sedation.
   -Lactulose QID; hold on PR, given difficulty turning patient
   -Repeat Spontaneous Awakening Trial tonight
   8) Ileus: No stool output or bowel sounds for past 4-5 days, also high
   output from OG tube, likely functional ileus, given pt is critically
   ill and on high doses of opioids. No obstruction on CT read.
   -Continue Reglan at 15mg in TPN
   -Aggressive bowel regimen
   -Wean sedation as tolerated
   -Consider PO naloxone if ileus persists
   9) Follicular Lymphoma: Pt is s/p BEAM Auto SCT, day 23. BMT and Social
   Work are following.
   -Continue acyclovir ppx
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2155-4-24**] 10:17 PM 80 mL/hour
   Glycemic Control:  Regular Insulin in TPN; Insulin SS
   Lines:
   Multi Lumen - [**2155-4-23**] 12:00 PM
   Arterial Line - [**2155-4-23**] 02:24 PM
   Dialysis Catheter - [**2155-4-23**] 04:14 PM
   Prophylaxis:
   DVT: Boots, Defibrotide
   Stress ulcer: PPI
   VAP:  HOB elevation; mouth care
   Communication: Wife [**Name (NI) 1542**]
   [**Name (NI) 156**] status: Full code
   Disposition: No current plans for dispo
   ------ Protected Section ------
    Patient seen and examined with MS4 and agree with assessment and plan
   as described.
   ------ Protected Section Addendum Entered By:[**Name (NI) 11858**] [**Name8 (MD) 807**], MD
   on:[**2155-4-26**] 07:11 ------

2155-04-25 09:40:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Renal Failure
   Hepatic Failure
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
   CT--No evidence of fluid collection, small effusions and compressive
   atelectatsis
   Hepatology Consult--Move to liver biopsy to day to look at level of
   hepatic failure and cellular necrosis to allow prognosis to be more
   clearly defined.
   PSV continued
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2155-4-23**] 09:30 AM
   Acyclovir - [**2155-4-24**] 08:00 PM
   Micafungin - [**2155-4-24**] 09:00 PM
   Metronidazole - [**2155-4-24**] 11:45 PM
   Cefipime - [**2155-4-25**] 02:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Norepinephrine - 0.4 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Fentanyl (Concentrate) - 250 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2155-4-25**] 02:35 AM
   Fentanyl - [**2155-4-25**] 04:00 AM
   Pantoprazole (Protonix) - [**2155-4-25**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever, 99
   Flowsheet Data as of  [**2155-4-25**] 09:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37
C (98.6
   HR: 131 (123 - 138) bpm
   BP: 71/43(53) {60/42(48) - 130/76(92)} mmHg
   RR: 17 (11 - 24) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 116 kg (admission): 98.2 kg
   CVP: 13 (13 - 18)mmHg
   Bladder pressure: 24 (18 - 24) mmHg
                                Total In:
                                                                 11,397 mL
                                                                  6,098 mL
   PO:
                                TF:
   IVF:
                                                                  9,153 mL
                                                                  4,395 mL
   Blood products:
   873 mL
   Total out:
                                                                 11,408 mL
                                                                  4,053 mL
   Urine:
                                                                     15 mL
                                                                     40 mL
   NG:
                                                                    830 mL
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                    -11 mL
                                                                  2,045 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 617 (617 - 1,107) mL
   PS : 8 cmH2O
   RR (Set): 20
   RR (Spontaneous): 19
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 29
   PIP: 17 cmH2O
   Plateau: 24 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.31/41/86.[**Numeric Identifier 253**]/20/-5
   Ve: 10.6 L/min
   PaO2 / FiO2: 218
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Bowel sounds present, Distended, Tense
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.6 g/dL
   83 K/uL
   103 mg/dL
   2.4 mg/dL
   20 mEq/L
   4.4 mEq/L
   37 mg/dL
   103 mEq/L
   135 mEq/L
   35.1 %
   15.4 K/uL
        [image002.jpg]
                             [**2155-4-24**]  04:30 AM
                             [**2155-4-24**]  10:10 AM
                             [**2155-4-24**]  10:28 AM
                             [**2155-4-24**]  03:34 PM
                             [**2155-4-24**]  03:38 PM
                             [**2155-4-24**]  04:47 PM
                             [**2155-4-24**]  09:24 PM
                             [**2155-4-24**]  09:49 PM
                             [**2155-4-25**]  03:36 AM
                             [**2155-4-25**]  03:52 AM
   WBC
   14.6
   15.4
   Hct
   34.4
   35.1
   Plt
   103
   96
   93
   83
   Cr
   2.6
   2.4
   TCO2
   20
   21
   20
   22
   22
   Glucose
   122
   134
   130
   103
   Other labs: PT / PTT / INR:15.6/36.8/1.4, ALT / AST:46/44, Alk Phos / T
   Bili:164/6.8, Amylase / Lipase:/21, Differential-Neuts:77.0 %, Band:0.0
   %, Lymph:2.0 %, Mono:21.0 %, Eos:0.0 %, Fibrinogen:742 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:2.9 g/dL, LDH:279 IU/L, Ca++:9.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Imaging: CXR--Left sided small area of LLL opacity consistent with
   collapse of posterior basal segment.
   Assessment and Plan
   Patient with persistent and significant and relatively static and
   severe impairment in blood pressure with distributive shock.  He has
   maintained persistent need for continuous renal replacement therapy and
   has not shown any return of intrinsic renal function.   Ventilator
   support has been maintained at stable settings as fluid volume has been
   controlled with CVVH.  Extensive investigations with cortisol levels,
   repeat scans, change in catheters have all failed to reveal a source of
   vasodilatory shock and discussion has now turned to possible
   significant insult persisting from hepatic failure and plans for biopsy
   in place for today.
   1)HYPOTENSION (NOT SHOCK)-
   -Cefepime/Flagyl/Vanco-po/Vanco-IV/Micafungin
   -Levophed continuing
   -This may well be his persistent hepatic failure
   -Catheters all changed, no new focal source of infection
   2) RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])-
   -Continue PSV
patient with very active inspiratory and expiratory cycle
   -FIO2 to maintain as stable
   3) RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)-
   -Continue with CVVH
   4)HEPATIC FAILURE-
   Biopsy today to evaluate for cellular structure and prognosis
   -Continue with defibritide
   -Continue with hepatology consult
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2155-4-24**] 10:17 PM 80 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2155-4-23**] 12:00 PM
   Arterial Line - [**2155-4-23**] 02:24 PM
   Dialysis Catheter - [**2155-4-23**] 04:14 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2155-04-26 07:09:00 Physician Resident Progress Note
Chief Complaint: CC: Abdominal Pain
   [**Hospital Unit Name 4**] Admission: [**Last Name (un) **] occulsive disease, s/p BMT
   24 Hour Events:
   - transjugular liver biopsy performed after getting 2U FFP
   - also got 3L of fluid removed during IR guided paracentesis, no SBP &
   negative gram stain
   - per BMT: switching cefepime/flagyl to meropenem, consider changing
   antifungal therapy to voriconazole or ambisome
   - ID recs: Okay with switching cefepime/flagyl but concerned about
   toxicity of increased antifungal therapy
   - Levophed increased during day, but titrated down at night
   - social work seen, provided support
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Micafungin - [**2155-4-24**] 09:00 PM
   Metronidazole - [**2155-4-25**] 09:30 AM
   Vancomycin - [**2155-4-25**] 10:00 AM
   Cefipime - [**2155-4-25**] 03:00 PM
   Meropenem - [**2155-4-25**] 06:00 PM
   Acyclovir - [**2155-4-25**] 07:57 PM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Norepinephrine - 0.2 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2155-4-25**] 08:30 AM
   Fentanyl - [**2155-4-25**] 08:15 PM
   Midazolam (Versed) - [**2155-4-26**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-4-26**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37
C (98.6
   HR: 122 (120 - 138) bpm
   BP: 110/54(71) {60/42(48) - 156/80(98)} mmHg
   RR: 14 (12 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 114.7 kg (admission): 98.2 kg
    CVP: 12 (9 - 15)mmHg
   Bladder pressure: 15 (14 - 24) mmHg
                                Total In:
                                                                 12,876 mL
                                                                  3,587 mL
   PO:
                                TF:
   IVF:
                                                                 10,213 mL
                                                                  2,346 mL
   Blood products:
                                                                    873 mL
                                                                    686 mL
   Total out:
                                                                  9,872 mL
                                                                  3,217 mL
   Urine:
                                                                     80 mL
                                                                     45 mL
   NG:
                                                                    650 mL
   Stool:
   Drains:
   Balance:
                                                                  3,004 mL
                                                                    370 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 780 (617 - 817) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 34
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: 7.36/42/106/21/-1
   Ve: 11.6 L/min
   PaO2 / FiO2: 265
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: eyes covered
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: No(t) Bowel sounds present, Distended, subcutaneous edema
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Not assessed, Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   84 K/uL
   10.1 g/dL
   99 mg/dL
   2.3 mg/dL
   21 mEq/L
   4.0 mEq/L
   38 mg/dL
   103 mEq/L
   137 mEq/L
   30.4 %
   11.7 K/uL
        [image002.jpg]
                             [**2155-4-25**]  03:36 AM
                             [**2155-4-25**]  03:52 AM
                             [**2155-4-25**]  09:17 AM
                             [**2155-4-25**]  09:28 AM
                             [**2155-4-25**]  03:50 PM
                             [**2155-4-25**]  04:02 PM
                             [**2155-4-25**]  09:45 PM
                             [**2155-4-25**]  09:58 PM
                             [**2155-4-26**]  03:45 AM
                             [**2155-4-26**]  03:55 AM
   WBC
   15.4
   12.4
   13.1
   13.9
   11.7
   Hct
   35.1
   32.3
   30.1
   31.8
   30.4
   Plt
   83
   108
   83
   85
   84
   Cr
   2.4
   2.5
   2.3
   TCO2
   22
   22
   21
   21
   25
   Glucose
   103
   99
   96
   147
   99
   Other labs: PT / PTT / INR:15.1/34.4/1.3, ALT / AST:36/39, Alk Phos / T
   Bili:140/7.2, Amylase / Lipase:/21, Differential-Neuts:77.0 %, Band:0.0
   %, Lymph:2.0 %, Mono:21.0 %, Eos:0.0 %, Fibrinogen:640 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:3.0 g/dL, LDH:252 IU/L, Ca++:10.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR [**2155-4-25**]:
   CHEST, AP: Lung volumes are low, with bibasilar atelectasis. Monitoring
   and
   support devices are in standard position, with the exception of a
   nasogastric tube that coils in the stomach and extends beyond the film.
   There are no pleural effusions or pneumothorax. The cardiomediastinal
   and hilar contours are normal.
   IMPRESSION: No acute cardiopulmonary process.
   Microbiology: Peritnoneal Fluid [**2155-4-25**]:
   GRAM STAIN (Final [**2155-4-25**]):
   NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. NO MICROORGANISMS SEEN.
   [**2155-4-23**]: Catheter tip (x3) negative
   Assessment and Plan
   56yM with refractory follicular lymphoma, day 24 s/p BEAM Auto [**Hospital 11923**]
   transferred from BMT with fulminant hepatic failure [**3-4**] [**Last Name (un) 3140**]-occlusive
   disease, on dofibritide day 20/21 with ICU course complicated by
   persistent hypotension, culture-negative leukocytosis, acute renal
   failure requiring [**Last Name (un) **], and respiratory failure requiring ventilator
   support.
   #) Hypotension: Reduced pressor requirement overnight. Etiology is
   likely combination of a) intravascular volume depletion [**3-4**] decreased
   effective circulating volume and splanchinic vasodilation from liver
   failure, and b) sedation.  Also concern for sepsis thoguh cultures
   negative to date and has been on broad spectrum antibiotics for a long
   time.  Switched from cefepime/flagyl  to meropenem yesterday.  Given
   difference on opinion regarding antifungal treatement, maintained
   micafungin treatment.
   -IV fluid boluses as needed for BP support to meet goals of MAP>65,
   SBP>85
   -Continue norepinephrine; wean as tolerated
   -Start vasopressin if pt reaches max doses of norepinephrine, though
   2nd pressor would mean DQ from defibrotide trial
   -Continue abx and infectious work-up (below)
   -Hold steroids, given no clear indication at present
   #) Leukocytosis: WBC down to 11 today. Unclear etiology, given pt is
   s/p line changes with no abscess per CT, on Vanc/[**Last Name (un) 350**]/Micafungin, with
   negative cultures to date. No PMNs on yesterdays para.
   -f/u cultures: catheter tip, blood, peritoneal fluid
   -Continue Vanc/[**Last Name (un) 350**]/Micafungin, dosed for [**Last Name (un) **]
   #) Respiratory Failure: Pt intubated [**4-10**], remains intubated for mental
   status changes [**3-4**] sedation + encephalopathy, also restrictive
   physiology [**3-4**] intra-abdominal pressure, anasarca.
   -Plan for tracheostomy but hold off on consult, pending results of
   liver bx
   - maintain current vent settings
   - AM CXR
   #) Hepatic Failure: Etiology is most likely VOD [**3-4**] SCT. Reversal of
   flow in main portal vein demonstrated on US and MRI. Possible
   underlying cirrhosis [**3-4**] EtOH history. Had para [**4-20**], again [**4-25**] with
   3L off, bladder pressure after was 14.
   Per email communication with Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 12202**] (PI on defibrotide
   study), median duration of defibrotide therapy for VOD is 19 d; 21-d
   course recommended d/t concern for relapse if tx held earlier; look for
   CR at 21-d (CR defined in [**2147**] [**Company 4816**] study as evidence of improvement in
   VOD-related symptoms and concurrent MOF, and a concomitant or
   subsequent decrease in bilirubin to less than 2 mg/dL), then
   re-evaluate. Appreciate hepatology input.
   -f/u liver biopsy results
   -Continue 21-day course of defibrotide (560 mg IV Q6H) per protocol for
   VOD (targets for admin: Plt>30, Hct>30, INR<1.5, Fibrinogen>150), but
   hold 2 doses before and 2 doses after liver bx
   -Urusodiol via OGT
   -Q6H labs to monitor defibrotide parameters (Hct, INR)
   -Continue bladder pressure measurements
   - hepatology recs
   #) Anasarca: Patient + 21L LOS.  This is likely contributing to his
   respiratory compromise.  We have been maintaining his blood pressure
   with boluses and levophed.  If we stop the dofibritide, and the goals
   of care remain curative/supportive, we could consider supporting his
   pressure with increased pressors and remove fluid with CVVH
   #) Acidemia: Pt
s ABG this AM reflects concurrent gap and non-gap
   metabolic acidosis [**3-4**] renal failure, and respiratory acidosis,
   discussed above.
   -[**Month/Day (2) **] adjustments, per renal
   -Adjust vent settings to increase pressure support, as above
   #) Oliguric ARF: Pt started on [**Month/Day (2) **] [**2155-4-12**] for worsening metabolic
   acidosis and worsening renal function. Etiology is ischemic ATN (urine
   sediment w/ muddy brown casts). Initial insult = hypotension, most
   likely [**3-4**] hepatorenal syndrome. Pt remains extremely volume overloaded
   but cannot run negative on [**Month/Day (2) **] [**3-4**] hypotension. Pt has persistent
   metabolic acidosis, as above. Creatinine down-trending slowly, 2.4
   today from peak of 3.4 on [**4-14**]. Pt remains severely oliguric with no
   indication of improved renal function per UOP. Renal is following.
   -Continue [**Last Name (LF) **], [**First Name3 (LF) 77**] renal recs
   -Trend pH, calcium, lytes, BUN/Cr, Is/Os
   -Dose meds for [**First Name3 (LF) **]
   #) Altered Mental Status: Stable. Pt able to follow only mouth
   commands. Alteration likely [**3-4**] toxic/metabolic encephalopathy [**3-4**]
   liver failure and uremia, as well as sedation.
   -Lactulose QID; hold on PR, given difficulty turning patient
   -Repeat Spontaneous Awakening Trial tonight
   #) Ileus: No stool output or bowel sounds for past 4-5 days, also high
   output from OG tube, likely functional ileus, given pt is critically
   ill and on high doses of opioids. No obstruction on CT read.
   -Continue Reglan at 15mg in TPN
   -Aggressive bowel regimen
   -Wean sedation as tolerated
   #) Goals of care.  BMT social work following.  Dependent on completion
   of dofibritide, liver bx results, may readdress goals of care.
   #) Follicular Lymphoma: Pt is s/p BEAM Auto SCT, day 23. BMT and Social
   Work are following.
   -Continue acyclovir ppx
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2155-4-25**] 05:58 PM 80 mL/hour
   Glycemic Control:  Insulin in TPN
   Lines:
   Multi Lumen - [**2155-4-23**] 12:00 PM
   Arterial Line - [**2155-4-23**] 02:24 PM
   Dialysis Catheter - [**2155-4-23**] 04:14 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Correction to above:
   - patient is on day 20 of dofibritide
   - will follow daily lactate
   ------ Protected Section Addendum Entered By:[**Name (NI) 11858**] [**Name8 (MD) 807**], MD
   on:[**2155-4-26**] 10:44 ------
   MICU ATTENDING ADDENDUM:
   I have seen and examined the patient and concur with Dr [**Last Name (STitle) 807**]
 note
   above. Mr [**Known lastname 11910**] has had a 3 L paracentesis which does not show
   features of infection without much change in his bladder pressures.
   However, need for levophed is less since yesterday. Liver biopsy
   results are pending.
   He will need continued supportive care with CVVH, ventilatory assist
   and broad antibiotics. Once defibrtide infusion completed and results
   of biopsy are in, discussion with family and primary oncology team will
   be held to discuss overall goals of care. If outlook from hepatology
   perspective is not grave, then I would favor aggressive attempts at
   fluid removal ( CVVH, paracentesis) with albumin support to help
   ventilator wean. Sedation needs are still high given severity of
   multiorgan dysfunction/ failure. Discussed with team and Dr [**Last Name (STitle) **].
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 803**], M.D.
   Pulmonary, Critical Care and Sleep Medicine.
   CC time: 45 mins
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 803**], MD
   on:[**2155-4-26**] 12:51 PM ------

2155-04-27 08:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - f/u para data: no pmns or organisms. All tip cultures from lines
   NGTD.
   - d/cd po vanco since cdiff negative; okd w BMT.
   - f/u cultures
   - f/u liver path (per path, should be avail Monday)--family very
   anxious for results.
   - Per discussion w BMT plan for defibrotide thru sunday.  Unlikely to
   continue past 21 days.
   - goals of care discussion once bx data obtained.
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Metronidazole - [**2155-4-25**] 09:30 AM
   Cefipime - [**2155-4-25**] 03:00 PM
   Vancomycin - [**2155-4-26**] 08:17 AM
   Acyclovir - [**2155-4-26**] 07:50 PM
   Micafungin - [**2155-4-26**] 09:00 PM
   Meropenem - [**2155-4-27**] 12:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Norepinephrine - 0.2 mcg/Kg/min
   KCl (CRRT) - 1 mEq./hour
   Fentanyl (Concentrate) - 250 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2155-4-26**] 08:17 AM
   Midazolam (Versed) - [**2155-4-27**] 02:02 AM
   Fentanyl - [**2155-4-27**] 04:45 AM
   Other medications:
   Flowsheet Data as of  [**2155-4-27**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.4
   HR: 126 (118 - 138) bpm
   BP: 90/56(66) {76/47(56) - 163/87(109)} mmHg
   RR: 14 (13 - 26) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 114.7 kg (admission): 98.2 kg
    CVP: 14 (8 - 16)mmHg
   Bladder pressure: 15 (15 - 17) mmHg
   Total In:
                                                                 10,693 mL
                                                                  3,202 mL
   PO:
                                                                     90 mL
   TF:
   IVF:
                                                                  7,942 mL
                                                                  2,506 mL
   Blood products:
                                                                    686 mL
   Total out:
                                                                 11,039 mL
                                                                  3,455 mL
   Urine:
                                                                     58 mL
   NG:
                                                                    500 mL
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                   -346 mL
                                                                   -253 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 932 (590 - 950) mL
   PS : 10 cmH2O
   RR (Spontaneous): 32
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: 7.42/34/90.[**Numeric Identifier 299**]/19/-1
   Ve: 23.6 L/min
   PaO2 / FiO2: 225
   Physical Examination
   General: Intubated, sedated, unresponsive to commands
   HEENT: Eyes covered
   Neck: HD catheter on R; CVL on L
   Lungs: Rhonchorous breath sounds in upper lung fields, clear breath
   sounds in lower lung fields anteriorly; no wheezes
   CV: RRR nl S1, S2, no murmurs
   Abdomen: Tense and distended with significant pitting edema, no BS
   GU: +foley; +scrotal edema
   Ext: +pitting edema in UEs and [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 6086**]; feet warm bilaterally
   Labs / Radiology
   70 K/uL
   11.7 g/dL
   101 mg/dL
   2.3 mg/dL
   19 mEq/L
   5.0 mEq/L
   35 mg/dL
   102 mEq/L
   134 mEq/L
   35.9 %
   14.8 K/uL
        [image002.jpg]
                             [**2155-4-26**]  03:45 AM
                             [**2155-4-26**]  03:55 AM
                             [**2155-4-26**]  09:08 AM
                             [**2155-4-26**]  09:23 AM
                             [**2155-4-26**]  03:46 PM
                             [**2155-4-26**]  04:09 PM
                             [**2155-4-26**]  09:54 PM
                             [**2155-4-26**]  10:24 PM
                             [**2155-4-27**]  04:02 AM
                             [**2155-4-27**]  04:28 AM
   WBC
   11.7
   14.8
   Hct
   30.4
   35.9
   Plt
   84
   81
   81
   70
   Cr
   2.3
   2.4
   2.3
   TCO2
   25
   25
   23
   23
   23
   Glucose
   99
   106
   113
   139
   101
   Other labs: PT / PTT / INR:16.1/34.5/1.4, ALT / AST:36-->38  / 39-->81,
   Alk Phos / T Bili:148/    7.2--> 8.6, Amylase / Lipase:/21,
   Differential-Neuts:77.0 %, Band:0.0 %, Lymph:2.0 %, Mono:21.0 %,
   Eos:0.0 %, Fibrinogen:690 mg/dL, Lactic Acid:2.2 mmol/L, Albumin:2.6
   g/dL, LDH:556 IU/L, Ca++:9.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR: no significant interval change. Persistently low lung
   volumes.
   Microbiology: [**4-26**] Blood cultures (including fungal) NGTD.
   [**4-25**] Pleural fluid negative.
   Assessment and Plan
   56yM with refractory follicular lymphoma, day 25 s/p BEAM Auto [**Hospital 11923**]
   transferred from BMT with fulminant hepatic failure [**3-4**] [**Last Name (un) 3140**]-occlusive
   disease, on dofibritide day 21/21 with ICU course complicated by
   persistent hypotension, culture-negative leukocytosis, acute renal
   failure requiring [**Last Name (un) **], and respiratory failure requiring ventilator
   support.  Now with labs this morning suggestive of worsening liver
   function.
   #) Hypotension: Reduced pressor requirement overnight. Etiology is
   likely combination of a) intravascular volume depletion [**3-4**] decreased
   effective circulating volume and splanchinic vasodilation from liver
   failure, and b) sedation.  Also concern for sepsis thoguh cultures
   negative to date and has been on broad spectrum antibiotics for a long
   time.  Switched from cefepime/flagyl  to meropenem [**4-25**].  Given
   difference on opinion regarding antifungal treatement, maintained
   micafungin treatment. Per BMT yesterday will hold off on amphotericin
   tx for possibility of occult fungal infection since pt seemed somewhat
   mildly improved (requiring less pressure support)- on
   vanc/mica/meropenem.  PO vancomycin discontinued yesterday given cdiff
   negative lab results.
   - Pressors, IV fluid boluses as needed for BP support to meet goals of
   MAP>65, SBP>85
   -Wean pressors as tolerated
   -Start vasopressin if pt reaches max doses of norepinephrine, though
   2nd pressor would mean DQ from defibrotide trial
   -Continue abx and infectious work-up (below)
   -Hold steroids, given no clear indication at present
   #) Leukocytosis: WBC slightly increased at 14.8 today. Unclear
   etiology, given pt is s/p line changes with no abscess per CT, on
   Vanc/[**Last Name (un) 350**]/Micafungin, with negative cultures to date. No PMNs on [**4-25**]
   paracentesis.
   -f/u cultures
   -Continue Vanc/[**Last Name (un) 350**]/Micafungin, dosed for [**Last Name (un) **]
   #) Respiratory Failure: Pt intubated [**4-10**], remains intubated for mental
   status changes [**3-4**] sedation + encephalopathy, also restrictive
   physiology [**3-4**] intra-abdominal pressure, anasarca.
   -Plan for tracheostomy but hold off on consult, pending results of
   liver bx
   - maintain current vent settings
   - AM CXR
   #) Hepatic Failure: Etiology is most likely VOD [**3-4**] SCT. Reversal of
   flow in main portal vein demonstrated on US and MRI. Possible
   underlying cirrhosis [**3-4**] EtOH history. Had para [**4-20**], again [**4-25**] with
   3L off, bladder pressure after was 14.
   Per email communication with Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 12202**] (PI on defibrotide
   study), median duration of defibrotide therapy for VOD is 19 d; 21-d
   course recommended d/t concern for relapse if tx held earlier; look for
   CR at 21-d (CR defined in [**2147**] [**Company 4816**] study as evidence of improvement in
   VOD-related symptoms and concurrent MOF, and a concomitant or
   subsequent decrease in bilirubin to less than 2 mg/dL), then
   re-evaluate. Appreciate hepatology input.  AST and Tbili increased
   today.
   -f/u liver biopsy results
   -Continue 21-day course of defibrotide (560 mg IV Q6H) per protocol for
   VOD (targets for admin: Plt>30, Hct>30, INR<1.5, Fibrinogen>150), but
   hold 2 doses before and 2 doses after liver bx
   -Urusodiol via OGT
   -Q6H labs to monitor defibrotide parameters (Hct, INR)
   -Continue bladder pressure measurements
   - hepatology recs
   #) Anasarca: Patient + 19L LOS.  This is likely contributing to his
   respiratory compromise.  We have been maintaining his blood pressure
   with boluses and levophed.  If we stop the dofibritide, and the goals
   of care remain curative/supportive, we could consider supporting his
   pressure with increased pressors and remove fluid with CVVH
   #) Oliguric ARF: Pt started on [**Company **] [**2155-4-12**] for worsening metabolic
   acidosis and worsening renal function. Etiology is ischemic ATN (urine
   sediment w/ muddy brown casts). Initial insult = hypotension, most
   likely [**3-4**] hepatorenal syndrome. Pt remains extremely volume overloaded
   but cannot run negative on [**Month/Day (2) **] [**3-4**] hypotension. Pt has persistent
   metabolic acidosis, as above. Creatinine down-trending slowly, 2.4
   today from peak of 3.4 on [**4-14**]. Pt remains severely oliguric with no
   indication of improved renal function per UOP. Renal is following.
   -Continue [**Last Name (LF) **], [**First Name3 (LF) 77**] renal recs
   -Trend pH, calcium, lytes, BUN/Cr, Is/Os
   -Dose meds for [**First Name3 (LF) **]
   #) Altered Mental Status: Stable. Pt able to follow only mouth
   commands. Alteration likely [**3-4**] toxic/metabolic encephalopathy [**3-4**]
   liver failure and uremia, as well as sedation.
   -Lactulose QID; hold on PR, given difficulty turning patient
   -Repeat Spontaneous Awakening Trials daily
   #) Ileus: No stool output or bowel sounds for past 4-5 days, also high
   output from OG tube, likely functional ileus, given pt is critically
   ill and on high doses of opioids. No obstruction on CT read.
   -Continue Reglan at 15mg in TPN
   -Aggressive bowel regimen
   -Wean sedation as tolerated
   #) Goals of care.  BMT social work following.  Dependent on completion
   of dofibritide, liver bx results, may readdress goals of care; family
   would like to do this Monday, [**4-28**]. They are very anxious about biopsy
   results.
   #) Follicular Lymphoma: Pt is s/p BEAM Auto SCT, day 23. BMT and Social
   Work are following.
   -Continue acyclovir ppx
   ICU Care
   Nutrition:  TPN w/ Lipids - [**2155-4-26**] 06:01 PM 80 mL/hour
   Glycemic Control:  Insulin in TPN
   Lines: Multi Lumen - [**2155-4-23**] 12:00 PM,  Arterial Line - [**2155-4-23**]
   02:24 PM, Dialysis Catheter - [**2155-4-23**] 04:14 PM
   Prophylaxis:  DVT: Boots   Stress ulcer: PPI   VAP: HOB elevation,
   Mouth care
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
    MICU ATTENDING ADDENDUM
   I have seen and examined the patient and concur with Dr [**Last Name (STitle) 12242**]
 note
   above.
   Mr [**Known lastname 11910**] has remained on the same dose of pressors and ventilatory
   support over past 24 hours.
   We await urgent review of liver biopsy and then will need to discuss
   with primary oncology/ hepatology team regarding plans for support/
   withdrawal as his wife reports that he would not have wanted prolonged
   heroic supportive care/ dialysis.
   Defibrotide infusion to continue till pathology  is back for review. We
   hope to avoid escalation of pressors.
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 803**], M.D.
   Pulmonary, Critical Care and Sleep Medicine,
   CC time: 50 mins
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 803**], MD
   on:[**2155-4-27**] 11:39 AM ------

2155-04-28 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - f/u path on transjugular liver biopsy on [**4-28**]--> need mtg w primary
   BMT team, critical care team, hepatologist to determine prognosis and
   speak w family w goals of care decision
   - wife confused b/c received grim prognosis yesterday from liver attg
   but more hopeful prognosis from BMT team; family stresses that all
   consulting teams and ICU team should discuss prognosis prior to
   speaking w family after path results ready
   - needs Q6h platelets and [**Hospital1 **] LFTs, Hct, coags, fibrinogen--> per
   defibritide protocol
   - continue defibritide protocol at least until pathology results come
   back [**4-28**]
   - ID recs: contin Surveillance Bld cx, cont broad spec Abx, C diff; ID
   signing off?
   - Renal: cont CVVH Net Even for now; awaiting goals of care discussion
   w family Monday
   - CVVH - pulled off 500ccs in early evening
   History obtained from Medical records
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Metronidazole - [**2155-4-25**] 09:30 AM
   Cefipime - [**2155-4-25**] 03:00 PM
   Vancomycin - [**2155-4-27**] 08:54 AM
   Acyclovir - [**2155-4-27**] 07:45 PM
   Micafungin - [**2155-4-27**] 09:00 PM
   Meropenem - [**2155-4-27**] 11:18 PM
   Infusions:
   Calcium Gluconate (CRRT) - 1 grams/hour
   KCl (CRRT) - 1 mEq./hour
   Fentanyl (Concentrate) - 250 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2155-4-27**] 08:54 AM
   Fentanyl - [**2155-4-28**] 05:50 AM
   Midazolam (Versed) - [**2155-4-28**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-4-28**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 133 (118 - 142) bpm
   BP: 121/74(88) {83/50(61) - 138/82(98)} mmHg
   RR: 19 (13 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 114.7 kg (admission): 98.2 kg
    CVP: 10 (10 - 14)mmHg
   Bladder pressure: 19 (18 - 19) mmHg
   Total In:
                                                                 10,264 mL
                                                                  2,820 mL
   PO:
   TF:
   IVF:
                                                                  8,174 mL
                                                                  2,230 mL
   Blood products:
   Total out:
                                                                 11,285 mL
                                                                  2,866 mL
   Urine:
                                                                      3 mL
                                                                      4 mL
   NG:
                                                                    700 mL
                                                                    260 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,021 mL
                                                                    -46 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 891 (686 - 932) mL
   PS : 10 cmH2O
   RR (Spontaneous): 16
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: 7.40/42/95.[**Numeric Identifier 252**]/21/-2
   Ve: 12 L/min
   PaO2 / FiO2: 238
   Physical Examination
   General Appearance: alopecia, jaundice
   Head, Ears, Nose, Throat: Endotracheal tube, No(t) NG tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), Tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed), wwp extremities
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, No(t) Bowel sounds present, Distended, ascites
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm, Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   60 K/uL
   12.0 g/dL
   81 mg/dL
   2.1 mg/dL
   21 mEq/L
   4.9 mEq/L
   36 mg/dL
   101 mEq/L
   135 mEq/L
   37.1 %
   16.2 K/uL
        [image002.jpg]
                             [**2155-4-27**]  04:02 AM
                             [**2155-4-27**]  04:28 AM
                             [**2155-4-27**]  09:25 AM
                             [**2155-4-27**]  09:46 AM
                             [**2155-4-27**]  02:59 PM
                             [**2155-4-27**]  03:20 PM
                             [**2155-4-27**]  09:50 PM
                             [**2155-4-27**]  10:11 PM
                             [**2155-4-28**]  02:04 AM
                             [**2155-4-28**]  04:15 AM
   WBC
   14.8
   14.4
   16.2
   Hct
   35.9
   35.3
   37.1
   Plt
   70
   70
   62
   66
   60
   Cr
   2.3
   2.2
   2.1
   TCO2
   23
   23
   24
   23
   24
   Glucose
   101
   109
   98
   87
   81
   Other labs: PT / PTT / INR:14.2/33.7/1.2, ALT / AST:35/60, Alk Phos / T
   Bili:179/9.6, Amylase / Lipase:/21, Differential-Neuts:69.0 %, Band:0.0
   %, Lymph:6.0 %, Mono:15.0 %, Eos:1.0 %, Fibrinogen:674 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:2.5 g/dL, LDH:378 IU/L, Ca++:9.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   56yM with refractory follicular lymphoma, day 25 s/p BEAM Auto [**Hospital 11923**]
   transferred from BMT with fulminant hepatic failure [**3-4**] [**Last Name (un) 3140**]-occlusive
   disease, on dofibritide day 21/21 with ICU course complicated by
   persistent hypotension, culture-negative leukocytosis, acute renal
   failure requiring [**Last Name (un) **], and respiratory failure requiring ventilator
   support.
   #) Hypotension: Reduced pressor requirement overnight. Etiology is
   likely combination of a) intravascular volume depletion [**3-4**] decreased
   effective circulating volume and splanchinic vasodilation from liver
   failure, and b) sedation.  Also concern for sepsis thoguh cultures
   negative to date and has been on broad spectrum antibiotics for a long
   time.  Switched from cefepime/flagyl  to meropenem [**4-25**].  Given
   difference on opinion regarding antifungal treatement, maintained
   micafungin treatment. Per BMT yesterday will hold off on amphotericin
   tx for possibility of occult fungal infection since pt seemed somewhat
   mildly improved (requiring less pressure support)- on
   vanc/mica/meropenem.  PO vancomycin discontinued two days ago given
   cdiff negative lab results.
   - Pressors, IV fluid boluses as needed for BP support to meet goals of
   MAP>65, SBP>85
   -Wean pressors as tolerated
   -Start vasopressin if pt reaches max doses of norepinephrine, though
   2nd pressor would mean DQ from defibrotide trial
   -Continue abx and infectious work-up (below)
   -Hold steroids, given no clear indication at present
   #) Leukocytosis: WBC slightly increased at 16.2 today from 14.8.
   Unclear etiology, given pt is s/p line changes with no abscess per CT,
   on Vanc/[**Last Name (un) 350**]/Micafungin, with negative cultures to date. No PMNs on
   [**4-25**] paracentesis.
   -f/u cultures
   -Continue Vanc/[**Last Name (un) 350**]/Micafungin, dosed for [**Last Name (un) **]
   #) Respiratory Failure: Pt intubated [**4-10**], remains intubated for mental
   status changes [**3-4**] sedation + encephalopathy, also restrictive
   physiology [**3-4**] intra-abdominal pressure, anasarca.
   - plan for tracheostomy but hold off on consult, pending results of
   liver bx
   - maintain current vent settings
   - AM CXR
   #) Hepatic Failure: Etiology is most likely VOD [**3-4**] SCT. Reversal of
   flow in main portal vein demonstrated on US and MRI. Possible
   underlying cirrhosis [**3-4**] EtOH history. Had para [**4-20**], again [**4-25**] with
   3L off, bladder pressure after was 14.
   Per email communication with Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 12202**] (PI on defibrotide
   study), median duration of defibrotide therapy for VOD is 19 d; 21-d
   course recommended d/t concern for relapse if tx held earlier; look for
   CR at 21-d (CR defined in [**2147**] [**Company 4816**] study as evidence of improvement in
   VOD-related symptoms and concurrent MOF, and a concomitant or
   subsequent decrease in bilirubin to less than 2 mg/dL), then
   re-evaluate. Appreciate hepatology input.  AST and Tbili increased
   today.
   -f/u liver biopsy results
   -Continue 21-day course of defibrotide (560 mg IV Q6H) per protocol for
   VOD (targets for admin: Plt>30, Hct>30, INR<1.5, Fibrinogen>150) -->
   determine course after liver bx
   -Ursodiol via OGT
   -Q6H labs to monitor defibrotide parameters (Hct, INR)
   -Continue bladder pressure measurements
   - hepatology recs
    #) Anasarca: Patient + 19L LOS.  This is likely contributing to his
   respiratory compromise.  We have been maintaining his blood pressure
   with boluses and levophed.  If we stop the dofibritide, and the goals
   of care remain curative/supportive, we could consider supporting his
   pressure with increased pressors and remove fluid with CVVH
   #) Oliguric ARF: Pt started on [**Company **] [**2155-4-12**] for worsening metabolic
   acidosis and worsening renal function. Etiology is ischemic ATN (urine
   sediment w/ muddy brown casts). Initial insult = hypotension, most
   likely [**3-4**] hepatorenal syndrome. Pt remains extremely volume overloaded
   but cannot run negative on [**Month/Day (2) **] [**3-4**] hypotension. Pt has persistent
   metabolic acidosis, as above. Creatinine down-trending slowly, 2.4
   today from peak of 3.4 on [**4-14**]. Pt remains severely oliguric with no
   indication of improved renal function per UOP. Renal is following.
   -Continue [**Last Name (LF) **], [**First Name3 (LF) 77**] renal recs
   -Trend pH, calcium, lytes, BUN/Cr, Is/Os
   -Dose meds for [**First Name3 (LF) **]
    #) Altered Mental Status: Stable. Pt able to follow only mouth
   commands. Alteration likely [**3-4**] toxic/metabolic encephalopathy [**3-4**]
   liver failure and uremia, as well as sedation.
   -Lactulose QID; hold on PR, given difficulty turning patient
   -Repeat Spontaneous Awakening Trials daily
    #) Ileus: No stool output or bowel sounds for past 4-5 days, also high
   output from OG tube, likely functional ileus, given pt is critically
   ill and on high doses of opioids. No obstruction on CT read.
   -Continue Reglan at 15mg in TPN
   -Aggressive bowel regimen
   -Wean sedation as tolerated
    #) Goals of care.  BMT social work following.  Dependent on completion
   of dofibritide, liver bx results, may readdress goals of care; family
   would like to do this today (planned after liver bx results are read
   out in conference this afternoon).  They are very anxious about biopsy
   results.
   #) Follicular Lymphoma: Pt is s/p BEAM Auto SCT, day 23. BMT and Social
   Work are following.
   -Continue acyclovir ppx
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2155-4-23**] 12:00 PM
   Arterial Line - [**2155-4-23**] 02:24 PM
   Dialysis Catheter - [**2155-4-23**] 04:14 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2155-04-29 06:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Path: Zone 3 centrivenular hemorrhage and hepatocyte necrosis with
   20-30% of the sample necrotic with minimal inflammation, fatty change,
   or fibrosis.  Represents acute/subacute process consistent with VOD,
   not consistent with viral infection or malignant infiltration.
   - Family meeting: DNR, avoid "major" escalations of care
   - per BMT, d/c meropenem and acyclovir, start Bactrim ppx for PCP,
   [**Name10 (NameIs) 2638**] PO vancomycin
   - plan to continue defibritide protocol indefinitely
   - ID recs: continue surveillance BCx, continue abx
   - may need A-line replaced due to dappening of line
   History obtained from Family / [**Hospital 216**] Medical records
   Patient unable to provide history: Sedated, Unresponsive
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Meropenem - [**2155-4-28**] 08:15 AM
   Acyclovir - [**2155-4-28**] 08:39 AM
   Micafungin - [**2155-4-28**] 08:00 PM
   Vancomycin - [**2155-4-29**] 05:00 AM
   Infusions:
   Norepinephrine - 0.2 mcg/Kg/min
   Fentanyl (Concentrate) - 250 mcg/hour
   KCl (CRRT) - 2 mEq./hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Midazolam (Versed) - [**2155-4-28**] 11:54 PM
   Fentanyl - [**2155-4-29**] 03:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-4-29**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 132 (117 - 144) bpm
   BP: 100/66(77) {86/59(69) - 124/81(92)} mmHg
   RR: 26 (16 - 29) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 110 kg (admission): 98.2 kg
    CVP: 10 (8 - 10)mmHg
   Bladder pressure: 24 (20 - 24) mmHg
   Total In:
                                                                  9,689 mL
                                                                  2,532 mL
   PO:
   TF:
   IVF:
                                                                  7,689 mL
                                                                  1,931 mL
   Blood products:
   Total out:
                                                                 11,842 mL
                                                                  2,431 mL
   Urine:
   NG:
                                                                    440 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,153 mL
                                                                    101 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 597 (597 - 647) mL
   PS : 10 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 29 cmH2O
   SpO2: 100%
   ABG: 7.39/37/108/20/-1
   Ve: 16.2 L/min
   PaO2 / FiO2: 270
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), Tachycardia
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: bilateral)
   Abdominal: Distended, ascites
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+, wwp
   Skin:  Warm, Jaundice
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Tone: Decreased
   Labs / Radiology
   64 K/uL
   12.2 g/dL
   115 mg/dL
   2.1 mg/dL
   20 mEq/L
   4.6 mEq/L
   37 mg/dL
   99 mEq/L
   134 mEq/L
   36.8 %
   17.3 K/uL
        [image002.jpg]
                             [**2155-4-28**]  02:04 AM
                             [**2155-4-28**]  04:15 AM
                             [**2155-4-28**]  09:57 AM
                             [**2155-4-28**]  10:23 AM
                             [**2155-4-28**]  04:32 PM
                             [**2155-4-28**]  05:04 PM
                             [**2155-4-28**]  10:07 PM
                             [**2155-4-28**]  11:00 PM
                             [**2155-4-29**]  04:43 AM
                             [**2155-4-29**]  05:02 AM
   WBC
   16.2
   17.3
   Hct
   37.1
   36.8
   Plt
   60
   64
   65
   63
   64
   Cr
   2.1
   2.1
   2.1
   TCO2
   24
   23
   22
   23
   23
   Glucose
   81
   173
   114
   107
   115
   Other labs: PT / PTT / INR:14.3/32.4/1.2, ALT / AST:32/58, Alk Phos / T
   Bili:196/9.7, Amylase / Lipase:/21, Differential-Neuts:67.0 %, Band:3.0
   %, Lymph:8.0 %, Mono:14.0 %, Eos:0.0 %, Fibrinogen:677 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.6 g/dL, LDH:409 IU/L, Ca++:10.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Fluid analysis / Other labs: Liver Biopsy
   Zone 3 centrivenular hemorrhage and hepatocyte necrosis with 20-30% of
   the sample necrotic with minimal inflammation, fatty change, or
   fibrosis.  Represents acute/subacute process consistent with VOD, not
   consistent with viral infection or malignant infiltration.
   Assessment and Plan
   56yM with refractory follicular lymphoma, day 25 s/p BEAM Auto [**Hospital 11923**]
   transferred from BMT with fulminant hepatic failure [**3-4**] [**Last Name (un) 3140**]-occlusive
   disease, on dofibritide day 23 with ICU course complicated by
   persistent hypotension, culture-negative leukocytosis, acute renal
   failure requiring [**Last Name (un) **], and respiratory failure requiring ventilator
   support. A family meeting was held on [**4-28**] wherein it was decided upon
   no further escalations of care.
   #) Hepatic Failure: VOD [**3-4**] SCT, confirmed by biopsy results. Reversal
   of flow in main portal vein demonstrated on US and MRI. Had para [**4-20**],
   again [**4-25**] with 3L off, bladder pressure after was 14. Dr. [**First Name4 (NamePattern1) 2355**]
   [**Last Name (NamePattern1) 12288**] indefinite defibrotide. Per email communication with Dr.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 12202**] (PI on defibrotide study), median duration of
   defibrotide therapy for VOD is 19 d; 21-d course recommended d/t
   concern for relapse if tx held earlier; look for CR at 21-d (CR defined
   in [**2147**] [**Company 4816**] study as evidence of improvement in VOD-related symptoms
   and concurrent MOF, and a concomitant or subsequent decrease in
   bilirubin to less than 2 mg/dL), then re-evaluate. Appreciate
   hepatology input.  Liver enzymes and bilirubin increased but stable
   today
   -Continue defibrotide (560 mg IV Q6H) per protocol for VOD (targets for
   admin: Plt>30, Hct>30, INR<1.5, Fibrinogen>150) --> determine course
   after liver bx
   -Ursodiol via OGT
   -Q6H labs to monitor defibrotide parameters (Hct, INR)
   -Continue bladder pressure measurements
   - hepatology recs
   #) Hypotension: Reduced pressor requirement overnight. Etiology is
   likely combination of a) intravascular volume depletion [**3-4**] decreased
   effective circulating volume and splanchinic vasodilation from liver
   failure, and b) sedation.  Also concern for sepsis thoguh cultures
   negative to date and has been on broad spectrum antibiotics for a long
   time.  Switched from cefepime/flagyl  to meropenem [**4-25**].  Given
   difference on opinion regarding antifungal treatement, maintained
   micafungin treatment.  PO vancomycin discontinued two days ago given
   cdiff negative lab results and then restarted on [**4-28**].
   - Pressors, IV fluid boluses as needed for BP support to meet goals of
   MAP>65, SBP>85
   -Wean pressors as tolerated
   -Start vasopressin if pt reaches max doses of norepinephrine, though
   2nd pressor would mean DQ from defibrotide trial
   -Continue abx and infectious work-up (below)
   -Hold steroids, given no clear indication at present
   #) Leukocytosis: WBC slightly increased at 17.3<--16.2<--14.8. Unclear
   etiology, given pt is s/p line changes with no abscess per CT, on
   Vanc/[**Last Name (un) 350**]/Micafungin, with negative cultures to date. No PMNs on [**4-25**]
   paracentesis.
   -f/u cultures
   -Continue Vanc/[**Last Name (un) 350**]/Micafungin, dosed for [**Last Name (un) **]
   -Continue PO vanc?
   #) Respiratory Failure: Pt intubated [**4-10**], remains intubated for mental
   status changes [**3-4**] sedation + encephalopathy, also restrictive
   physiology [**3-4**] intra-abdominal pressure, anasarca.
   - No tracheostomy as that constitutes escalation of care
   - maintain current vent settings
   - AM CXR
    #) Anasarca: Patient + 16.4L LOS, down slightly in recent days.  This
   is likely contributing to his respiratory compromise.  We have been
   maintaining his blood pressure with boluses and levophed.  If we stop
   the dofibritide, and the goals of care remain curative/supportive, we
   could consider supporting his pressure with increased pressors and
   remove fluid with CVVH
   #) Oliguric ARF: Pt started on [**Month/Day (2) **] [**2155-4-12**] for worsening metabolic
   acidosis and worsening renal function. Etiology is ischemic ATN (urine
   sediment w/ muddy brown casts). Initial insult = hypotension, most
   likely [**3-4**] hepatorenal syndrome. Another explanation is simply
   increased intra-abdominal pressure. Pt remains extremely volume
   overloaded with aggressive [**Month/Day (2) **] limited [**3-4**] hypotension. Creatinine
   down-trending slowly, 2.1 today from peak of 3.4 on [**4-14**]. Pt remains
   severely oliguric with no indication of improved renal function per
   UOP. Renal is following.
   -Continue [**Last Name (LF) **], [**First Name3 (LF) 77**] renal recs
   -Trend pH, calcium, lytes, BUN/Cr, Is/Os
   -Dose meds for [**First Name3 (LF) **]
     #) Altered Mental Status: Stable. Pt able to follow only mouth
   commands. Alteration likely [**3-4**] toxic/metabolic encephalopathy [**3-4**]
   liver failure and uremia, as well as sedation.
   -Lactulose QID; hold on PR, given difficulty turning patient
   -Repeat Spontaneous Awakening Trials daily
    #) Ileus: No stool output or bowel sounds for past 4-5 days, also high
   output from OG tube, likely functional ileus, given pt is critically
   ill and on high doses of opioids. No obstruction on CT read.
   -Continue Reglan at 15mg in TPN
   -Aggressive bowel regimen
   -Wean sedation as tolerated
    #) Goals of care.  BMT social work following.  DNR with no major
   escalations. Defibrotide indefinitely.
   #) Follicular Lymphoma: Pt is s/p BEAM Auto SCT, day 23. BMT and Social
   Work are following.
   -Continue acyclovir ppx
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2155-4-28**] 03:40 PM 80 mL/hour
   Glycemic Control:  Insulin in TPN
   Lines:
   Multi Lumen - [**2155-4-23**] 12:00 PM
   Arterial Line - [**2155-4-23**] 02:24 PM
   Dialysis Catheter - [**2155-4-23**] 04:14 PM
   20 Gauge - [**2155-4-27**] 12:26 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments:
   Code status: Full code
   Disposition:ICU

2155-04-30 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2155-4-30**] 12:28 AM
   - BMT: call Dr. [**First Name (STitle) 2355**] if anything changes [**Numeric Identifier 12310**], continue current
   course; bactrium was switched to 80mg IV QD.
   - ID: signed off
   - renal: nothing new, continue current course.
   - hepatology recs: none
   - A-line replaced
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Meropenem - [**2155-4-28**] 08:15 AM
   Acyclovir - [**2155-4-28**] 08:39 AM
   Vancomycin - [**2155-4-29**] 04:45 PM
   Micafungin - [**2155-4-29**] 08:12 PM
   Bactrim (SMX/TMP) - [**2155-4-29**] 09:51 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 275 mcg/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2155-4-29**] 07:25 PM
   Fentanyl - [**2155-4-30**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-4-30**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.9
   HR: 126 (115 - 133) bpm
   BP: 94/77(81) {94/58(71) - 115/77(81)} mmHg
   RR: 23 (17 - 26) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 104.2 kg (admission): 98.2 kg
    CVP: 10 (10 - 11)mmHg
   Bladder pressure: 24 (21 - 24) mmHg
   Total In:
                                                                 10,265 mL
                                                                  2,150 mL
   PO:
   TF:
   IVF:
                                                                  8,282 mL
                                                                  1,447 mL
   Blood products:
   Total out:
                                                                 11,895 mL
                                                                  4,131 mL
   Urine:
                                                                     35 mL
   NG:
                                                                    700 mL
                                                                    800 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,630 mL
                                                                 -1,981 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   Compliance: 55 cmH2O/mL
   SpO2: 100%
   ABG: 7.36/39/131/21/-2
   Ve: 17 L/min
   PaO2 / FiO2: 328
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   62 K/uL
   12.5 g/dL
   81 mg/dL
   2.2 mg/dL
   21 mEq/L
   4.3 mEq/L
   38 mg/dL
   101 mEq/L
   136 mEq/L
   39.7 %
   20.5 K/uL
        [image002.jpg]
                             [**2155-4-29**]  04:43 AM
                             [**2155-4-29**]  05:02 AM
                             [**2155-4-29**]  07:51 AM
                             [**2155-4-29**]  09:51 AM
                             [**2155-4-29**]  10:31 AM
                             [**2155-4-29**]  03:46 PM
                             [**2155-4-29**]  04:17 PM
                             [**2155-4-29**]  06:00 PM
                             [**2155-4-29**]  11:37 PM
                             [**2155-4-30**]  04:55 AM
   WBC
   17.3
   20.5
   Hct
   36.8
   39.7
   Plt
   64
   66
   60
   64
   62
   Cr
   2.1
   2.0
   2.1
   2.2
   TCO2
   23
   23
   23
   23
   23
   Glucose
   115
   103
   107
   103
   81
   Other labs: PT / PTT / INR:14.0/33.6/1.2, ALT / AST:32/58, Alk Phos / T
   Bili:196/9.7, Amylase / Lipase:/21, Differential-Neuts:67.0 %, Band:3.0
   %, Lymph:8.0 %, Mono:14.0 %, Eos:0.0 %, Fibrinogen:677 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.6 g/dL, LDH:409 IU/L, Ca++:10.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   56yM with refractory follicular lymphoma, s/p BEAM Auto [**Hospital 11923**]
   transferred from BMT with fulminant hepatic failure [**3-4**] [**Last Name (un) 3140**]-occlusive
   disease, on defibrotide day 24 with ICU course complicated by
   persistent hypotension, culture-negative leukocytosis, acute renal
   failure requiring CVVHD, and respiratory failure requiring ventilator
   support. A family meeting was held on [**4-28**] wherein it was decided upon
   no further escalations of care.
   #) Hepatic Failure: VOD [**3-4**] SCT, confirmed by biopsy results. Reversal
   of flow in main portal vein demonstrated on US and MRI. Had para [**4-20**],
   again [**4-25**] with 3L off, bladder pressure after was 14. Dr. [**First Name (STitle) 2355**]
   recommends continuing defibrotide for an indefinite time period at this
   time. Per email communication with Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 12202**] (PI on
   defibrotide study), median duration of defibrotide therapy for VOD is
   19 d; 21-d course recommended d/t concern for relapse if tx held
   earlier; look for CR at 21-d (CR defined in [**2147**] [**Company 4816**] study as evidence
   of improvement in VOD-related symptoms and concurrent MOF, and a
   concomitant or subsequent decrease in bilirubin to less than 2 mg/dL),
   then re-evaluate. Appreciate hepatology input.
   - f/u liver enzymes, including bilirubin, from this AM
   - Continue defibrotide (560 mg IV Q6H) per protocol for VOD (targets
   for admin: Plt>30, Hct>30, INR<1.5, Fibrinogen>150) --> determine
   course after liver bx
   - Ursodiol via OGT
   - Q6H labs to monitor defibrotide parameters (Hct, INR)
   - Continue bladder pressure measurements
   - f/up hepatology recs
   #) Hypotension: Reduced pressor requirement overnight. Etiology is
   currently thought to be combination of a) intravascular volume
   depletion [**3-4**] decreased effective circulating volume and splanchinic
   vasodilation from liver failure, and b) sedation.  Also concern for
   sepsis thoguh cultures negative to date and has been on broad spectrum
   antibiotics for a long time.  Switched from cefepime/flagyl  to
   meropenem [**4-25**]; meropenem was d/ced [**4-28**].  Given difference on opinion
   regarding antifungal treatement, maintained micafungin treatment.  PO
   vancomycin discontinued two days ago given cdiff negative lab results
   and then restarted on [**4-28**].
   - Pressors, IV fluid boluses as needed for BP support to meet goals of
   MAP>65, SBP>85
   - Wean pressors as tolerated
   - Start vasopressin if pt reaches max doses of norepinephrine, though
   2nd pressor would mean DQ from defibrotide trial
   - Continue abx and infectious work-up (below).
   - Hold steroids, given no clear indication at present
   - Continue CVVHD but will monitor BP closely
   #) Leukocytosis: WBC continues to increase at
   20.5<--17.3<--16.2<--14.8. Unclear etiology, given pt is s/p line
   changes with no abscess per CT, on Vanc IV+PO/Micafungin, with negative
   cultures to date. No PMNs on [**4-25**] paracentesis.
   - f/u cultures
   - F/up BMT recs re: continiuing Vanc/Micafungin, currently dosed for
   CVVHD
   #) Respiratory Failure: Pt intubated [**4-10**], remains intubated for airway
   protection due to mental status changes [**3-4**] sedation + encephalopathy,
   also restrictive physiology [**3-4**] intra-abdominal pressure, anasarca.
   - No tracheostomy as that constitutes escalation of care
   - maintain current vent settings
   - AM CXR
    #) Anasarca: Patient + 12.4L LOS, down slightly in recent days.  This
   is likely contributing to his respiratory compromise.  We have been
   maintaining his blood pressure with boluses and levophed.  If we stop
   the defibrotide, and the goals of care remain curative/supportive, we
   could consider supporting his pressure with increased pressors and
   remove fluid with CVVH
   #) Oliguric ARF: Pt started on CVVHD [**2155-4-12**] for worsening metabolic
   acidosis and worsening renal function. Etiology is ischemic ATN (urine
   sediment w/ muddy brown casts). Initial insult = hypotension, most
   likely [**3-4**] hepatorenal syndrome. Another explanation is simply
   increased intra-abdominal pressure. Pt remains extremely volume
   overloaded with aggressive CVVHD limited [**3-4**] hypotension. Creatinine
   2.2 today from peak of 3.4 on [**4-14**]. Pt remains severely oliguric with
   no indication of improved renal function per UOP. Renal is following.
   - Continue CVVHD (net negative 1.6 L over past 24 hrs), per renal recs
   - Trend pH, calcium, lytes, BUN/Cr, Is/Os
   - Dose meds for CVVHD
     #) Altered Mental Status: Stable. Pt able to follow only mouth
   commands. Alteration likely [**3-4**] toxic/metabolic encephalopathy [**3-4**]
   liver failure and uremia, as well as sedation.
   -Lactulose QID; hold on PR, given difficulty turning patient
   -Repeat Spontaneous Awakening Trials daily
    #) Ileus: No stool output or bowel sounds for past 4-5 days, also high
   output from OG tube, likely functional ileus, given pt is critically
   ill and on high doses of opioids. No obstruction on CT read.
   -Continue Reglan at 15mg in TPN
   -Aggressive bowel regimen
   -Wean sedation as tolerated
    #) Goals of care.  BMT social work following.  DNR with no major
   escalations. Defibrotide indefinitely.
    #) Follicular Lymphoma: Pt is s/p BEAM Auto SCT, day 24. BMT and
   Social Work are following.
   -Continue Bactrim ppx.  Acyclovir ppx being held at this time.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2155-4-29**] 06:00 PM 79.[**Telephone/Fax (5) 12311**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2155-4-23**] 12:00 PM
   Dialysis Catheter - [**2155-4-23**] 04:14 PM
   20 Gauge - [**2155-4-27**] 12:26 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2155-05-01 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - A-line replaced
   - Daily wake ups initiated
   - Off of sedation, patient moved head a little bit, but did not
   withdraw to pain. He was crying, so fentanyl was turned up with bolus
   midazolam
   - [**Doctor Last Name **] RECS: Stop micafungin and watch bilirubin (it may fall). keep
   Vanc. [**Doctor Last Name 2355**] told family that he has 5% chance.
   - CVVH speedbump: fluid removal to 2.6Litres limited by tachycardia.
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Meropenem - [**2155-4-28**] 08:15 AM
   Acyclovir - [**2155-4-28**] 08:39 AM
   Micafungin - [**2155-4-29**] 08:12 PM
   Bactrim (SMX/TMP) - [**2155-4-29**] 09:51 PM
   Vancomycin - [**2155-5-1**] 05:13 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.2 mcg/Kg/min
   Fentanyl (Concentrate) - 200 mcg/hour
   Calcium Gluconate (CRRT) - 1 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2155-4-30**] 08:00 AM
   Fentanyl - [**2155-5-1**] 03:00 AM
   Midazolam (Versed) - [**2155-5-1**] 03:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-5-1**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (99
   HR: 121 (116 - 133) bpm
   BP: 103/65(77) {90/62(72) - 133/81(95)} mmHg
   RR: 22 (18 - 28) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 105.2 kg (admission): 98.2 kg
    CVP: 16 (15 - 18)mmHg
   Bladder pressure: 13 (13 - 15) mmHg
   Total In:
                                                                  9,794 mL
                                                                  2,662 mL
   PO:
   TF:
   IVF:
                                                                  7,539 mL
                                                                  2,004 mL
   Blood products:
   Total out:
                                                                 13,802 mL
                                                                  3,082 mL
   Urine:
                                                                     15 mL
   NG:
                                                                  1,300 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                 -4,008 mL
                                                                   -420 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10, Hemodynamic Instability
   PIP: 22 cmH2O
   Plateau: 0 cmH2O
   SpO2: 100%
   ABG: 7.36/40/114/21/-2
   Ve: 14.3 L/min
   PaO2 / FiO2: 285
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   72 K/uL
   12.8 g/dL
   69 mg/dL
   2.2 mg/dL
   21 mEq/L
   4.5 mEq/L
   38 mg/dL
   101 mEq/L
   136 mEq/L
   39.7 %
   21.7 K/uL
        [image002.jpg]
                             [**2155-4-29**]  06:00 PM
                             [**2155-4-29**]  11:37 PM
                             [**2155-4-30**]  04:55 AM
                             [**2155-4-30**]  10:14 AM
                             [**2155-4-30**]  10:39 AM
                             [**2155-4-30**]  04:00 PM
                             [**2155-4-30**]  04:21 PM
                             [**2155-4-30**]  09:50 PM
                             [**2155-4-30**]  10:00 PM
                             [**2155-5-1**]  03:41 AM
   WBC
   20.5
   21.7
   Hct
   39.7
   39.7
   Plt
   62
   66
   73
   68
   72
   Cr
   2.2
   2.2
   2.1
   2.2
   TCO2
   23
   23
   22
   22
   22
   24
   Glucose
   81
   88
   86
   106
   69
   Other labs: PT / PTT / INR:13.7/33.6/1.2, ALT / AST:25/45, Alk Phos / T
   Bili:237/9.4, Amylase / Lipase:/21, Differential-Neuts:62.0 %, Band:4.0
   %, Lymph:4.0 %, Mono:21.0 %, Eos:0.0 %, Fibrinogen:677 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.6 g/dL, LDH:290 IU/L, Ca++:10.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   56yM with refractory follicular lymphoma, s/p BEAM Auto [**Hospital 11923**]
   transferred from BMT with fulminant hepatic failure [**3-4**] [**Last Name (un) 3140**]-occlusive
   disease, on defibrotide day 24 with ICU course complicated by
   persistent hypotension, culture-negative leukocytosis, acute renal
   failure requiring CVVHD, and respiratory failure requiring ventilator
   support. A family meeting was held on [**4-28**] wherein it was decided upon
   no further escalations of care.
   #) Hepatic Failure: VOD [**3-4**] SCT, confirmed by biopsy results. Reversal
   of flow in main portal vein demonstrated on US and MRI. Had para [**4-20**],
   again [**4-25**] with 3L off, bladder pressure after was 14. Dr. [**First Name (STitle) 2355**]
   recommends continuing defibrotide for an indefinite time period at this
   time. Per email communication with Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 12202**] (PI on
   defibrotide study), median duration of defibrotide therapy for VOD is
   19 d; 21-d course recommended d/t concern for relapse if tx held
   earlier; look for CR at 21-d (CR defined in [**2147**] [**Company 4816**] study as evidence
   of improvement in VOD-related symptoms and concurrent MOF, and a
   concomitant or subsequent decrease in bilirubin to less than 2 mg/dL),
   then re-evaluate. Appreciate hepatology input.
   - f/u liver enzymes, including bilirubin, from this AM
   - Continue defibrotide (560 mg IV Q6H) per protocol for VOD (targets
   for admin: Plt>30, Hct>30, INR<1.5, Fibrinogen>150) --> determine
   course after liver bx
   - Ursodiol via OGT
   - Q6H labs to monitor defibrotide parameters (Hct, INR)
   - Continue bladder pressure measurements
   - f/up hepatology recs
   #) Hypotension: Reduced pressor requirement overnight. Etiology is
   currently thought to be combination of a) intravascular volume
   depletion [**3-4**] decreased effective circulating volume and splanchinic
   vasodilation from liver failure, and b) sedation.  Also concern for
   sepsis thoguh cultures negative to date and has been on broad spectrum
   antibiotics for a long time.  Switched from cefepime/flagyl  to
   meropenem [**4-25**]; meropenem was d/ced [**4-28**].  Given difference on opinion
   regarding antifungal treatement, maintained micafungin treatment.  PO
   vancomycin discontinued two days ago given cdiff negative lab results
   and then restarted on [**4-28**].
   - Pressors, IV fluid boluses as needed for BP support to meet goals of
   MAP>65, SBP>85
   - Wean pressors as tolerated
   - Start vasopressin if pt reaches max doses of norepinephrine, though
   2nd pressor would mean DQ from defibrotide trial
   - Continue abx and infectious work-up (below).
   - Hold steroids, given no clear indication at present
   - Continue CVVHD but will monitor BP closely
   #) Leukocytosis: WBC continues to increase at
   21.7<--20.5<--17.3<--16.2<--14.8. Unclear etiology, given pt is s/p
   line changes with no abscess per CT, on Vanc IV+PO/Micafungin, with
   negative cultures to date. No PMNs on [**4-25**] paracentesis.
   - f/u cultures
   - F/u BMT recs re: continuing Vanc/Micafungin, currently dosed for
   CVVHD
   #) Respiratory Failure: Pt intubated [**4-10**], remains intubated for airway
   protection due to mental status changes [**3-4**] sedation + encephalopathy,
   also restrictive physiology [**3-4**] intra-abdominal pressure, anasarca.
   - No tracheostomy as that constitutes escalation of care
   - maintain current vent settings
   - AM CXR
    #) Anasarca: Patient + 12.4L LOS, down slightly in recent days.  This
   is likely contributing to his respiratory compromise.  Currently we are
   being able to successfully pull off fluid via CVVH without any drop in
   BP or increased pressor requirement.
   #) Oliguric ARF: Pt started on CVVHD [**2155-4-12**] for worsening metabolic
   acidosis and worsening renal function.  Etiology is ischemic ATN (urine
   sediment w/ muddy brown casts).  Initial insult = hypotension, most
   likely [**3-4**] hepatorenal syndrome. Another explanation is simply
   increased intra-abdominal pressure.  Pt remains extremely volume
   overloaded.  Creatinine 2.2 today from peak of 3.4 on [**4-14**].  Pt remains
   severely oliguric with no indication of improved renal function per
   UOP.  Renal is following.
   - Continue CVVHD (net negative 1.6 L over past 24 hrs), per renal recs
   - Trend pH, calcium, lytes, BUN/Cr, Is/Os
   - Dose meds for CVVHD
   #) corneal lesion: right eye has a corneal lesion, enlarging.  Question
   if this due to dry eyes/fungal/herpes infection
   - opthal will eval,f/u recs
   - f/u cultures from eye
   #) Altered Mental Status: Stable.  When off sedation, patient does not
   seem to make purposeful movements or respond to commands.  Initially
   thought [**3-4**] toxic/metabolic encephalopathy from liver failure and/or
   uremia.
   - Lactulose QID; hold on PR, given difficulty turning patient
   - Repeat Spontaneous Awakening Trials daily
   - keep sedation low
   - EEG to r/o nonconvulsive status epilepticus
   #) Ileus: No stool output or bowel sounds for past 4-5 days, also high
   output from OG tube, likely functional ileus, given pt is critically
   ill and on high doses of opioids. No obstruction on CT read.
   -Continue Reglan at 15mg in TPN
   -Continue lactulose
   -trial lactulose enema
   -Wean sedation as tolerated
    #) Goals of care.  BMT social work following.  DNR with no major
   escalations. Defibrotide indefinitely.
    #) Follicular Lymphoma: Pt is s/p BEAM Auto SCT, day 24. BMT and
   Social Work are following.
   -Continue Bactrim ppx.  Acyclovir ppx being held at this time.
 HEPATIC FAILURE, FULMINANT
 HYPOTENSION (NOT SHOCK)
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HEPATIC ENCEPHALOPATHY
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
 TRANSPLANT, BONE MARROW (BMT)
 LIVER FUNCTION ABNORMALITIES
 ASCITES
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2155-4-30**] 05:26 PM 79.[**Telephone/Fax (5) 12311**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2155-4-23**] 12:00 PM
   Dialysis Catheter - [**2155-4-23**] 04:14 PM
   20 Gauge - [**2155-4-27**] 12:26 PM
   Arterial Line - [**2155-4-30**] 07:21 AM
   Prophylaxis:
   DVT: pboots
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2155-05-02 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EEG - At [**2155-5-1**] 01:38 PM
   - lowered insulin in TPN [**3-4**] hypoglycemia this AM
   - Ophtho c/s for corneal ?ulcer/abrasion; they think his eyes are dry
   and recommended eye drops (ciprofloxacin + polysporin).
   - got eye swab culture
   - Renal recs: do not want to proceed with CRRT for more than 10 more
   days.
   - 24 EEG in progress, prelim report no status epilepticus, further
   results pending
   - patient oxygenating well, so tried to drop PEEP to 8 (from 10)
   - BMT: didn't see them or any recs in chart
   - had large bowel movement after lactulose enema
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Micafungin - [**2155-4-29**] 08:12 PM
   Vancomycin - [**2155-5-1**] 11:57 AM
   Bactrim (SMX/TMP) - [**2155-5-1**] 10:30 PM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2155-5-1**] 08:00 AM
   Dextrose 50% - [**2155-5-1**] 10:20 AM
   Midazolam (Versed) - [**2155-5-1**] 11:12 PM
   Fentanyl - [**2155-5-2**] 01:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-5-2**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.7
C (98
   Tcurrent: 35.9
C (96.6
   HR: 114 (113 - 131) bpm
   BP: 115/66(82) {95/60(72) - 140/85(101)} mmHg
   RR: 30 (21 - 33) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 102.3 kg (admission): 98.2 kg
    CVP: 8 (8 - 14)mmHg
   Total In:
                                                                  9,827 mL
                                                                  2,615 mL
   PO:
   TF:
   IVF:
                                                                  7,650 mL
                                                                  2,051 mL
   Blood products:
   Total out:
                                                                 12,522 mL
                                                                  3,334 mL
   Urine:
                                                                     15 mL
   NG:
                                                                    500 mL
                                                                    150 mL
   Stool:
   Drains:
                                                                    100 mL
   Balance:
                                                                 -2,695 mL
                                                                   -719 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 28 cmH2O
   Plateau: 0 cmH2O
   SpO2: 99%
   ABG: 7.40/34/150/20/-2
   Ve: 19.9 L/min
   PaO2 / FiO2: 375
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), Tachycardia
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: bilateral)
   Abdominal: Distended, ascites
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, wwp
   Skin:  Warm, Jaundice
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Tone: Decreased
   Labs / Radiology
   69 K/uL
   12.4 g/dL
   104 mg/dL
   1.9 mg/dL
   20 mEq/L
   4.4 mEq/L
   40 mg/dL
   103 mEq/L
   139 mEq/L
   40.2 %
   21.7 K/uL
        [image002.jpg]
                             [**2155-5-1**]  03:41 AM
                             [**2155-5-1**]  08:59 AM
                             [**2155-5-1**]  09:15 AM
                             [**2155-5-1**]  09:18 AM
                             [**2155-5-1**]  04:00 PM
                             [**2155-5-1**]  04:05 PM
                             [**2155-5-1**]  10:07 PM
                             [**2155-5-1**]  10:12 PM
                             [**2155-5-2**]  03:59 AM
                             [**2155-5-2**]  04:20 AM
   WBC
   21.7
   21.7
   Hct
   39.7
   40.1
   40.2
   Plt
   72
   77
   70
   61
   69
   Cr
   2.2
   1.9
   1.9
   TCO2
   24
   21
   21
   21
   22
   Glucose
   69
   54
   79
   114
   104
   Other labs: PT / PTT / INR:14.1/35.7/1.2, ALT / AST:27/47, Alk Phos / T
   Bili:263/9.1, Amylase / Lipase:/21, Differential-Neuts:62.0 %, Band:4.0
   %, Lymph:4.0 %, Mono:21.0 %, Eos:0.0 %, Fibrinogen:523 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.6 g/dL, LDH:285 IU/L, Ca++:10.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   56yM with refractory follicular lymphoma, s/p BEAM Auto [**Hospital 11923**]
   transferred from BMT with fulminant hepatic failure [**3-4**] [**Last Name (un) 3140**]-occlusive
   disease, on defibrotide day 24 with ICU course complicated by
   persistent hypotension, culture-negative leukocytosis, acute renal
   failure requiring CVVHD, and respiratory failure requiring ventilator
   support. A family meeting was held on [**4-28**] wherein it was decided upon
   no further escalations of care.
   #) Hepatic Failure: VOD [**3-4**] SCT, confirmed by biopsy results. Reversal
   of flow in main portal vein demonstrated on US and MRI. Had para [**4-20**],
   again [**4-25**] with 3L off, bladder pressure after was 14. Dr. [**First Name (STitle) 2355**]
   recommends continuing defibrotide for an indefinite time period at this
   time. Per email communication with Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 12202**] (PI on
   defibrotide study), median duration of defibrotide therapy for VOD is
   19 d; 21-d course recommended d/t concern for relapse if tx held
   earlier; look for CR at 21-d (CR defined in [**2147**] [**Company 4816**] study as evidence
   of improvement in VOD-related symptoms and concurrent MOF, and a
   concomitant or subsequent decrease in bilirubin to less than 2 mg/dL),
   then re-evaluate. Appreciate hepatology input.
   - f/u liver enzymes, including bilirubin, from this AM
   - Continue defibrotide (560 mg IV Q6H) per protocol for VOD (targets
   for admin: Plt>30, Hct>30, INR<1.5, Fibrinogen>150) --> determine
   course after liver bx
   - Ursodiol via OGT
   - Q6H labs to monitor defibrotide parameters (Hct, INR)
   - Continue bladder pressure measurements
   - f/up hepatology recs
   #) Hypotension: Reduced pressor requirement overnight. Etiology is
   currently thought to be combination of a) intravascular volume
   depletion [**3-4**] decreased effective circulating volume and splanchinic
   vasodilation from liver failure, and b) sedation.  Also concern for
   sepsis thoguh cultures negative to date and has been on broad spectrum
   antibiotics for a long time.  Switched from cefepime/flagyl  to
   meropenem [**4-25**]; meropenem was d/ced [**4-28**].  Given difference on opinion
   regarding antifungal treatement, maintained micafungin treatment.  PO
   vancomycin discontinued two days ago given cdiff negative lab results
   and then restarted on [**4-28**].
   - Pressors, IV fluid boluses as needed for BP support to meet goals of
   MAP>65, SBP>85
   - Wean pressors as tolerated
   - Start vasopressin if pt reaches max doses of norepinephrine, though
   2nd pressor would mean DQ from defibrotide trial
   - Continue abx and infectious work-up (below).
   - Hold steroids, given no clear indication at present
   - Continue CVVHD but will monitor BP closely
   #) Leukocytosis: WBC continues to increase at
   21.7<--20.5<--17.3<--16.2<--14.8. Unclear etiology, given pt is s/p
   line changes with no abscess per CT, on Vanc IV+PO/Micafungin, with
   negative cultures to date. No PMNs on [**4-25**] paracentesis.
   - f/u cultures
   - F/u BMT recs re: continuing Vanc/Micafungin, currently dosed for
   CVVHD
   #) Respiratory Failure: Pt intubated [**4-10**], remains intubated for airway
   protection due to mental status changes [**3-4**] sedation + encephalopathy,
   also restrictive physiology [**3-4**] intra-abdominal pressure, anasarca.
   - No tracheostomy as that constitutes escalation of care
   - maintain current vent settings
   - AM CXR
   - Brain MRI today to evaluate for any intracranial process for mental
   status changes, will sedate with propofol as needed
    #) Anasarca: Patient + 12.4L LOS, down slightly in recent days.  This
   is likely contributing to his respiratory compromise.  Currently we are
   being able to successfully pull off fluid via CVVH without any drop in
   BP or increased pressor requirement.
   #) Oliguric ARF: Pt started on CVVHD [**2155-4-12**] for worsening metabolic
   acidosis and worsening renal function.  Etiology is ischemic ATN (urine
   sediment w/ muddy brown casts).  Initial insult = hypotension, most
   likely [**3-4**] hepatorenal syndrome. Another explanation is simply
   increased intra-abdominal pressure.  Pt remains extremely volume
   overloaded.  Creatinine 2.2 today from peak of 3.4 on [**4-14**].  Pt remains
   severely oliguric with no indication of improved renal function per
   UOP.  Renal is following.
   - Continue CVVHD (net negative 2.7 L over past 24 hrs), per renal recs,
   with goal of net negative 2-3 L/24 hrs with close monitoring of blood
   pressure
   - Trend pH, calcium, lytes, BUN/Cr, Is/Os
   - Dose meds for CVVHD
   #) corneal lesion: right eye has a corneal lesion, enlarging.  Question
   if this due to dry eyes/fungal/herpes infection
   - opthal will eval,f/u recs
 continue eye drops ([**Last Name (LF) 4075**], [**First Name3 (LF) **])
   - f/u cultures from eye
   #) Altered Mental Status: Stable.  When off sedation, patient does not
   seem to make purposeful movements or respond to commands.  Initially
   thought [**3-4**] toxic/metabolic encephalopathy from liver failure and/or
   uremia.
   - Lactulose QID; hold on PR, given difficulty turning patient
   - Repeat Spontaneous Awakening Trials daily
   - keep sedation low
   - EEG to r/o nonconvulsive status epilepticus
 pending read
   #) Ileus: No stool output or bowel sounds for past 4-5 days, also high
   output from OG tube, likely functional ileus, given pt is critically
   ill and on high doses of opioids. No obstruction on CT read.  Responded
   well to lactulose enema on [**5-1**].
   -Continue Reglan at 15mg in TPN
   -Continue lactulose
   -Wean sedation as tolerated
    #) Goals of care.  BMT social work following.  DNR with no major
   escalations. Defibrotide indefinitely.
    #) Follicular Lymphoma: Pt is s/p BEAM Auto SCT, day 24. BMT and
   Social Work are following.
   -Continue Bactrim ppx.  Acyclovir ppx being held at this time.
 HEPATIC FAILURE, FULMINANT ([**Last Name (un) **]-occlusive disease)
 HYPOTENSION (NOT SHOCK)
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) CVVH
 HEPATIC ENCEPHALOPATHY
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
 TRANSPLANT, BONE MARROW (BMT)
 LIVER FUNCTION ABNORMALITIES
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2155-5-1**] 05:16 PM 79.[**Telephone/Fax (5) 12311**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2155-4-23**] 12:00 PM
   Dialysis Catheter - [**2155-4-23**] 04:14 PM
   20 Gauge - [**2155-4-27**] 12:26 PM
   Arterial Line - [**2155-4-30**] 07:21 AM
   Prophylaxis:
   DVT:  pboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2155-05-03 07:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EEG - At [**2155-5-2**] 11:41 AM
 MAGNETIC RESONANCE IMAGING - At [**2155-5-2**] 03:45 PM head mri
 BLOOD CULTURED - At [**2155-5-2**] 07:00 PM sent from HD line
 BLOOD CULTURED - At [**2155-5-2**] 08:50 PM sent from CVL
   - EEG - moderate to severe encephalopathy --> final results pending
   - MRI of brain: PFI: 1. Hyperintense subarachnoid material, involving
   the sulci of both cerebral hemispheres, most likely consistent with
   subarachnoid hemorrhage, less likely secondary to proteinaceous
   material as seen in meningitis therapy.  2. No evidence of masses, mass
   effect or infarction. - dc'd defotide, plt goal is > 100, need final
   read.
   - weaning pressors as tolerated
   - Fluids - LOS 7L+ from 19L. CVVH goal is -2L
   - f/u eye culture: pnd, GS negative.
   - new hematuria ; foley was placed on [**4-11**]. Watching, waiting.
   - renal rec: no change in recommendation.
   - BMT fellow like to get Neurosurgery involved.
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2155-5-2**] 06:13 PM
   Bactrim (SMX/TMP) - [**2155-5-2**] 10:30 PM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Norepinephrine - 0.07 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2155-5-2**] 08:00 AM
   Fentanyl - [**2155-5-2**] 01:14 PM
   Midazolam (Versed) - [**2155-5-3**] 12:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-5-3**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 122 (114 - 132) bpm
   BP: 104/62(76) {90/57(67) - 129/77(95)} mmHg
   RR: 23 (17 - 34) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 102.3 kg (admission): 98.2 kg
    CVP: 10 (10 - 76)mmHg
   Bladder pressure: 16 (15 - 16) mmHg
   Total In:
                                                                  8,649 mL
                                                                  3,097 mL
   PO:
   TF:
   IVF:
                                                                  6,129 mL
                                                                  2,311 mL
   Blood products:
                                                                    291 mL
   Total out:
                                                                 10,732 mL
                                                                  4,281 mL
   Urine:
                                                                     15 mL
   NG:
                                                                    300 mL
                                                                     50 mL
   Stool:
   Drains:
                                                                    100 mL
   Balance:
                                                                 -2,083 mL
                                                                 -1,184 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 300 (300 - 700) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: CMO
   PIP: 28 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.45/28/186/20/-2
   Ve: 18.3 L/min
   PaO2 / FiO2: 465
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   148 K/uL
   11.9 g/dL
   103 mg/dL
   2.1 mg/dL
   20 mEq/L
   4.4 mEq/L
   46 mg/dL
   103 mEq/L
   139 mEq/L
   36.4 %
   19.7 K/uL
        [image002.jpg]
                             [**2155-5-2**]  04:20 AM
                             [**2155-5-2**]  09:32 AM
                             [**2155-5-2**]  09:53 AM
                             [**2155-5-2**]  03:50 PM
                             [**2155-5-2**]  04:17 PM
                             [**2155-5-2**]  08:40 PM
                             [**2155-5-2**]  09:38 PM
                             [**2155-5-2**]  09:48 PM
                             [**2155-5-3**]  03:43 AM
                             [**2155-5-3**]  03:52 AM
   WBC
   19.7
   Hct
   41.5
   36.4
   Plt
   76
   85
   146
   148
   Cr
   2.0
   2.1
   2.1
   TCO2
   22
   22
   20
   22
   20
   Glucose
   88
   117
   106
   103
   Other labs: PT / PTT / INR:13.8/30.1/1.2, ALT / AST:25/38, Alk Phos / T
   Bili:263/9.1, Amylase / Lipase:/21, Differential-Neuts:62.0 %, Band:4.0
   %, Lymph:4.0 %, Mono:21.0 %, Eos:0.0 %, Fibrinogen:523 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.6 g/dL, LDH:285 IU/L, Ca++:10.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   56yM with refractory follicular lymphoma, s/p BEAM Auto [**Hospital 11923**]
   transferred from BMT with fulminant hepatic failure [**3-4**] [**Last Name (un) 3140**]-occlusive
   disease, on defibrotide day 24 with ICU course complicated by
   persistent hypotension, culture-negative leukocytosis, acute renal
   failure requiring CVVHD, and respiratory failure requiring ventilator
   support. A family meeting was held on [**4-28**] wherein it was decided upon
   no further escalations of care.
   #) Altered Mental Status: Stable.  When off sedation, patient does not
   seem to make purposeful movements or respond to commands.  Initially
   thought [**3-4**] toxic/metabolic encephalopathy from liver failure and/or
   uremia.
   - Lactulose QID; hold on PR, given difficulty turning patient
   - Repeat Spontaneous Awakening Trials daily
   - keep sedation low
   - EEG r/o
d nonconvulsive status epilepticus
   - MRI: noted for SAH, no mass effects
   - consider touching base with BMT/Nsurg for intervention/goals of care.
   #) Hepatic Failure: VOD [**3-4**] SCT, confirmed by biopsy results. Reversal
   of flow in main portal vein demonstrated on US and MRI. Had para [**4-20**],
   again [**4-25**] with 3L off, bladder pressure after was 14. Dr. [**First Name (STitle) 2355**]
   recommends continuing defibrotide for an indefinite time period at this
   time. Per email communication with Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 12202**] (PI on
   defibrotide study), median duration of defibrotide therapy for VOD is
   19 d; 21-d course recommended d/t concern for relapse if tx held
   earlier; look for CR at 21-d (CR defined in [**2147**] [**Company 4816**] study as evidence
   of improvement in VOD-related symptoms and concurrent MOF, and a
   concomitant or subsequent decrease in bilirubin to less than 2 mg/dL),
   then re-evaluate. Appreciate hepatology input.
   - f/u liver enzymes, including bilirubin, from this AM
   - d/c defibrotide (560 mg IV Q6H) per protocol for VOD (targets for
   admin: Plt>30, Hct>30, INR<1.5, Fibrinogen>150) due to SAH
   - Ursodiol via OGT
   - Continue bladder pressure measurements
   - f/up hepatology recs
   #) Hypotension: Reduced pressor requirement overnight. Etiology is
   currently thought to be combination of a) intravascular volume
   depletion [**3-4**] decreased effective circulating volume and splanchinic
   vasodilation from liver failure, and b) sedation.  Also concern for
   sepsis thoguh cultures negative to date and has been on broad spectrum
   antibiotics for a long time.  Switched from cefepime/flagyl  to
   meropenem [**4-25**]; meropenem was d/ced [**4-28**].  Given difference on opinion
   regarding antifungal treatement, maintained micafungin treatment.  PO
   vancomycin discontinued two days ago given cdiff negative lab results
   and then restarted on [**4-28**].
   - Pressors, IV fluid boluses as needed for BP support to meet goals of
   MAP>65, SBP>85
   - Wean pressors as tolerated
   - Start vasopressin if pt reaches max doses of norepinephrine, though
   2nd pressor would mean DQ from defibrotide trial
   - Continue abx and infectious work-up (below).
   - Hold steroids, given no clear indication at present
   - Continue CVVHD but will monitor BP closely
   #) Leukocytosis: WBC continues to increase at
   21.7<--20.5<--17.3<--16.2<--14.8. Unclear etiology, given pt is s/p
   line changes with no abscess per CT, on Vanc IV+PO/Micafungin, with
   negative cultures to date. No PMNs on [**4-25**] paracentesis.
   - f/u cultures
   - F/u BMT recs re: continuing Vanc/Micafungin, currently dosed for
   CVVHD
   #) Respiratory Failure: Pt intubated [**4-10**], remains intubated for airway
   protection due to mental status changes [**3-4**] sedation + encephalopathy,
   also restrictive physiology [**3-4**] intra-abdominal pressure, anasarca.
   - No tracheostomy as that constitutes escalation of care
   - maintain current vent settings
   - AM CXR
   - Brain MRI today to evaluate for any intracranial process for mental
   status changes, will sedate with propofol as needed
    #) Anasarca: Patient + 12.4L LOS, down slightly in recent days.  This
   is likely contributing to his respiratory compromise.  Currently we are
   being able to successfully pull off fluid via CVVH without any drop in
   BP or increased pressor requirement.
   #) Oliguric ARF: Pt started on CVVHD [**2155-4-12**] for worsening metabolic
   acidosis and worsening renal function.  Etiology is ischemic ATN (urine
   sediment w/ muddy brown casts).  Initial insult = hypotension, most
   likely [**3-4**] hepatorenal syndrome. Another explanation is simply
   increased intra-abdominal pressure.  Pt remains extremely volume
   overloaded.  Creatinine 2.2 today from peak of 3.4 on [**4-14**].  Pt remains
   severely oliguric with no indication of improved renal function per
   UOP.  Renal is following.
   - Continue CVVHD (net negative 2.7 L over past 24 hrs), per renal recs,
   with goal of net negative 2-3 L/24 hrs with close monitoring of blood
   pressure
   - Trend pH, calcium, lytes, BUN/Cr, Is/Os
   - Dose meds for CVVHD
   - f/u renal rec for CVVHD end point.
   #) corneal lesion: right eye has a corneal lesion, enlarging.  Question
   if this due to dry eyes/fungal/herpes infection
   - opthal will eval,f/u recs
 continue eye drops ([**Last Name (LF) 4075**], [**First Name3 (LF) **])
   - f/u cultures from eye
   #) Ileus: No stool output or bowel sounds for past 4-5 days, also high
   output from OG tube, likely functional ileus, given pt is critically
   ill and on high doses of opioids. No obstruction on CT read.  Responded
   well to lactulose enema on [**5-1**].
   -Continue Reglan at 15mg in TPN
   -Continue lactulose
   -Wean sedation as tolerated
    #) Goals of care.  BMT social work following.  DNR with no major
   escalations. Defibrotide indefinitely.
    #) Follicular Lymphoma: Pt is s/p BEAM Auto SCT, day 24. BMT and
   Social Work are following.
   -Continue Bactrim ppx.  Acyclovir ppx being held at this time.
 HEPATIC FAILURE, FULMINANT [**Last Name (un) **]-occlusive disease
 HYPOTENSION (NOT SHOCK)
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) CVVH
 HEPATIC ENCEPHALOPATHY
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
 TRANSPLANT, BONE MARROW (BMT)
 LIVER FUNCTION ABNORMALITIES
 SUBARACHNOID HEMORRHAGE (SAH)
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2155-5-2**] 05:07 PM 81.5 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2155-4-23**] 12:00 PM
   Dialysis Catheter - [**2155-4-23**] 04:14 PM
   20 Gauge - [**2155-4-27**] 12:26 PM
   Arterial Line - [**2155-4-30**] 07:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2155-05-04 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2155-5-4**] 04:44 AM
   - Received a unit of platelets on [**5-2**], plt today is 148
   - Subarachnoid - will tell wife, discuss goals of care - involve BMT;
   no indication for neurosurgical consultation or intervension. Cannot
   give nicardipine (on pressors), cannot give steroids. No mass effect
   - significant number of BMs today, Flexiseal placed
   - Goals of care discussion: continue as we are because hemodynamics are
   improving.
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2155-5-3**] 10:06 PM
   Vancomycin - [**2155-5-4**] 12:16 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2155-5-3**] 08:00 AM
   Midazolam (Versed) - [**2155-5-3**] 11:25 PM
   Fentanyl - [**2155-5-4**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-5-4**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.5
   HR: 121 (114 - 125) bpm
   BP: 99/60(71) {89/53(64) - 114/67(82)} mmHg
   RR: 31 (22 - 32) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 102.3 kg (admission): 98.2 kg
    CVP: 8 (8 - 14)mmHg
   Bladder pressure: 11 (11 - 11) mmHg
   Total In:
                                                                  9,194 mL
                                                                  2,421 mL
   PO:
   TF:
   IVF:
                                                                  6,968 mL
                                                                  1,833 mL
   Blood products:
   Total out:
                                                                 10,728 mL
                                                                  3,277 mL
   Urine:
                                                                     15 mL
                                                                      3 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,534 mL
                                                                   -856 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: CMO
   PIP: 20 cmH2O
   Plateau: 16 cmH2O
   Compliance: 66.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.48/30/157/20/0
   Ve: 18.4 L/min
   PaO2 / FiO2: 393
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9 K/uL
   12.3 g/dL
   105 mg/dL
   2.0 mg/dL
   20 mEq/L
   4.5 mEq/L
   45 mg/dL
   102 mEq/L
   138 mEq/L
   37.7 %
   19.7 K/uL
        [image002.jpg]
                             [**2155-5-3**]  03:52 AM
                             [**2155-5-3**]  09:34 AM
                             [**2155-5-3**]  09:41 AM
                             [**2155-5-3**]  03:09 PM
                             [**2155-5-3**]  03:38 PM
                             [**2155-5-3**]  09:47 PM
                             [**2155-5-3**]  10:02 PM
                             [**2155-5-4**]  12:54 AM
                             [**2155-5-4**]  03:59 AM
                             [**2155-5-4**]  04:16 AM
   Hct
   37.7
   Plt
   9
   Cr
   2.1
   2.0
   TCO2
   20
   23
   22
   23
   23
   Glucose
   114
   130
   96
   105
   Other labs: PT / PTT / INR:13.8/30.1/1.2, ALT / AST:25/38, Alk Phos / T
   Bili:263/8.2, Amylase / Lipase:/21, Differential-Neuts:62.0 %, Band:4.0
   %, Lymph:4.0 %, Mono:21.0 %, Eos:0.0 %, Fibrinogen:523 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.6 g/dL, LDH:285 IU/L, Ca++:9.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   56yM with refractory follicular lymphoma, s/p BEAM Auto [**Hospital 11923**]
   transferred from BMT with fulminant hepatic failure [**3-4**] [**Last Name (un) 3140**]-occlusive
   disease, on defibrotide day 24 with ICU course complicated by
   persistent hypotension, culture-negative leukocytosis, acute renal
   failure requiring CVVHD, and respiratory failure requiring ventilator
   support. A family meeting was held on [**4-28**] wherein it was decided upon
   no further escalations of care.
   #) Altered Mental Status: Stable.  When off sedation, patient does not
   seem to make purposeful movements or respond to commands.  Initially
   thought [**3-4**] toxic/metabolic encephalopathy from liver failure and/or
   uremia.
   - Lactulose QID; hold on PR, given difficulty turning patient
   - Repeat Spontaneous Awakening Trials daily
   - keep sedation low
   - EEG r/o
d nonconvulsive status epilepticus
   - MRI: noted for SAH, no mass effects
   - consider touching base with BMT/Nsurg for intervention/goals of care.
   #) Hepatic Failure: VOD [**3-4**] SCT, confirmed by biopsy results. Reversal
   of flow in main portal vein demonstrated on US and MRI. Had para [**4-20**],
   again [**4-25**] with 3L off, bladder pressure after was 14. Dr. [**First Name (STitle) 2355**]
   recommends continuing defibrotide for an indefinite time period at this
   time. Per email communication with Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 12202**] (PI on
   defibrotide study), median duration of defibrotide therapy for VOD is
   19 d; 21-d course recommended d/t concern for relapse if tx held
   earlier; look for CR at 21-d (CR defined in [**2147**] [**Company 4816**] study as evidence
   of improvement in VOD-related symptoms and concurrent MOF, and a
   concomitant or subsequent decrease in bilirubin to less than 2 mg/dL),
   then re-evaluate. Appreciate hepatology input.
   - f/u liver enzymes, including bilirubin, from this AM
   - d/c defibrotide (560 mg IV Q6H) per protocol for VOD (targets for
   admin: Plt>30, Hct>30, INR<1.5, Fibrinogen>150) due to SAH
   - Ursodiol via OGT
   - Continue bladder pressure measurements
   - f/up hepatology recs
   #) Hypotension: Reduced pressor requirement overnight. Etiology is
   currently thought to be combination of a) intravascular volume
   depletion [**3-4**] decreased effective circulating volume and splanchinic
   vasodilation from liver failure, and b) sedation.  Also concern for
   sepsis thoguh cultures negative to date and has been on broad spectrum
   antibiotics for a long time.  Switched from cefepime/flagyl  to
   meropenem [**4-25**]; meropenem was d/ced [**4-28**].  Given difference on opinion
   regarding antifungal treatement, maintained micafungin treatment.  PO
   vancomycin discontinued two days ago given cdiff negative lab results
   and then restarted on [**4-28**].
   - Pressors, IV fluid boluses as needed for BP support to meet goals of
   MAP>65, SBP>85
   - Wean pressors as tolerated
   - Start vasopressin if pt reaches max doses of norepinephrine, though
   2nd pressor would mean DQ from defibrotide trial
   - Continue abx and infectious work-up (below).
   - Hold steroids, given no clear indication at present
   - Continue CVVHD but will monitor BP closely
   #) Leukocytosis: WBC continues to increase at
   21.7<--20.5<--17.3<--16.2<--14.8. Unclear etiology, given pt is s/p
   line changes with no abscess per CT, on Vanc IV+PO/Micafungin, with
   negative cultures to date. No PMNs on [**4-25**] paracentesis.
   - f/u cultures
   - F/u BMT recs re: continuing Vanc/Micafungin, currently dosed for
   CVVHD
   #) Respiratory Failure: Pt intubated [**4-10**], remains intubated for airway
   protection due to mental status changes [**3-4**] sedation + encephalopathy,
   also restrictive physiology [**3-4**] intra-abdominal pressure, anasarca.
   - No tracheostomy as that constitutes escalation of care
   - maintain current vent settings
   - AM CXR
   - Brain MRI today to evaluate for any intracranial process for mental
   status changes, will sedate with propofol as needed
    #) Anasarca: Patient + 12.4L LOS, down slightly in recent days.  This
   is likely contributing to his respiratory compromise.  Currently we are
   being able to successfully pull off fluid via CVVH without any drop in
   BP or increased pressor requirement.
   #) Oliguric ARF: Pt started on CVVHD [**2155-4-12**] for worsening metabolic
   acidosis and worsening renal function.  Etiology is ischemic ATN (urine
   sediment w/ muddy brown casts).  Initial insult = hypotension, most
   likely [**3-4**] hepatorenal syndrome. Another explanation is simply
   increased intra-abdominal pressure.  Pt remains extremely volume
   overloaded.  Creatinine 2.2 today from peak of 3.4 on [**4-14**].  Pt remains
   severely oliguric with no indication of improved renal function per
   UOP.  Renal is following.
   - Continue CVVHD (net negative 2.7 L over past 24 hrs), per renal recs,
   with goal of net negative 2-3 L/24 hrs with close monitoring of blood
   pressure
   - Trend pH, calcium, lytes, BUN/Cr, Is/Os
   - Dose meds for CVVHD
   - f/u renal rec for CVVHD end point.
   #) corneal lesion: right eye has a corneal lesion, enlarging.  Question
   if this due to dry eyes/fungal/herpes infection
   - opthal will eval,f/u recs
 continue eye drops ([**Last Name (LF) 4075**], [**First Name3 (LF) **])
   - f/u cultures from eye
   #) Ileus: No stool output or bowel sounds for past 4-5 days, also high
   output from OG tube, likely functional ileus, given pt is critically
   ill and on high doses of opioids. No obstruction on CT read.  Responded
   well to lactulose enema on [**5-1**].
   -Continue Reglan at 15mg in TPN
   -Continue lactulose
   -Wean sedation as tolerated
    #) Goals of care.  BMT social work following.  DNR with no major
   escalations. Defibrotide indefinitely.
    #) Follicular Lymphoma: Pt is s/p BEAM Auto SCT, day 24. BMT and
   Social Work are following.
   -Continue Bactrim ppx.  Acyclovir ppx being held at this time.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2155-5-3**] 04:00 PM 81.[**Telephone/Fax (3) 12388**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2155-4-23**] 12:00 PM
   Dialysis Catheter - [**2155-4-23**] 04:14 PM
   Arterial Line - [**2155-4-30**] 07:21 AM
   20 Gauge - [**2155-5-4**] 03:57 AM
   Prophylaxis:
   DVT: pboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2155-05-05 07:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - BMT recs: Okay to d/c IV vanco
   - Vanco level high but is not a true trough, will need to check
   frequent troughs due to increasing cr clearance with CVVH
   - removed 850 cc of fluid for the day
   - Wife states that she would not want him to be on dialysis
   permanently.  Wife is requesting a family meeting with all services
   (including renal).
   - having multiple bowel movements with lactulose
   - remains off sedation with prn boluses
   - Levophed weaned to 0.02
   - could consider repeat [**Name (NI) **] sono with doppler in AM to re-assess VOD
   - consider resuming PO Acyclovir prophylaxis if able to take POs
   - Consider palliative care consult in AM
   - Renal feels ethics consult would be appropriate
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2155-5-4**] 09:50 PM
   Vancomycin - [**2155-5-5**] 06:01 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2155-5-4**] 08:06 AM
   Midazolam (Versed) - [**2155-5-5**] 04:47 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-5-5**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.5
C (97.7
   HR: 120 (103 - 124) bpm
   BP: 91/60(70) {77/53(62) - 100/63(74)} mmHg
   RR: 29 (25 - 34) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 102.3 kg (admission): 98.2 kg
    CVP: 14 (11 - 15)mmHg
   Total In:
                                                                  9,046 mL
                                                                  2,277 mL
   PO:
   TF:
   IVF:
                                                                  7,090 mL
                                                                  1,681 mL
   Blood products:
   Total out:
                                                                  9,911 mL
                                                                  3,466 mL
   Urine:
                                                                      3 mL
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -865 mL
                                                                 -1,189 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: CMO
   PIP: 24 cmH2O
   SpO2: 99%
   ABG: 7.48/28/190/20/0
   Ve: 20 L/min
   PaO2 / FiO2: 475
   Physical Examination
   GEN: sedated, intubated
   CV: RRR
   RESP: rhonchorous throughout, no rales/wheezes
   ABD: distended, soft, +BS
   EXT: [**2-1**]+ pitting edema bilaterally
   Labs / Radiology
   131 K/uL
   13.4 g/dL
   121 mg/dL
   2.0 mg/dL
   20 mEq/L
   4.3 mEq/L
   46 mg/dL
   104 mEq/L
   139 mEq/L
   42.0 %
   23.0 K/uL
        [image002.jpg]
                             [**2155-5-4**]  03:59 AM
                             [**2155-5-4**]  04:16 AM
                             [**2155-5-4**]  09:16 AM
                             [**2155-5-4**]  09:25 AM
                             [**2155-5-4**]  03:41 PM
                             [**2155-5-4**]  04:27 PM
                             [**2155-5-4**]  09:42 PM
                             [**2155-5-4**]  09:52 PM
                             [**2155-5-5**]  03:57 AM
                             [**2155-5-5**]  04:10 AM
   WBC
   16.6
   23.0
   Hct
   37.7
   42.0
   Plt
   109
   131
   Cr
   2.0
   2.1
   2.0
   TCO2
   23
   22
   22
   21
   21
   Glucose
   105
   116
   118
   114
   121
   Other labs: PT / PTT / INR:13.4/27.0/1.1, ALT / AST:29/41, Alk Phos / T
   Bili:327/8.1, Amylase / Lipase:/21, Differential-Neuts:62.0 %, Band:4.0
   %, Lymph:4.0 %, Mono:21.0 %, Eos:0.0 %, Fibrinogen:523 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.6 g/dL, LDH:212 IU/L, Ca++:10.7 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   56yM with refractory follicular lymphoma, s/p BEAM Auto [**Hospital 11923**]
   transferred from BMT with fulminant hepatic failure [**3-4**] [**Last Name (un) 3140**]-occlusive
   disease, on defibrotide day 24 with ICU course complicated by
   persistent hypotension, culture-negative leukocytosis, acute renal
   failure requiring CVVHD, and respiratory failure requiring ventilator
   support. A family meeting was held on [**4-28**] wherein it was decided upon
   no further escalations of care.
   #) Altered Mental Status: Stable.  When off sedation, patient does not
   seem to make purposeful movements or respond to commands.  Initially
   thought [**3-4**] toxic/metabolic encephalopathy from liver failure and/or
   uremia.
   - continue lactulose
   - Repeat Spontaneous Awakening Trials daily
   - keep sedation low
   - EEG r/o
d nonconvulsive status epilepticus; consistent with
   encephalopathy
   - MRI: noted for SAH, no mass effects
   - consider touching base with BMT/Nsurg for intervention/goals of care.
   #) Hepatic Failure: VOD [**3-4**] SCT, confirmed by biopsy results. Reversal
   of flow in main portal vein demonstrated on US and MRI. Had para [**4-20**],
   again [**4-25**] with 3L off, bladder pressure after was 14. Dr. [**First Name (STitle) 2355**]
   recommends continuing defibrotide for an indefinite time period at this
   time. Per email communication with Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 12202**] (PI on
   defibrotide study), median duration of defibrotide therapy for VOD is
   19 d; 21-d course recommended d/t concern for relapse if tx held
   earlier; look for CR at 21-d (CR defined in [**2147**] [**Company 4816**] study as evidence
   of improvement in VOD-related symptoms and concurrent MOF, and a
   concomitant or subsequent decrease in bilirubin to less than 2 mg/dL),
   then re-evaluate. Appreciate hepatology input.
   - f/u liver enzymes, including bilirubin, from this AM
   - d/c defibrotide due to SAH
   - Ursodiol via OGT
   - f/u hepatology recs
   #) Hypotension: Reduced pressor requirement overnight. Etiology is
   currently thought to be combination of a) intravascular volume
   depletion [**3-4**] decreased effective circulating volume and splanchinic
   vasodilation from liver failure, and b) sedation.  Also concern for
   sepsis thoguh cultures negative to date and has been on broad spectrum
   antibiotics for a long time.  Switched from cefepime/flagyl  to
   meropenem [**4-25**]; meropenem was d/ced [**4-28**].  Given difference on opinion
   regarding antifungal treatement, maintained micafungin treatment.  PO
   vancomycin discontinued two days ago given cdiff negative lab results
   and then restarted on [**4-28**].
   - Pressors, IV fluid boluses as needed for BP support to meet goals of
   MAP>65, SBP>85
   - Wean pressors as tolerated
   - Continue abx and infectious work-up (below).
   - Continue CVVHD but will monitor BP closely
   #) Leukocytosis: WBC continues to increase at
   21.7<--20.5<--17.3<--16.2<--14.8. Unclear etiology, given pt is s/p
   line changes with no abscess per CT, on Vanc IV+PO, with negative
   cultures to date. No PMNs on [**4-25**] paracentesis.
   - f/u cultures
   - f/u BMT recs re: continuing Vanc, currently dosed for CVVHD
   #) Respiratory Failure: Pt intubated [**4-10**], remains intubated for airway
   protection due to mental status changes [**3-4**] sedation + encephalopathy,
   also restrictive physiology [**3-4**] intra-abdominal pressure, anasarca.
   - No tracheostomy as that constitutes escalation of care
   - maintain current vent settings
   - AM CXR
   #) Anasarca: Patient + 3.6L LOS, signficantly improved from prior.
   Currently we are being able to successfully pull off fluid via CVVH
   without any drop in BP or increased pressor requirement.
   #) Oliguric ARF: Pt started on CVVHD [**2155-4-12**] for worsening metabolic
   acidosis and worsening renal function.  Etiology is ischemic ATN (urine
   sediment w/ muddy brown casts).  Initial insult = hypotension, most
   likely [**3-4**] hepatorenal syndrome. Another explanation is simply
   increased intra-abdominal pressure.  Pt remains extremely volume
   overloaded.  Creatinine 2.2 today from peak of 3.4 on [**4-14**].  Pt remains
   severely oliguric with no indication of improved renal function per
   UOP.  Renal is following.
   - Continue CVVHD per renal recs, with goal of net negative 1-2 L/24 hrs
   with close monitoring of blood pressure
   - Trend pH, calcium, lytes, BUN/Cr, Is/Os
   - Dose meds for CVVHD
   - f/u renal rec for CVVHD end point.
   #) corneal lesion: right eye has a corneal lesion, enlarging.  Question
   if this due to dry eyes/fungal/herpes infection
   - opthal will eval,f/u recs
 continue eye drops ([**Last Name (LF) 4075**], [**First Name3 (LF) **])
   - f/u cultures from eye
   #) ileus
 Now resolved, with significant BMs on lactulose.
   - continue lactulose
   - PO vancomycin empirically for C. diff
   #) Goals of care.  BMT social work following.  DNR with no major
   escalations.
   #) Follicular Lymphoma: Pt is s/p BEAM Auto SCT, day 24. BMT and Social
   Work are following.
   - Continue Bactrim ppx.  Acyclovir ppx being held at this time.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2155-5-4**] 03:08 PM 81.[**Telephone/Fax (3) 12401**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2155-4-23**] 12:00 PM
   Dialysis Catheter - [**2155-4-23**] 04:14 PM
   Arterial Line - [**2155-4-30**] 07:21 AM
   20 Gauge - [**2155-5-4**] 03:57 AM
   Prophylaxis:
   DVT: pboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2155-05-06 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - d/c'd PO vanco, sedation med
   - goals of care: likely CMO today, give small doses of fentanyl if
   uncomfortable.
   - BMT rec: none
   - renal rec: none
   - gave bolus sedation (versed and fentanyl), due disynchrony with vent.
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2155-5-5**] 06:01 AM
   Bactrim (SMX/TMP) - [**2155-5-5**] 10:25 PM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2155-5-5**] 08:32 AM
   Midazolam (Versed) - [**2155-5-6**] 06:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-5-6**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 121 (116 - 133) bpm
   BP: 90/56(67) {71/47(56) - 116/75(88)} mmHg
   RR: 32 (22 - 32) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 93.5 kg (admission): 98.2 kg
    CVP: 9 (9 - 15)mmHg
   Total In:
                                                                  8,011 mL
                                                                  2,538 mL
   PO:
   TF:
   IVF:
                                                                  5,934 mL
                                                                  1,948 mL
   Blood products:
   Total out:
                                                                  8,784 mL
                                                                  2,792 mL
   Urine:
                                                                      5 mL
                                                                      3 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                   -773 mL
                                                                   -254 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 655 (655 - 655) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 16 cmH2O
   Plateau: 16 cmH2O
   Compliance: 60 cmH2O/mL
   SpO2: 100%
   ABG: 7.48/29/190/22/0
   Ve: 19.2 L/min
   PaO2 / FiO2: 475
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   112 K/uL
   12.6 g/dL
   121 mg/dL
   2.1 mg/dL
   22 mEq/L
   4.3 mEq/L
   51 mg/dL
   103 mEq/L
   139 mEq/L
   39.6 %
   22.1 K/uL
        [image002.jpg]
                             [**2155-5-5**]  03:57 AM
                             [**2155-5-5**]  04:10 AM
                             [**2155-5-5**]  11:02 AM
                             [**2155-5-5**]  11:18 AM
                             [**2155-5-5**]  04:17 PM
                             [**2155-5-5**]  04:28 PM
                             [**2155-5-5**]  09:49 PM
                             [**2155-5-5**]  10:05 PM
                             [**2155-5-6**]  04:02 AM
                             [**2155-5-6**]  04:09 AM
   WBC
   23.0
   22.1
   Hct
   42.0
   39.6
   Plt
   131
   112
   Cr
   2.0
   2.0
   2.1
   TCO2
   21
   23
   23
   21
   22
   Glucose
   121
   103
   93
   156
   121
   Other labs: PT / PTT / INR:13.5/28.2/1.2, ALT / AST:29/41, Alk Phos / T
   Bili:300/7.1, Amylase / Lipase:/21, Differential-Neuts:62.0 %, Band:4.0
   %, Lymph:4.0 %, Mono:21.0 %, Eos:0.0 %, Fibrinogen:523 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.6 g/dL, LDH:208 IU/L, Ca++:10.5 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   56yM with refractory follicular lymphoma, s/p BEAM Auto [**Hospital 11923**]
   transferred from BMT with fulminant hepatic failure [**3-4**] [**Last Name (un) 3140**]-occlusive
   disease, on defibrotide day 24 with ICU course complicated by
   persistent hypotension, culture-negative leukocytosis, acute renal
   failure requiring CVVHD, and respiratory failure requiring ventilator
   support. A family meeting was held on [**4-28**] wherein it was decided upon
   no further escalations of care.
   .
   #) Goals of care.  BMT social work following.  DNR with no major
   escalations. Family meetings daily.
   - will discuss today
   .
   #) Altered Mental Status: Stable.  When off sedation, patient does not
   seem to make purposeful movements or respond to commands.  Initially
   thought [**3-4**] toxic/metabolic encephalopathy from liver failure and/or
   uremia.
   - continue lactulose
   - Repeat Spontaneous Awakening Trials daily
   - keep sedation low
   - EEG r/o
d nonconvulsive status epilepticus; consistent with
   encephalopathy
   - MRI: noted for SAH, no mass effects
   - consider touching base with BMT/Nsurg for intervention/goals of care.
   .
   #) Hepatic Failure: VOD [**3-4**] SCT, confirmed by biopsy results. Reversal
   of flow in main portal vein demonstrated on US and MRI. Had para [**4-20**],
   again [**4-25**] with 3L off, bladder pressure after was 14. Dr. [**First Name (STitle) 2355**]
   recommends continuing defibrotide for an indefinite time period at this
   time. Patient received 25 days of defibrotide that was d/c'd [**3-4**] SAH.
   Appreciate hepatology input.
   - f/u liver enzymes --> stable with elevated but stable APhos
   - d/c defibrotide due to SAH
   - Ursodiol via OGT
   - f/u hepatology recs
   .
   #) Hypotension: Reduced pressor requirement overnight. Etiology is
   currently thought to be combination of a) intravascular volume
   depletion [**3-4**] decreased effective circulating volume and splanchinic
   vasodilation from liver failure, and b) sedation.  Also concern for
   sepsis thoguh cultures negative to date and has been on broad spectrum
   antibiotics for a long time.  Switched from cefepime/flagyl  to
   meropenem [**4-25**]; meropenem was d/ced [**4-28**].  Given difference on opinion
   regarding antifungal treatement, maintained micafungin treatment -->
   later dc'd [**3-4**] hyperbilirubinemia.  PO vancomycin discontinued two days
   ago given cdiff negative lab results and then restarted on [**4-28**] and
   later d/c'd on [**5-5**]
   - Pressors, IV fluid boluses as needed for BP support to meet goals of
   MAP>65, SBP>85
   - Wean pressors as tolerated
   - Continue CVVHD but will monitor BP closely, last day of CVVH on
   [**Last Name (LF) **], [**First Name3 (LF) 77**] renal
   .
   #) Leukocytosis: WBC continues to increase at
   21.7<--20.5<--17.3<--16.2<--14.8. Unclear etiology, given pt is s/p
   line changes with no abscess per CT, on Vanc IV+PO, with negative
   cultures to date. No PMNs on [**4-25**] paracentesis.
   - f/u cultures
   - f/u BMT recs
   .
   #) Respiratory Failure: Pt intubated [**4-10**], remains intubated for airway
   protection due to mental status changes [**3-4**] sedation + encephalopathy,
   also restrictive physiology [**3-4**] intra-abdominal pressure, anasarca.
   - No tracheostomy as that constitutes escalation of care
   - maintain current vent settings
   - AM CXR
   .
   #) Anasarca: Patient + 3.6L LOS, signficantly improved from prior.
   Currently we are being able to successfully pull off fluid via CVVH
   without any drop in BP or increased pressor requirement.
   .
   #) Oliguric ARF: Pt started on CVVHD [**2155-4-12**] for worsening metabolic
   acidosis and worsening renal function.  Etiology is ischemic ATN (urine
   sediment w/ muddy brown casts).  Initial insult = hypotension, most
   likely [**3-4**] hepatorenal syndrome. Another explanation is simply
   increased intra-abdominal pressure.  Pt remains extremely volume
   overloaded.  Creatinine 2.2 today from peak of 3.4 on [**4-14**].  Pt remains
   severely oliguric with no indication of improved renal function per
   UOP.  Renal is following.
   - Continue CVVHD per renal recs, with goal of net negative 1-2 L/24 hrs
   with close monitoring of blood pressure
   - Trend pH, calcium, lytes, BUN/Cr, Is/Os
   - Dose meds for CVVHD
   - f/u renal rec for CVVHD end point.
   .
   #) corneal lesion: right eye has a corneal lesion, enlarging.  Question
   if this due to dry eyes/fungal/herpes infection
   - opthal will eval,f/u recs
 continue eye drops ([**Last Name (LF) 4075**], [**First Name3 (LF) **])
   - f/u cultures from eye
   .
   #) ileus
 Now resolved, with significant BMs on lactulose.
   - continue lactulose
   - d/c
d PO vancomycin empirically for C. diff
   .
   #) Follicular Lymphoma: Pt is s/p BEAM Auto SCT, day 24. BMT and Social
   Work are following.
   - Continue Bactrim ppx.  Acyclovir ppx being held at this time.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2155-5-5**] 02:16 PM 81.[**Telephone/Fax (3) 12401**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2155-4-23**] 12:00 PM
   Dialysis Catheter - [**2155-4-23**] 04:14 PM
   Arterial Line - [**2155-4-30**] 07:21 AM
   20 Gauge - [**2155-5-4**] 03:57 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:
   ------ Protected Section ------
   Critical care addendum
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. I would emphasize and
   add the following points: 56M follicular lymphoma now s/p auto sct c/b
   acute VOD of the liver with resp failure, and MODS.  He remains
   unresponsive.  On vasopressor support with norepi. Remains on CVVH for
   oliguric arf.  Stooling with lactulose. Team continues to address goals
   of care with family.
   97.4   110  90-100 / 50   28  100% on AC 600/16/5/0.4
   Unresponsive, jaundiced
   Sym chest wall excursion, rhonci,
   CV w/o m
   Distended, decreased BS
   Grossly edematous
   LABS:
   WBC 22
   Hct 42
   Plt 112
   na 139
   t bili 7
   7.48/29/190
   A/P: Pt in MODS, unresponsive, with grim prognosis for recovery. We
   continue aggressive care at this time with vasopressors, CVVH. His
   synthetic liver fx is stable.  His oxygenation remains adequate but he
   has a very high MV/rr 28 on vent, likely from encephalopathy - will
   leave his current vent settings as not a candidate for weaning or
   extubation.  He continues to have profound leukocytosis.  Our team
   along with BMT continue to communicate with pts wife and family to
   clarify goals of care. He is DNR and family likely transitioning to
   CMO.  Social work team closely involved for support.
   Remainder as per resident progress note.
   Patient is critically ill
   Total time: 50 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 143**] [**Last Name (NamePattern1) 144**], MD
   on:[**2155-5-6**] 02:03 PM ------
   Critical care addendum:
   Family meeting with BMT.  Pt
s wife wishes to continue with current
   level of care at this time and is not ready to transition to CMO.  She
   expresses full understanding of pt
s condition and poor prognosis.
   Pt now with dilated L pupil at 6mm c/t 4mm on R, both are reactive to
   light.  No medication /eye drops to explain this clinical finding.
   Will notify BMT and obtain emergent head CT to rule out new IC process.
   Additional crit care time in discussion and assessment of pt:  20 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 143**] [**Last Name (NamePattern1) 144**], MD
   on:[**2155-5-6**] 05:37 PM ------

2155-05-07 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - family meeting - decided to hold off for a few more days and see if
   he becomes more responsive
   - [**Doctor Last Name **] REC: consider paracentesis to help with BP control and consider
   trach
   - d/c'd versed boluses
   - Pupils: Anisicoria. R >L; right appeared blown at times. Always very
   reactive. Considered CT head but then very improved after leaving
   patient in the dark. It disturbed the patient to check his eyes.
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2155-5-5**] 06:01 AM
   Bactrim (SMX/TMP) - [**2155-5-6**] 10:34 PM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2155-5-6**] 08:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-5-7**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.5
C (97.7
   HR: 117 (117 - 126) bpm
   BP: 92/59(70) {91/56(68) - 102/63(75)} mmHg
   RR: 25 (25 - 30) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 93.5 kg (admission): 98.2 kg
    CVP: 10 (9 - 12)mmHg
   Total In:
                                                                  8,684 mL
                                                                  2,495 mL
   PO:
   TF:
   IVF:
                                                                  6,622 mL
                                                                  1,875 mL
   Blood products:
   Total out:
                                                                  9,087 mL
                                                                  3,943 mL
   Urine:
                                                                      3 mL
   NG:
                                                                    400 mL
                                                                    450 mL
   Stool:
   Drains:
   Balance:
                                                                   -403 mL
                                                                 -1,448 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI Deferred: Hemodynamic Instability
   PIP: 10 cmH2O
   Plateau: 16 cmH2O
   SpO2: 99%
   ABG: 7.49/28/153/21/0
   Ve: 23.4 L/min
   PaO2 / FiO2: 510
   Physical Examination
   GEN: sedated, intubated
   CV: RRR
   RESP: rhonchorous throughout, no rales/wheezes
   ABD: distended, soft, +BS
   EXT: [**2-1**]+ pitting edema bilaterally
   Labs / Radiology
   115 K/uL
   13.2 g/dL
   83 mg/dL
   1.9 mg/dL
   21 mEq/L
   4.3 mEq/L
   46 mg/dL
   105 mEq/L
   142 mEq/L
   41.8 %
   23.2 K/uL
        [image002.jpg]
                             [**2155-5-6**]  04:02 AM
                             [**2155-5-6**]  04:09 AM
                             [**2155-5-6**]  10:01 AM
                             [**2155-5-6**]  10:08 AM
                             [**2155-5-6**]  04:28 PM
                             [**2155-5-6**]  04:34 PM
                             [**2155-5-6**]  09:56 PM
                             [**2155-5-6**]  10:27 PM
                             [**2155-5-7**]  03:54 AM
                             [**2155-5-7**]  04:03 AM
   WBC
   22.1
   23.2
   Hct
   39.6
   41.8
   Plt
   112
   115
   Cr
   2.1
   2.0
   1.9
   TCO2
   22
   24
   23
   23
   22
   Glucose
   121
   74
   85
   86
   83
   Other labs: PT / PTT / INR:13.1/27.8/1.1, ALT / AST:35/54, Alk Phos / T
   Bili:267/6.6, Amylase / Lipase:/21, Differential-Neuts:62.0 %, Band:4.0
   %, Lymph:4.0 %, Mono:21.0 %, Eos:0.0 %, Fibrinogen:523 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.6 g/dL, LDH:222 IU/L, Ca++:10.5 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   56yM with refractory follicular lymphoma, s/p BEAM Auto [**Hospital 11923**]
   transferred from BMT with fulminant hepatic failure [**3-4**] [**Last Name (un) 3140**]-occlusive
   disease, on defibrotide day 24 with ICU course complicated by
   persistent hypotension, culture-negative leukocytosis, acute renal
   failure requiring CVVHD, and respiratory failure requiring ventilator
   support. A family meeting was held on [**4-28**] wherein it was decided upon
   no further escalations of care.
   .
   #) Goals of care.  BMT social work following.  DNR with no major
   escalations. Family meetings in a couple of days.
   - will discuss today
   .
   #) Altered Mental Status: Stable.  When off sedation, patient does not
   seem to make purposeful movements or respond to commands.  Initially
   thought [**3-4**] toxic/metabolic encephalopathy from liver failure and/or
   uremia.
   - continue lactulose
   - Repeat Spontaneous Awakening Trials daily
   - keep sedation low
   - EEG r/o
d nonconvulsive status epilepticus; consistent with
   encephalopathy
   - MRI: noted for SAH, no mass effects
   - consider touching base with BMT/Nsurg for intervention/goals of care.
   .
   #) Hepatic Failure: VOD [**3-4**] SCT, confirmed by biopsy results. Reversal
   of flow in main portal vein demonstrated on US and MRI. Had para [**4-20**],
   again [**4-25**] with 3L off, bladder pressure after was 14. Dr. [**First Name (STitle) 2355**]
   recommends continuing defibrotide for an indefinite time period at this
   time. Patient received 25 days of defibrotide that was d/c'd [**3-4**] SAH.
   Appreciate hepatology input.
   - f/u liver enzymes --> stable with elevated but stable APhos
   - d/c defibrotide due to SAH
   - Ursodiol via OGT
   - f/u hepatology recs
   .
   #) Hypotension: Reduced pressor requirement overnight. Etiology is
   currently thought to be combination of a) intravascular volume
   depletion [**3-4**] decreased effective circulating volume and splanchinic
   vasodilation from liver failure, and b) sedation.  Also concern for
   sepsis thoguh cultures negative to date and has been on broad spectrum
   antibiotics for a long time.  Switched from cefepime/flagyl  to
   meropenem [**4-25**]; meropenem was d/ced [**4-28**].  Given difference on opinion
   regarding antifungal treatement, maintained micafungin treatment -->
   later dc'd [**3-4**] hyperbilirubinemia.  PO vancomycin discontinued two days
   ago given cdiff negative lab results and then restarted on [**4-28**] and
   later d/c'd on [**5-5**]
   - Pressors, IV fluid boluses as needed for BP support to meet goals of
   MAP>65, SBP>85
   - Wean pressors as tolerated
   - Continue CVVHD but will monitor BP closely, last day of CVVH on
   [**Last Name (LF) **], [**First Name3 (LF) 77**] renal
   .
   #) Leukocytosis: WBC continues to increase at
   21.7<--20.5<--17.3<--16.2<--14.8. Unclear etiology, given pt is s/p
   line changes with no abscess per CT, on Vanc IV+PO, with negative
   cultures to date. No PMNs on [**4-25**] paracentesis.
   - f/u cultures
   - f/u BMT recs
   - f/u on CBC diff
   .
   #) Respiratory Failure: Pt intubated [**4-10**], remains intubated for airway
   protection due to mental status changes [**3-4**] sedation + encephalopathy,
   also restrictive physiology [**3-4**] intra-abdominal pressure, anasarca.
   - No tracheostomy as that constitutes escalation of care
   - maintain current vent settings
   - likely will tolerate extubation.
   - AM CXR
   .
   #) Anasarca: Patient + 3.6L LOS, signficantly improved from prior.
   Currently we are being able to successfully pull off fluid via CVVH
   without any drop in BP or increased pressor requirement.
   .
   #) Oliguric ARF: Pt started on CVVHD [**2155-4-12**] for worsening metabolic
   acidosis and worsening renal function.  Etiology is ischemic ATN (urine
   sediment w/ muddy brown casts).  Initial insult = hypotension, most
   likely [**3-4**] hepatorenal syndrome. Another explanation is simply
   increased intra-abdominal pressure.  Pt remains extremely volume
   overloaded.  Creatinine 2.2 today from peak of 3.4 on [**4-14**].  Pt remains
   severely oliguric with no indication of improved renal function per
   UOP.  Renal is following.
   - Continue CVVHD per renal recs, with goal of net negative 1-2 L/24 hrs
   with close monitoring of blood pressure
   - Trend pH, calcium, lytes, BUN/Cr, Is/Os
   - Dose meds for CVVHD
   - f/u renal rec for CVVHD end point.
   .
   #) corneal lesion: right eye has a corneal lesion, enlarging.  Question
   if this due to dry eyes/fungal/herpes infection
   - opthal will eval,f/u recs
 continue eye drops ([**Last Name (LF) 4075**], [**First Name3 (LF) **])
   - f/u cultures from eye
   .
   #) ileus
 Now resolved, with significant BMs on lactulose.
   - continue lactulose
   - d/c
d PO vancomycin empirically for C. diff
   .
   #) Follicular Lymphoma: Pt is s/p BEAM Auto SCT, day 24. BMT and Social
   Work are following.
   - Continue Bactrim ppx.  Acyclovir ppx being held at this time.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2155-5-6**] 05:54 PM 80 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2155-4-23**] 12:00 PM
   Dialysis Catheter - [**2155-4-23**] 04:14 PM
   Arterial Line - [**2155-4-30**] 07:21 AM
   20 Gauge - [**2155-5-4**] 03:57 AM
   Prophylaxis:
   DVT:  pboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2155-05-11 12:15:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically  ventilated.
   Experienced non-sustained VT last PM (18-beat), spontaneously
   resolving.  No further episodes.
   Remains on CVVH.
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: ETT
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2155-5-10**] 10:10 PM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2155-5-11**] 08:34 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2155-5-11**] 12:14 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.2
C (97.1
   HR: 118 (113 - 125) bpm
   BP: 86/57(67) {75/52(62) - 118/71(85)} mmHg
   RR: 21 (18 - 29) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 91.8 kg (admission): 98.2 kg
   CVP: 10 (7 - 12)mmHg
   Total In:
                                                                  9,129 mL
                                                                  4,392 mL
   PO:
   TF:
   IVF:
                                                                  7,084 mL
                                                                  3,372 mL
   Blood products:
   Total out:
                                                                  9,306 mL
                                                                  3,824 mL
   Urine:
   NG:
                                                                    250 mL
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                   -177 mL
                                                                    568 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 707 (515 - 967) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 42
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.45/29/143/18/-1
   Ve: 15.3 L/min
   PaO2 / FiO2: 477
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed, Awake, able to nod appropriately
   Labs / Radiology
   12.4 g/dL
   125 K/uL
   110 mg/dL
   1.4 mg/dL
   18 mEq/L
   4.3 mEq/L
   26 mg/dL
   108 mEq/L
   138 mEq/L
   39.2 %
   29.9 K/uL
        [image002.jpg]
                             [**2155-5-10**]  09:50 AM
                             [**2155-5-10**]  10:10 AM
                             [**2155-5-10**]  04:15 PM
                             [**2155-5-10**]  04:24 PM
                             [**2155-5-10**]  09:50 PM
                             [**2155-5-10**]  10:09 PM
                             [**2155-5-11**]  04:01 AM
                             [**2155-5-11**]  04:14 AM
                             [**2155-5-11**]  09:54 AM
                             [**2155-5-11**]  10:05 AM
   WBC
   29.9
   Hct
   39.2
   Plt
   125
   Cr
   1.4
   1.4
   TCO2
   21
   19
   18
   20
   21
   Glucose
   126
   105
   116
   107
   110
   Other labs: PT / PTT / INR:13.2/27.5/1.1, ALT / AST:38/52, Alk Phos / T
   Bili:264/6.2, Amylase / Lipase:/44, Differential-Neuts:86.0 %, Band:0.0
   %, Lymph:7.0 %, Mono:7.0 %, Eos:0.0 %, Fibrinogen:523 mg/dL, Lactic
   Acid:1.1 mmol/L, Albumin:2.6 g/dL, LDH:234 IU/L, Ca++:9.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   56 yom refractory follicular lymphoma, s/p BEAM Auto SCT, transferred
   from BMT with fulminant hepatic failure [**3-4**] [**Last Name (un) 3140**]-occlusive disease
   (VOD).   Overall continued progress, although remains critically ill.
   RESPIRATORY FAILURE -- remains intubated primarily for altered mental
   status.  RSBI favorable, and able to tolerate SBT x 3 hrs (IPS=
   5/PEEP=5).  Hope to continue to work with repeated SBT, and eventually
   hope to work towards extubation trial over next several days.  If no
   progress, then tracheotomy tube.
   HYPOTENSION -- appears to be marginal for intravascular volume status.
    Would favor maintaining net even fluid balance, hope to wean
   vasopressor.  Monitor MAP > 60 mmHg.
   VENTRICULAR TACHYCARDIA -- non-sustained.  Unclear obvious precipitant,
   although may be related to toxic metabolic insult, intrinsic heart
   disease, electolyte.  Monitor HR.
   ELEVATED WBC -- elevated but stable. Unclear etiology.  [**Month (only) 8**] be due to
   stress response given elevated AM cortisol.
   ALTERED MENTAL STATUS -- much improved on daily basis.  Hold sedation
   medications.  Monitor mental status.
   HEPATIC FAILURE
 attributed to VOD [**3-4**] SCT, confirmed by biopsy
   results.  Received 25 days of defibrotide that was d/c'd [**3-4**] SAH.
   Hepatic failure resolving (INR, Albumin), elevated bili lags.  Ursodiol
   via OGT
   RENAL FAILURE -- tolerating CVVHD.  [**Month (only) 8**] require HD long term.   Plan
   check bladder catheter to determine if there is any urine production.
   CORNEAL LESION -- right eye has a corneal lesion, enlarging.  Question
   if this due to dry eyes/fungal/herpes infection.  Opthal will eval,f/u
   recs
 continue eye drops ([**Last Name (LF) 4075**], [**First Name3 (LF) **]).   f/u cultures from eye
   Follicular Lymphoma --  s/p BEAM Auto SCT, day 24. BMT and Social Work
   are following. Continue Bactrim ppx.  Acyclovir ppx being held at this
   time.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2155-5-10**] 06:02 PM 80 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2155-4-23**] 12:00 PM
   Dialysis Catheter - [**2155-4-23**] 04:14 PM
   Arterial Line - [**2155-4-30**] 07:21 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2155-05-12 12:43:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.  Tolerated periods of IPS,
   now on AC mode.
   Received prn benzodiazepine for aggitation.  Otherwise remains off
   sedation.
   Remains on CVVH.
   Remains on vasopressor.
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2155-5-11**] 10:27 PM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Midazolam (Versed) - [**2155-5-12**] 06:34 AM
   Fentanyl - [**2155-5-12**] 07:10 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2155-5-12**] 12:42 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (98.9
   HR: 123 (113 - 136) bpm
   BP: 97/67(78) {76/52(61) - 112/72(81)} mmHg
   RR: 24 (20 - 37) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 92 kg (admission): 98.2 kg
   CVP: 8 (8 - 10)mmHg
   Total In:
                                                                  8,866 mL
                                                                  4,331 mL
   PO:
   TF:
   IVF:
                                                                  6,806 mL
                                                                  3,300 mL
   Blood products:
   Total out:
                                                                  8,121 mL
                                                                  3,325 mL
   Urine:
   NG:
                                                                    800 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                    745 mL
                                                                  1,006 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 584 (511 - 605) mL
   PS : 5 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 62
   PIP: 14 cmH2O
   Plateau: 11 cmH2O
   SpO2: 99%
   ABG: 7.42/30/106/18/-3
   Ve: 11.8 L/min
   PaO2 / FiO2: 353
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   12.5 g/dL
   123 K/uL
   102 mg/dL
   1.4 mg/dL
   18 mEq/L
   4.3 mEq/L
   28 mg/dL
   108 mEq/L
   138 mEq/L
   39.0 %
   30.1 K/uL
        [image002.jpg]
                             [**2155-5-11**]  04:14 AM
                             [**2155-5-11**]  09:54 AM
                             [**2155-5-11**]  10:05 AM
                             [**2155-5-11**]  04:00 PM
                             [**2155-5-11**]  10:11 PM
                             [**2155-5-11**]  10:28 PM
                             [**2155-5-12**]  04:01 AM
                             [**2155-5-12**]  04:14 AM
                             [**2155-5-12**]  11:03 AM
                             [**2155-5-12**]  11:11 AM
   WBC
   30.1
   Hct
   39.0
   Plt
   123
   Cr
   1.3
   1.4
   TCO2
   20
   21
   21
   20
   17
   20
   Glucose
   110
   111
   113
   95
   102
   Other labs: PT / PTT / INR:13.6/31.4/1.2, ALT / AST:42/56, Alk Phos / T
   Bili:258/7.0, Amylase / Lipase:/44, Differential-Neuts:86.0 %, Band:0.0
   %, Lymph:7.0 %, Mono:7.0 %, Eos:0.0 %, Fibrinogen:523 mg/dL, Lactic
   Acid:1.1 mmol/L, Albumin:2.4 g/dL, LDH:272 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   56 yom refractory follicular lymphoma, s/p BEAM Auto SCT, transferred
   from BMT with fulminant hepatic failure [**3-4**] [**Last Name (un) 3140**]-occlusive disease
   (VOD).   Overall continued progress, although remains critically ill.
   RESPIRATORY FAILURE -- remains intubated primarily for altered mental
   status.  RSBI favorable, and able to tolerate SBT x 3 hrs (IPS=
   5/PEEP=5).  Hope to continue to work with repeated SBT, and eventually
   hope to work towards extubation trial over next several days.  If no
   progress, then tracheotomy tube.
   HYPOTENSION -- appears to be marginal for intravascular volume status.
   Would favor maintaining net even fluid balance, hope to wean
   vasopressor.  Monitor MAP > 60 mmHg.
   VENTRICULAR TACHYCARDIA -- non-sustained.  Unclear obvious precipitant,
   although may be related to toxic metabolic insult, intrinsic heart
   disease, electolyte.  Monitor HR.
   ELEVATED WBC -- continues to increase over days. Unclear etiology, but
   concern for evolving infection -- concerns include line-related
   infection, intraabdominal infection such as SBP, hepatobiliary
   infection (including fungal infection), C. diff colitis.  Recheck blood
   cultures, stool culture, stoo for C. diff.  Consider re-imaging study,
   and site directed paracentesis if fluid collection identified.
   Consider empirical antimicrobials, including C. diff Rx.
   ALTERED MENTAL STATUS -- much improved on daily basis.  Hold sedation
   medications.  Monitor mental status.
   MOTOR WEAKNESS -- diffuse motor weakness.  Fasculations noted in arms
   today.  Neurology to assess, ?EMG and NCS.
   HEPATIC FAILURE
 attributed to VOD [**3-4**] SCT, confirmed by biopsy
   results.  Received 25 days of defibrotide that was d/c'd [**3-4**] SAH.
   Hepatic failure resolving (INR, Albumin), elevated bili lags.  Ursodiol
   via OGT
   RENAL FAILURE -- tolerating CVVHD.  [**Month (only) 8**] require HD long term.   Plan
   check bladder catheter to determine if there is any urine production.
   CORNEAL LESION -- right eye has a corneal lesion, enlarging.  Question
   if this due to dry eyes/fungal/herpes infection.  Opthal will eval,f/u
   recs
 continue eye drops ([**Last Name (LF) 4075**], [**First Name3 (LF) **]).   f/u cultures from eye
   Follicular Lymphoma --  s/p BEAM Auto SCT, day 24. BMT and Social Work
   are following. Continue Bactrim ppx.  Acyclovir ppx being held at this
   time.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2155-5-11**] 03:52 PM 80 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2155-4-23**] 12:00 PM
   Dialysis Catheter - [**2155-4-23**] 04:14 PM
   Arterial Line - [**2155-4-30**] 07:21 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2155-05-13 11:54:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Remains on vasopressor.
   Remains on CVVH
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: ETT
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2155-5-12**] 10:00 PM
   Meropenem - [**2155-5-13**] 06:00 AM
   Vancomycin - [**2155-5-13**] 08:00 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 1 mEq./hour
   Other ICU medications:
   Fentanyl - [**2155-5-13**] 03:18 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, Dialysis, CVVH
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2155-5-13**] 11:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.6
   HR: 113 (112 - 127) bpm
   BP: 102/65(77) {76/50(59) - 115/76(89)} mmHg
   RR: 23 (20 - 28) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 94 kg (admission): 98.2 kg
   CVP: 4 (4 - 13)mmHg
   Total In:
                                                                  8,956 mL
                                                                  4,289 mL
   PO:
   TF:
   IVF:
                                                                  6,571 mL
                                                                  3,298 mL
   Blood products:
   Total out:
                                                                  6,770 mL
                                                                  4,717 mL
   Urine:
   NG:
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                  2,186 mL
                                                                   -428 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 770 (770 - 770) mL
   PS : 8 cmH2O
   RR (Set): 24
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 54
   PIP: 14 cmH2O
   Plateau: 12 cmH2O
   SpO2: 100%
   ABG: 7.42/29/125/20/-3
   NIF: -35 cmH2O
   Ve: 18 L/min
   PaO2 / FiO2: 417
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   11.6 g/dL
   116 K/uL
   96 mg/dL
   1.5 mg/dL
   20 mEq/L
   4.6 mEq/L
   29 mg/dL
   107 mEq/L
   138 mEq/L
   37.4 %
   47.8 K/uL
        [image002.jpg]
                             [**2155-5-12**]  04:14 AM
                             [**2155-5-12**]  11:03 AM
                             [**2155-5-12**]  11:11 AM
                             [**2155-5-12**]  05:56 PM
                             [**2155-5-12**]  06:03 PM
                             [**2155-5-12**]  11:25 PM
                             [**2155-5-12**]  11:42 PM
                             [**2155-5-13**]  05:07 AM
                             [**2155-5-13**]  05:29 AM
                             [**2155-5-13**]  10:15 AM
   WBC
   47.8
   Hct
   37.4
   Plt
   116
   Cr
   1.7
   1.5
   1.5
   TCO2
   17
   20
   21
   19
   19
   19
   Glucose
   102
   109
   140
   96
   Other labs: PT / PTT / INR:13.6/32.1/1.2, ALT / AST:40/52, Alk Phos / T
   Bili:255/7.0, Amylase / Lipase:/44, Differential-Neuts:86.0 %, Band:0.0
   %, Lymph:7.0 %, Mono:7.0 %, Eos:0.0 %, Fibrinogen:523 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:2.4 g/dL, LDH:258 IU/L, Ca++:9.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   56 yom refractory follicular lymphoma, s/p BEAM Auto SCT, transferred
   from BMT with fulminant hepatic failure [**3-4**] [**Last Name (un) 3140**]-occlusive disease
   (VOD).   Overall continued progress (only gradual), although remains
   critically ill.
   RESPIRATORY FAILURE -- remains intubated primarily for marked motor
   weakness.  RSBI favorable, and able to tolerate SBT intermittently
   (IPS= 5/PEEP=5).  Hope to continue to work with repeated SBT, and
   eventually hope to work towards extubation trial over next several
   days.  If no progress, then tracheostomy tube.
   HYPOTENSION -- appears to be marginal for intravascular volume status.
   Would favor maintaining net even fluid balance, hope to wean
   vasopressor.  Monitor MAP > 60 mmHg.
   ELEVATED WBC -- continues to increase over days. Unclear etiology, but
   concern for evolving infection -- concerns include line-related
   infection, intraabdominal infection such as SBP, hepatobiliary
   infection (including fungal infection), C. diff colitis.  Recheck blood
   cultures, stool culture, stool for C. diff.  Consider re-imaging study,
   and site directed paracentesis if fluid collection identified.  Now on
   empirical antimicrobials, including C. diff Rx.
   ALTERED MENTAL STATUS -- much improved on daily basis.  Hold sedation
   medications.  Monitor mental status.
   MOTOR WEAKNESS -- diffuse motor weakness.  Fasculations noted in arms
   today.  Neurology to assess, ?EMG and NCS.
   HEPATIC FAILURE
 attributed to VOD [**3-4**] SCT, confirmed by biopsy
   results.  Received 25 days of defibrotide that was d/c'd [**3-4**] SAH.
   Hepatic failure resolving (INR, Albumin), elevated bili lags.  Ursodiol
   via OGT
   VENTRICULAR TACHYCARDIA -- non-sustained.  Unclear obvious precipitant,
   although may be related to toxic metabolic insult, intrinsic heart
   disease, electolyte.  Monitor HR.
   RENAL FAILURE -- tolerating CVVHD.  [**Month (only) 8**] require HD long term.   Plan
   check bladder catheter to determine if there is any urine production.
   CORNEAL LESION -- right eye has a corneal lesion, enlarging.  Question
   if this due to dry eyes/fungal/herpes infection.  Opthal will eval,f/u
   recs
 continue eye drops ([**Last Name (LF) 4075**], [**First Name3 (LF) **]).   f/u cultures from eye
   Follicular Lymphoma --  s/p BEAM Auto SCT, day 24. BMT and Social Work
   are following. Continue Bactrim ppx.  Acyclovir ppx being held at this
   time.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2155-5-12**] 04:01 PM 80 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2155-4-23**] 12:00 PM
   Dialysis Catheter - [**2155-4-23**] 04:14 PM
   Arterial Line - [**2155-4-30**] 07:21 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:   Discussion with wife, updated medical
   condition, answered all questions.  Plan to proceed with tracheotomy
   evaluation.
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2155-05-14 12:14:00 Physician Attending Progress Note
Chief Complaint: Respiratory failiure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated  mechanically ventilated.
   Remains awake.
   Somewhat dispondent.
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: ETT
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2155-5-13**] 10:25 PM
   Meropenem - [**2155-5-14**] 04:56 AM
   Vancomycin - [**2155-5-14**] 08:00 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   KCl (CRRT) - 3 mEq./hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2155-5-14**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2155-5-14**] 12:14 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.9
   HR: 118 (112 - 124) bpm
   BP: 102/58(71) {91/53(66) - 118/64(80)} mmHg
   RR: 25 (18 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 89.2 kg (admission): 98.2 kg
   CVP: 4 (4 - 6)mmHg
   Total In:
                                                                  9,343 mL
                                                                  4,452 mL
   PO:
   TF:
   IVF:
                                                                  7,191 mL
                                                                  3,373 mL
   Blood products:
   Total out:
                                                                 12,534 mL
                                                                  4,464 mL
   Urine:
   NG:
   Stool:
   Drains:
                                                                  3,000 mL
   Balance:
                                                                 -3,191 mL
                                                                    -12 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 581 (545 - 797) mL
   PS : 5 cmH2O
   RR (Set): 24
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.43/29/141/20/-3
   Ve: 12.5 L/min
   PaO2 / FiO2: 470
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   11.2 g/dL
   123 K/uL
   136 mg/dL
   1.3 mg/dL
   20 mEq/L
   4.4 mEq/L
   26 mg/dL
   107 mEq/L
   138 mEq/L
   35.6 %
   41.5 K/uL
        [image002.jpg]
                             [**2155-5-13**]  10:15 AM
                             [**2155-5-13**]  11:54 AM
                             [**2155-5-13**]  12:06 PM
                             [**2155-5-13**]  05:56 PM
                             [**2155-5-13**]  06:00 PM
                             [**2155-5-13**]  11:10 PM
                             [**2155-5-13**]  11:32 PM
                             [**2155-5-14**]  05:32 AM
                             [**2155-5-14**]  05:51 AM
                             [**2155-5-14**]  11:56 AM
   WBC
   41.5
   Hct
   35.6
   Plt
   123
   Cr
   1.4
   1.3
   TCO2
   19
   19
   20
   19
   20
   20
   Glucose
   127
   118
   148
   136
   Other labs: PT / PTT / INR:13.1/30.1/1.1, ALT / AST:40/52, Alk Phos / T
   Bili:255/7.0, Amylase / Lipase:/44, Differential-Neuts:87.0 %, Band:2.0
   %, Lymph:0.0 %, Mono:7.0 %, Eos:0.0 %, Fibrinogen:523 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:2.4 g/dL, LDH:258 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   56 yom refractory follicular lymphoma, s/p BEAM Auto SCT, transferred
   from BMT with fulminant hepatic failure [**3-4**] [**Last Name (un) 3140**]-occlusive disease
   (VOD).   Overall continued progress (only gradual), although remains
   critically ill.
   RESPIRATORY FAILURE -- remains intubated primarily for marked motor
   weakness.  RSBI favorable, and able to tolerate SBT intermittently
   (IPS= 5/PEEP=5).  Hope to continue to work with repeated SBT, and
   eventually hope to work towards extubation trial over next several
   days.  If no progress, then tracheostomy tube.
   HYPOTENSION -- appears to be marginal for intravascular volume status.
   Would favor maintaining net even fluid balance, hope to wean
   vasopressor.  Monitor MAP > 60 mmHg.
   ELEVATED WBC -- Slight decrease, but remains markedly elevated. Unclear
   etiology, but concern for evolving infection -- concerns include
   line-related infection, intraabdominal infection such as SBP,
   hepatobiliary infection (including fungal infection), C. diff colitis.
   Recheck blood cultures, stool culture, stool for C. diff.  Await
   ascites culture.  Now on empirical antimicrobials, including C. diff
   Rx.
   ALTERED MENTAL STATUS -- much improved on daily basis.  Hold sedation
   medications.  Monitor mental status.
   MOTOR WEAKNESS -- diffuse motor weakness.  Fasculations noted in arms
   today.  Neurology to assess, ?EMG and NCS.
   HEPATIC FAILURE
 attributed to VOD [**3-4**] SCT, confirmed by biopsy.
   Received 25 days of defibrotide that was d/c'd secondary to SAH.
   Hepatic failure resolving (INR, Albumin).  Ursodiol via OGT
   VENTRICULAR TACHYCARDIA -- non-sustained.  Unclear obvious precipitant,
   although may be related to toxic metabolic insult, intrinsic heart
   disease, electolyte.  Monitor HR.
   RENAL FAILURE -- tolerating CVVHD.  [**Month (only) 8**] require HD long term.   Plan
   check bladder catheter to determine if there is any urine production.
   CORNEAL LESION -- right eye has a corneal lesion, enlarging.  Question
   if this due to dry eyes/fungal/herpes infection.  Opthal will eval,f/u
   recs
 continue eye drops ([**Last Name (LF) 4075**], [**First Name3 (LF) **]).   f/u cultures from eye
   Follicular Lymphoma --  s/p BEAM Auto SCT, day 24. BMT and Social Work
   are following. Continue Bactrim ppx.  Acyclovir ppx being held at this
   time.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2155-5-13**] 06:00 PM 80 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2155-4-23**] 12:00 PM
   Dialysis Catheter - [**2155-4-23**] 04:14 PM
   Arterial Line - [**2155-4-30**] 07:21 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending:
   Extensive discussion with patient regarding recommendation for
   tracheostomy tube.  Rationale, recommendation, and procedure discussed
   with patient.  Patient indicates  he understands recommendations, and
   at this time agrees to proceed with tracheostomy tube placement.
   ------ Protected Section Addendum Entered By:[**Name (NI) 275**] [**Last Name (NamePattern1) 276**], MD
   on:[**2155-5-14**] 17:29 ------

2155-05-16 10:24:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Hypotension last PM, transiently required increased vasopressor dose
   last PM, and received iv Fluid boluses.
   Hypothermia -- remains on Bear-Hugger warming blanket.
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: ETT
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Tobramycin - [**2155-5-15**] 06:00 PM
   Bactrim (SMX/TMP) - [**2155-5-15**] 10:06 PM
   Meropenem - [**2155-5-15**] 11:14 PM
   Vancomycin - [**2155-5-16**] 08:24 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Fentanyl - [**2155-5-16**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Nutritional Support: Parenteral nutrition
   Genitourinary: No(t) Foley, Dialysis
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2155-5-16**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.5
C (97.7
   HR: 123 (114 - 132) bpm
   BP: 98/66(76) {76/48(58) - 113/68(80)} mmHg
   RR: 24 (21 - 31) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 93.3 kg (admission): 98.2 kg
   CVP: 9 (9 - 11)mmHg
   Total In:
                                                                  9,718 mL
                                                                  3,831 mL
   PO:
   TF:
                                                                     88 mL
                                                                      7 mL
   IVF:
                                                                  7,556 mL
                                                                  2,975 mL
   Blood products:
   Total out:
                                                                  7,305 mL
                                                                  3,905 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,413 mL
                                                                    -74 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 605 (350 - 736) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.45/30/124/20/-1
   Ve: 14.1 L/min
   PaO2 / FiO2: 413
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   11.5 g/dL
   130 K/uL
   114 mg/dL
   1.3 mg/dL
   20 mEq/L
   4.4 mEq/L
   23 mg/dL
   106 mEq/L
   137 mEq/L
   36.1 %
   38.3 K/uL
        [image002.jpg]
                             [**2155-5-14**]  11:55 PM
                             [**2155-5-15**]  05:35 AM
                             [**2155-5-15**]  05:56 AM
                             [**2155-5-15**]  09:50 AM
                             [**2155-5-15**]  10:04 AM
                             [**2155-5-15**]  04:11 PM
                             [**2155-5-15**]  04:31 PM
                             [**2155-5-15**]  09:44 PM
                             [**2155-5-15**]  10:04 PM
                             [**2155-5-16**]  03:56 AM
   WBC
   36.4
   38.3
   Hct
   35.6
   36.1
   Plt
   108
   130
   Cr
   1.2
   1.2
   1.3
   TCO2
   20
   20
   22
   21
   21
   Glucose
   110
   123
   111
   155
   114
   Other labs: PT / PTT / INR:13.6/30.6/1.2, ALT / AST:42/48, Alk Phos / T
   Bili:341/6.0, Amylase / Lipase:/44, Differential-Neuts:87.0 %, Band:2.0
   %, Lymph:0.0 %, Mono:7.0 %, Eos:0.0 %, Fibrinogen:523 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:2.4 g/dL, LDH:260 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   56 yom refractory follicular lymphoma, s/p BEAM Auto SCT, transferred
   from BMT with fulminant hepatic failure [**3-4**] [**Last Name (un) 3140**]-occlusive disease
   (VOD).   Overall continued progress (only gradual), although remains
   critically ill.
   RESPIRATORY FAILURE -- remains intubated primarily for marked motor
   weakness.  RSBI favorable, and able to tolerate SBT intermittently
   (IPS= 5/PEEP=5).  Hope to continue to work with repeated SBT, however,
   unlikely to tolerate extubation trial due to diffuse profound motor
   weakness.  No significant progress --> plan to proceed with
   tracheostomy tube.  Pt. agrees.
   HYPOTENSION -- appears to be marginal for intravascular volume status.
   [**Month (only) 8**] be related to CVVH.  Would favor maintaining net even fluid
   balance, hope to wean vasopressor.  Monitor MAP > 60 mmHg.
   ELEVATED WBC -- Slight decrease, but remains markedly elevated. Unclear
   etiology, but concern for evolving infection -- concerns include
   line-related infection, intraabdominal infection such as SBP,
   hepatobiliary infection (including fungal infection), C. diff colitis.
   Recheck blood cultures, stool culture, stool for C. diff.  Await
   ascites culture.  Now on empirical antimicrobials, including C. diff
   Rx.
   ALTERED MENTAL STATUS -- much improved on daily basis.  Hold sedation
   medications.  Monitor mental status.
   MOTOR WEAKNESS -- diffuse motor weakness.  Critical care illness.
   Fasculations noted in arms today.  Neurology to assess, ?EMG and NCS.
   HEPATIC FAILURE
 attributed to VOD [**3-4**] SCT, confirmed by biopsy.
   Received 25 days of defibrotide that was d/c'd secondary to SAH.
   Hepatic failure resolving (INR, Albumin).  Ursodiol via OGT
   VENTRICULAR TACHYCARDIA -- non-sustained.  Unclear obvious precipitant,
   although may be related to toxic metabolic insult, intrinsic heart
   disease, electolyte.  Monitor HR.
   RENAL FAILURE -- tolerating CVVHD.  [**Month (only) 8**] require HD long term.   Plan
   check bladder catheter to determine if there is any urine production.
   CORNEAL LESION -- right eye has a corneal lesion, enlarging.  Question
   if this due to dry eyes/fungal/herpes infection.  Opthal will eval,f/u
   recs
 continue eye drops ([**Last Name (LF) 4075**], [**First Name3 (LF) **]).   f/u cultures from eye
   Follicular Lymphoma --  s/p BEAM Auto SCT. BMT and Social Work are
   following. Continue Bactrim ppx.  Acyclovir ppx being held at this
   time.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2155-5-15**] 06:18 PM 80 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2155-4-23**] 12:00 PM
   Dialysis Catheter - [**2155-4-23**] 04:14 PM
   Arterial Line - [**2155-4-30**] 07:21 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2155-05-19 12:50:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Fever 101.7, on ceftazidime x 2 d for sputum positive for mdr
   pseudomonas
   CVVH restarted
   Remains on levophed drip
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Meropenem - [**2155-5-16**] 01:30 PM
   Vancomycin - [**2155-5-18**] 01:58 AM
   Bactrim (SMX/TMP) - [**2155-5-18**] 10:00 PM
   Ceftazidime - [**2155-5-19**] 11:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Norepinephrine - 0.16 mcg/Kg/min
   KCl (CRRT) - 20 mEq./hour
   Other ICU medications:
   Fentanyl - [**2155-5-19**] 09:54 AM
   Other medications:
   PO vanco, Bactrim, Mg, PPI, Nystatin, Ceftaz
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-5-19**] 11:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37
C (98.6
   HR: 117 (112 - 130) bpm
   BP: 127/82(96) {72/49(56) - 127/82(96)} mmHg
   RR: 30 (22 - 33) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 93.3 kg (admission): 98.2 kg
   CVP: 19 (10 - 19)mmHg
   Total In:
                                                                  5,434 mL
                                                                  4,582 mL
   PO:
   TF:
                                                                    240 mL
                                                                    119 mL
   IVF:
                                                                  3,154 mL
                                                                  3,444 mL
   Blood products:
   Total out:
                                                                  3,855 mL
                                                                  4,365 mL
   Urine:
   NG:
   Stool:
                                                                     10 mL
   Drains:
   Balance:
                                                                  1,579 mL
                                                                    217 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 470 (413 - 527) mL
   PS : 15 cmH2O
   RR (Set): 18
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 22 cmH2O
   Plateau: 12 cmH2O
   Compliance: 78.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.42/34/108/22/-1
   Ve: 16.4 L/min
   PaO2 / FiO2: 270
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.5 g/dL
   103 K/uL
   153 mg/dL
   2.4 mg/dL
   22 mEq/L
   4.3 mEq/L
   48 mg/dL
   102 mEq/L
   138 mEq/L
   32.2 %
   36.3 K/uL
        [image002.jpg]
                             [**2155-5-18**]  12:25 PM
                             [**2155-5-18**]  12:53 PM
                             [**2155-5-18**]  05:30 PM
                             [**2155-5-18**]  05:42 PM
                             [**2155-5-18**]  11:45 PM
                             [**2155-5-18**]  11:46 PM
                             [**2155-5-19**]  05:40 AM
                             [**2155-5-19**]  05:49 AM
                             [**2155-5-19**]  10:01 AM
                             [**2155-5-19**]  10:13 AM
   WBC
   36.3
   Hct
   32.2
   Plt
   103
   Cr
   2.9
   2.4
   TCO2
   25
   23
   22
   23
   23
   Glucose
   134
   167
   166
   150
   153
   Other labs: PT / PTT / INR:13.2/32.8/1.1, ALT / AST:40/43, Alk Phos / T
   Bili:332/5.9, Amylase / Lipase:/44, Differential-Neuts:87.0 %, Band:2.0
   %, Lymph:0.0 %, Mono:7.0 %, Eos:0.0 %, Fibrinogen:523 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:2.2 g/dL, LDH:243 IU/L, Ca++:9.7 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   Microbiology: pseudomonas [**Last Name (un) 46**] to zosyn and ceftaz
   Assessment and Plan
   56 yom refractory follicular lymphoma, s/p BEAM Auto SCT, transferred
   from BMT with fulminant hepatic failure [**3-4**] [**Last Name (un) 3140**]-occlusive disease
   (VOD).   Overall continued progress (only gradual), although remains
   critically ill.
   ACUTE RESPIRATORY FAILURE
 trached last week, vent dependent due to
   primarily for marked motor weakness and ascites.  Currently PS 15/5
   with RR in 30s, likely increased RR due to accumulating ascites + vol
   overload.
   HYPOTENSION
 may be partly related to intravascular volume status but
   no decrease in pressors while off CVVH. Could be d/t liver failure.
   Will try empiric stress dose steroids despite normal cortisol levels in
   past.
   ELEVATED WBC -- remains markedly elevated. Unclear etiology, but
   concern for evolving infection. Has MDR pseudomonas in sputum, being
   treated for VAP though this may be contaminant. Other possible sources
   include: line-related infection, intraabdominal infection,
   hepatobiliary (including fungal infection), C. diff.  F/u cultures.  On
   PO vanc, ceftazidime, bactrim pcp.
   [**Name10 (NameIs) **] MENTAL STATUS -- much improved.
   MOTOR WEAKNESS -- diffuse motor weakness.  Critical care illness.
   Fasculations noted in arms today.  Neurology to assess, ?EMG and NCS.
   HEPATIC FAILURE/ASCITES
 attributed to VOD [**3-4**] SCT, confirmed by
   biopsy.  Received 25 days of defibrotide that was d/c'd secondary to
   SAH.  Hepatic failure resolving (INR, Albumin).  Ursodiol via OGT. Will
   discuss with heme about large volume paracentesis that would help with
   vent requirements.
   RENAL FAILURE -- tolerating CVVH.  Will likely require HD long term per
   renal team. Trial of SD steroids to see if can wean from pressors.
   CORNEAL LESION -- right eye has a corneal lesion, enlarging.  Question
   if this due to dry eyes/fungal/herpes infection.  Opthal will eval,f/u
   recs
 continue eye drops ([**Last Name (LF) 4075**], [**First Name3 (LF) **]).   f/u cultures from eye
   Follicular Lymphoma --  s/p BEAM Auto SCT. BMT and Social Work are
   following. Continue Bactrim ppx.  Acyclovir ppx being held at this
   time.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2155-5-18**] 05:59 PM 80 mL/hour
   Peptamen 1.5 (Full) - [**2155-5-19**] 10:52 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2155-4-23**] 12:00 PM
   Dialysis Catheter - [**2155-4-23**] 04:14 PM
   Arterial Line - [**2155-4-30**] 07:21 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Communication: ICU consent signed
   Comments: wife updated on rounds
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2155-05-20 09:09:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains mechanically ventilated via trach.
   Remains on vasopressor.
   Remains on CVVH.
   Motor strength continues to gradually improve.
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2155-5-19**] 10:15 PM
   Vancomycin - [**2155-5-20**] 01:59 AM
   Ceftazidime - [**2155-5-20**] 07:58 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1 grams/hour
   Norepinephrine - 0.08 mcg/Kg/min
   KCl (CRRT) - 10 mEq./hour
   Other ICU medications:
   Fentanyl - [**2155-5-19**] 02:42 PM
   Pantoprazole (Protonix) - [**2155-5-20**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Tachycardia
   Nutritional Support: Parenteral nutrition
   Respiratory: mechanical ventilation
   Genitourinary: Dialysis
   Heme / Lymph: Anemia
   Allergy / Immunology: Immunocompromised
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2155-5-20**] 09:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.9
   HR: 122 (111 - 128) bpm
   BP: 121/74(89) {96/61(73) - 127/82(96)} mmHg
   RR: 29 (22 - 35) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 93.3 kg (admission): 98.2 kg
   CVP: 15 (12 - 19)mmHg
   Total In:
                                                                  9,533 mL
                                                                  3,137 mL
   PO:
   TF:
                                                                    240 mL
                                                                     69 mL
   IVF:
                                                                  7,153 mL
                                                                  2,360 mL
   Blood products:
   Total out:
                                                                 10,245 mL
                                                                  3,324 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -712 mL
                                                                   -187 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 438 (383 - 536) mL
   PS : 15 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 87
   PIP: 21 cmH2O
   SpO2: 99%
   ABG: 7.47/30/112/22/0
   Ve: 15.7 L/min
   PaO2 / FiO2: 280
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.8 g/dL
   107 K/uL
   170 mg/dL
   1.6 mg/dL
   22 mEq/L
   4.7 mEq/L
   35 mg/dL
   102 mEq/L
   137 mEq/L
   32.7 %
   35.3 K/uL
        [image002.jpg]
                             [**2155-5-19**]  05:40 AM
                             [**2155-5-19**]  05:49 AM
                             [**2155-5-19**]  10:01 AM
                             [**2155-5-19**]  10:13 AM
                             [**2155-5-19**]  01:00 PM
                             [**2155-5-19**]  04:24 PM
                             [**2155-5-19**]  04:38 PM
                             [**2155-5-19**]  11:12 PM
                             [**2155-5-19**]  11:30 PM
                             [**2155-5-20**]  05:37 AM
   WBC
   36.3
   35.3
   Hct
   32.2
   32.7
   Plt
   103
   107
   Cr
   2.4
   1.9
   1.6
   TCO2
   23
   23
   24
   22
   Glucose
   150
   153
   139
   153
   191
   170
   Other labs: PT / PTT / INR:13.2/32.8/1.1, ALT / AST:40/43, Alk Phos / T
   Bili:332/5.3, Amylase / Lipase:35/29, Differential-Neuts:89.0 %,
   Band:3.0 %, Lymph:1.0 %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:523 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:2.2 g/dL, LDH:243 IU/L, Ca++:10.3
   mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   56 yom refractory follicular lymphoma, s/p BEAM Auto SCT, transferred
   from BMT with fulminant hepatic failure [**3-4**] [**Last Name (un) 3140**]-occlusive disease
   (VOD).   Overall continued progress (only gradual), although remains
   critically ill.
   RESPIRATORY FAILURE -- remains mechanically ventilated primarily for
   marked motor weakness.  Continue monitor RR.
   HYPOTENSION -- appears to be marginal for intravascular volume status.
   [**Month (only) 8**] be related to CVVH.  Would favor maintaining net even fluid
   balance, hope to wean vasopressor.  Monitor MAP > 60 mmHg.
   ELEVATED WBC -- Slight decrease, but remains markedly elevated. Unclear
   etiology, but concern for persistent infection -- concerns include
   line-related infection, intraabdominal infection such as SBP,
   hepatobiliary infection (including fungal infection), C. diff colitis.
   Recheck blood cultures, stool culture, stool for C. diff.  Await
   ascites culture.  Now on empirical antimicrobials, including C. diff
   Rx.  Plan resiting lines, includine a-line, dialysis catheter, central
   line (may require IR guidance).
   ALTERED MENTAL STATUS -- much improved on daily basis.  Hold sedation
   medications.  Monitor mental status.
   MOTOR WEAKNESS -- diffuse motor weakness.  Critical care illness.
   Gradual improvement.
   HEPATIC FAILURE
 attributed to VOD [**3-4**] SCT, confirmed by biopsy.
   Received 25 days of defibrotide that was d/c'd secondary to SAH.
   Hepatic failure resolving (INR, Albumin).  Ursodiol via OGT
   VENTRICULAR TACHYCARDIA -- non-sustained.  Unclear obvious precipitant,
   although may be related to toxic metabolic insult, intrinsic heart
   disease, electolyte.  Monitor HR.
   RENAL FAILURE -- tolerating CVVHD.  [**Month (only) 8**] require HD long term.   Plan
   check bladder catheter to determine if there is any urine production.
   CORNEAL LESION -- right eye has a corneal lesion, enlarging.  Question
   if this due to dry eyes/fungal/herpes infection.  Opthal will eval,f/u
   recs
 continue eye drops ([**Last Name (LF) 4075**], [**First Name3 (LF) **]).   f/u cultures from eye
   Follicular Lymphoma --  s/p BEAM Auto SCT. BMT and Social Work are
   following. Continue Bactrim ppx.  Acyclovir ppx being held at this
   time.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2155-5-19**] 06:07 PM 80 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2155-4-23**] 12:00 PM
   Dialysis Catheter - [**2155-4-23**] 04:14 PM
   Arterial Line - [**2155-4-30**] 07:21 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2155-05-21 12:26:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains mechanically ventilated via trach.
   Now off iv vaspressor.
   Continues to demonstrate gradual improvement in motor strength, now
   moving feet.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2155-5-19**] 10:15 PM
   Vancomycin - [**2155-5-21**] 07:39 AM
   Ceftazidime - [**2155-5-21**] 07:40 AM
   Atovaquone - [**2155-5-21**] 07:40 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 20 mEq./hour
   Other ICU medications:
   Fentanyl - [**2155-5-20**] 08:00 PM
   Pantoprazole (Protonix) - [**2155-5-21**] 07:39 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2155-5-21**] 12:18 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.1
C (96.9
   HR: 113 (107 - 144) bpm
   BP: 104/64(75) {72/50(57) - 144/93(108)} mmHg
   RR: 20 (19 - 34) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 100.3 kg (admission): 98.2 kg
   CVP: 21 (21 - 23)mmHg
   Total In:
                                                                  7,178 mL
                                                                  4,144 mL
   PO:
   TF:
                                                                    218 mL
                                                                     80 mL
   IVF:
                                                                  5,120 mL
                                                                  3,013 mL
   Blood products:
   Total out:
                                                                  6,957 mL
                                                                  3,580 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    221 mL
                                                                    564 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 623 (414 - 660) mL
   PS : 15 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 89
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: 7.48/30/101/24/0
   Ve: 12.1 L/min
   PaO2 / FiO2: 253
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, Paradoxical), (Percussion:
   Resonant : , No(t) Hyperresonant: , No(t) Dullness : ), (Breath Sounds:
   Clear : , No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : , No(t)
   Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese, Firm
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.8 g/dL
   86 K/uL
   146 mg/dL
   1.7 mg/dL
   24 mEq/L
   4.3 mEq/L
   37 mg/dL
   103 mEq/L
   139 mEq/L
   30.4 %
   32.3 K/uL
        [image002.jpg]
                             [**2155-5-19**]  11:12 PM
                             [**2155-5-19**]  11:30 PM
                             [**2155-5-20**]  05:37 AM
                             [**2155-5-20**]  11:29 AM
                             [**2155-5-20**]  11:58 AM
                             [**2155-5-20**]  06:28 PM
                             [**2155-5-20**]  06:47 PM
                             [**2155-5-20**]  11:48 PM
                             [**2155-5-21**]  05:24 AM
                             [**2155-5-21**]  05:42 AM
   WBC
   35.3
   32.3
   Hct
   32.7
   30.4
   Plt
   107
   86
   Cr
   1.6
   1.9
   1.7
   TCO2
   22
   21
   22
   22
   23
   Glucose
   191
   170
   161
   143
   146
   Other labs: PT / PTT / INR:12.8/30.3/1.1, ALT / AST:40/43, Alk Phos / T
   Bili:332/4.3, Amylase / Lipase:35/29, Differential-Neuts:89.0 %,
   Band:3.0 %, Lymph:1.0 %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:523 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:2.2 g/dL, LDH:243 IU/L, Ca++:10.1
   mg/dL, Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   56 yom refractory follicular lymphoma, s/p BEAM Auto SCT, transferred
   from BMT with fulminant hepatic failure [**3-4**] [**Last Name (un) 3140**]-occlusive disease
   (VOD).   Overall continued progress (only gradual), although remains
   critically ill.
   RESPIRATORY FAILURE -- remains mechanically ventilated primarily for
   marked motor weakness.  Continue monitor RR.
   HYPOTENSION -- appears to be marginal for intravascular volume status.
   [**Month (only) 8**] be related to CVVH.  Would favor maintaining net even fluid
   balance, hope to wean vasopressor. Continue mitadrine. Monitor MAP > 60
   mmHg.
   ELEVATED WBC -- Slight decrease, but remains markedly elevated. Unclear
   etiology, but concern for persistent infection -- concerns include
   line-related infection, intraabdominal infection such as SBP,
   hepatobiliary infection (including fungal infection), C. diff colitis.
   Recheck blood cultures, stool culture, stool for C. diff.  Await
   ascites culture.  Now on empirical antimicrobials, including C. diff
   Rx.  Plan resiting lines, includine a-line, dialysis catheter, central
   line (may require IR guidance).
   ALTERED MENTAL STATUS -- much improved on daily basis.  Hold sedation
   medications.  Monitor mental status.
   MOTOR WEAKNESS -- diffuse motor weakness.  Critical care illness.
   Gradual improvement.
   HEPATIC FAILURE
 attributed to VOD [**3-4**] SCT, confirmed by biopsy.
   Received 25 days of defibrotide that was d/c'd secondary to SAH.
   Hepatic failure resolving (INR, Albumin).  Ursodiol via OGT
   VENTRICULAR TACHYCARDIA -- non-sustained.  Unclear obvious precipitant,
   although may be related to toxic metabolic insult, intrinsic heart
   disease, electolyte.  Monitor HR.
   RENAL FAILURE -- tolerating CVVHD.  [**Month (only) 8**] require HD long term.   Plan
   check bladder catheter to determine if there is any urine production.
   CORNEAL LESION -- right eye has a corneal lesion, enlarging.  Question
   if this due to dry eyes/fungal/herpes infection.  Follow Opthalmologuy
   recommendations
 continue eye drops ([**Last Name (LF) 4075**], [**First Name3 (LF) **]).   f/u cultures from
   eye
   FOLLICULAR LYMPHOMA -- s/p BEAM Auto SCT.  BMT and Social Work are
   following. Continue Bactrim ppx.  Acyclovir ppx being held at this
   time.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2155-5-20**] 06:00 PM 80 mL/hour
   Peptamen 1.5 (Full) - [**2155-5-21**] 04:00 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2155-5-20**] 12:17 PM
   PICC Line - [**2155-5-20**] 04:00 PM
   Dialysis Catheter - [**2155-5-20**] 06:27 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2155-05-22 12:12:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains mechanically ventilated via trach.
   Off vaspressor iv.  Now on increased dose of mitadrine
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2155-5-19**] 10:15 PM
   Vancomycin - [**2155-5-22**] 07:45 AM
   Ceftazidime - [**2155-5-22**] 07:46 AM
   Atovaquone - [**2155-5-22**] 07:46 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 20 mEq./hour
   Other ICU medications:
   Fentanyl - [**2155-5-22**] 04:45 AM
   Pantoprazole (Protonix) - [**2155-5-22**] 07:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Flowsheet Data as of  [**2155-5-22**] 12:12 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.3
C (97.3
   HR: 116 (112 - 129) bpm
   BP: 120/73(87) {85/56(65) - 132/78(93)} mmHg
   RR: 28 (22 - 37) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 100.3 kg (admission): 98.2 kg
             Total In:
                                                                  9,067 mL
                                                                  4,179 mL
   PO:
             TF:
                                                                    194 mL
                                                                    120 mL
   IVF:
                                                                  6,771 mL
                                                                  3,019 mL
   Blood products:
   Total out:
                                                                  8,008 mL
                                                                  3,947 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,059 mL
                                                                    232 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 490 (490 - 718) mL
   PS : 12 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 103
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: 7.43/34/104/22/0
   Ve: 15 L/min
   PaO2 / FiO2: 260
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, OG tube, Tracheostomy tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese, Tense
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal, Moving right arm > left arm with
   improved ease
   Labs / Radiology
   9.8 g/dL
   88 K/uL
   171 mg/dL
   1.3 mg/dL
   22 mEq/L
   4.5 mEq/L
   30 mg/dL
   105 mEq/L
   139 mEq/L
   30.4 %
   33.7 K/uL
        [image002.jpg]
                             [**2155-5-21**]  11:56 AM
                             [**2155-5-21**]  12:00 PM
                             [**2155-5-21**]  12:10 PM
                             [**2155-5-21**]  05:42 PM
                             [**2155-5-21**]  05:59 PM
                             [**2155-5-21**]  06:00 PM
                             [**2155-5-21**]  10:16 PM
                             [**2155-5-21**]  10:44 PM
                             [**2155-5-22**]  04:30 AM
                             [**2155-5-22**]  05:11 AM
   WBC
   33.7
   Hct
   30.4
   Plt
   88
   Cr
   1.4
   1.3
   TCO2
   22
   22
   23
   23
   Glucose
   169
   190
   171
   179
   170
   171
   Other labs: PT / PTT / INR:12.4/29.6/1.0, ALT / AST:40/43, Alk Phos / T
   Bili:332/4.1, Amylase / Lipase:35/29, Differential-Neuts:89.0 %,
   Band:3.0 %, Lymph:1.0 %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:523 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:2.2 g/dL, LDH:243 IU/L, Ca++:9.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   56 yom refractory follicular lymphoma, s/p BEAM Auto SCT, transferred
   from BMT with fulminant hepatic failure [**3-4**] [**Last Name (un) 3140**]-occlusive disease
   (VOD).   Overall continued progress (only gradual), although remains
   critically ill.
   RESPIRATORY FAILURE -- remains mechanically ventilated primarily for
   marked motor weakness.  Continue monitor RR.  Work towards trach collar
   trials.  Consider repeat paracentesis (tense, impeding respiratory
   efforts).
   HYPOTENSION -- appears to be marginal for intravascular volume status.
   [**Month (only) 8**] be related to CVVH.  Would favor maintaining net even fluid
   balance, hope to wean vasopressor. Continue mitadrine. Monitor MAP > 60
   mmHg.
   ELEVATED WBC -- Slight decrease, but remains markedly elevated. Unclear
   etiology, but concern for persistent infection -- concerns include
   line-related infection, intraabdominal infection such as SBP,
   hepatobiliary infection (including fungal infection), C. diff colitis.
   Recheck blood cultures, stool culture, stool for C. diff.  Await
   ascites culture.  Now on empirical antimicrobials, including C. diff
   Rx.  Plan resiting lines, includine a-line, dialysis catheter, central
   line (may require IR guidance).
   ALTERED MENTAL STATUS -- much improved on daily basis.  Hold sedation
   medications.  Monitor mental status.
   MOTOR WEAKNESS -- diffuse motor weakness.  Critical care illness.
   Gradual improvement.
   HEPATIC FAILURE
 attributed to VOD secondary to SCT, confirmed by
   biopsy.  Received 25 days of defibrotide that was d/c'd secondary to
   SAH.  Hepatic failure resolving (INR, Albumin).  Ursodiol via OGT
   VENTRICULAR TACHYCARDIA -- non-sustained.  Unclear obvious precipitant,
   although may be related to toxic metabolic insult, intrinsic heart
   disease, electolyte.  Monitor HR.
   RENAL FAILURE -- tolerating CVVHD.  [**Month (only) 8**] require HD long term.   Plan
   check bladder catheter to determine if there is any urine production.
   CORNEAL LESION -- right eye has a corneal lesion, enlarging.  Question
   if this due to dry eyes/fungal/herpes infection.  Follow Opthalmologuy
   recommendations
 continue eye drops ([**Last Name (LF) 4075**], [**First Name3 (LF) **]).   f/u cultures from
   eye
   FOLLICULAR LYMPHOMA -- s/p BEAM Auto SCT.  BMT and Social Work are
   following. Continue Bactrim ppx.  Acyclovir ppx being held at this
   time.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2155-5-21**] 06:10 PM 79.[**Telephone/Fax (3) 12767**] mL/hour
   Peptamen 1.5 (Full) - [**2155-5-22**] 12:26 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2155-5-20**] 12:17 PM
   PICC Line - [**2155-5-20**] 04:00 PM
   Dialysis Catheter - [**2155-5-20**] 06:27 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill